2112-02-05 05:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Comfortable o/n, denies pain or concerns
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2112-2-4**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-5**] 12:30 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2112-2-4**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-5**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.7
C (96.3
   HR: 73 (67 - 87) bpm
   BP: 136/73(89) {111/62(75) - 153/105(97)} mmHg
   RR: 15 (14 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    335 mL
                                                                    154 mL
   PO:
             TF:
   IVF:
                                                                    335 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    525 mL
   Urine:
   525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    335 mL
                                                                   -371 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   General: Obese, Cushingoid, NAD
   Lungs: CTAB
   CV: S1 S2
   Ab: soft, NT, ND
   Ext: No edema
   Labs / Radiology
   108 K/uL
   8.4 g/dL
   193 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.7 mEq/L
   9 mg/dL
   98 mEq/L
   138 mEq/L
   24.8 %
   2.7 K/uL
        [image002.jpg]
                             [**2112-2-5**]  03:51 AM
   WBC
   2.7
   Hct
   24.8
   Plt
   108
   Cr
   0.6
   Glucose
   193
   Other labs: PT / PTT / INR:11.5/20.4/1.0, Ca++:8.7 mg/dL, Mg++:2.2
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   58 yo M with pauci-immune pulmonary vasculitis with recurrent pulmonary
   hemorrhage on 150mg prednisone/day, cellcept and rituxan.  Was admitted
   earlier this month with a perforated sigmoid diverticulum and managed
   conservatively, now back with CT findings concerning for early abscess.
   # Abdominal abscess: 8 cm fluid/air collection. Cellcept d/c
d, Zosyn
   started. IR attempted to drain yesterday without success.
   -          Plan is to intubate patient this AM, then 2^nd IR team will
   attempt to drain
   -          If
   He was readmitted on [**1-30**] with weakness and SOB and worsening
   hemoptysis.  Cell cept was discontinued and CT abdomen/pelvis done
   showing a growing collection of fluid/air (8cm) concerning for early
   abscess.  Surgery and ID were consulted and Zosyn was started.  Plan
   was for IR to drain collection yesterday but they were unable to find
   drainable fluid.  An second IR team evaluated the patient and will
   attempt again to drain the fluid tomorrow.
   If that is unsuccessful, patient will have to go to surgery.  In order
   for this to occur, plan is for elective intubation tomorrow morning
   following by IR drainage and subsequent surgery if necessary.  Given
   that patient is on high dose steroids, pheresis and IvIg may be given
   prior to surgery is patient remains hemodynamically stable.  In the
   case that he is unstable, IvIg can be given without plasmpheresis.  His
   pulmonologist Dr. [**Last Name (STitle) **] and his rheumatologist, Dr. [**Last Name (STitle) **] are
   following him closely.
   On transfer to the floor, patient reports that he is pain free and
   slightly anxious.
   PMH (per OMR notes):
   1. Pulmonary vasculitis
   -[**1-9**] started on prednisone for his ILD
   -[**4-8**] admitted with diffuse alveolar hemorrhage 1-2 days after an
   a-fib ablation in NH. Was initially thought to be a pulmonary
   -vein complication from the procedure but this was ruled out.
   ANCA negative - given 1 gm of solumedrol x 3 days and also
   started on PO cytoxan for presumed pauci-immune pulmonary
   vasculitis. Has required supplemental O2 since.
   -[**5-8**] readmitted with more hemoptysis - given more steroids,
   continued on cytoxan
   -[**6-8**] readmitted with DVT and more hemoptysis - higher dose
   steroids given and IVC filter placed
   -[**7-8**] admitted with PE, supportive care provided
   -late [**7-8**] more hemoptysis as outpatient, prednisone increased
   from 40 to 60 and cellcept added, still on cytoxan 150
   -[**9-8**] more hemoptysis as outpatient - prednisone increased from
   30 to 60 [**Hospital1 **]
   -[**12-8**] cellcept held in anticipation of rituxan, hemoptysis
   worsened and admitted for puse dose solumedrol, cellcept
   restarted
   -[**1-10**] cytoxan held and rituxan started, continues on prednisone
   50 mg [**Hospital1 **] and cellcept - has persistent daily hemoptysis
   -[**2112-1-19**] complains of increased hemoptysis, weakness and dyspnea,
   prednisone empirically increased to 60 tid.
   2. Interstitial lung disease - x 5 years; on chronic steroids.
   3. Atrial fibrillation status post ablation.
   4. Type 2 diabetes mellitus.
   5. DVT with pulmonary embolization - s/p IVC filter placement.
   6. CAD status post BMS to the LAD in [**2101**].
   7. Mild pulmonary hypertension.
   8. Obesity.
   9. Sleep apnea - unable to tolerate CPAP.
   10. NASH.
   11. Hyperlipidemia.
   12. Hypertension.
   13. Bilateral torn rotator cuff.
   14. BPH.
   15. GERD, consistent with Barrett's esophagus.
   16. Anxiety.
   17. Spinal stenosis.
   18. Varicose veins s/p multiple surgical removal bilaterally
   19. Diverticulitis
   20. Cholecystectomy (laprascopic) - "years ago".
   21. Inguinal hernia repair - age 18.
   22. Back surgeries x 2 for herniated disk.
   SH: Married, 2 adult children. H/O smoking 2-3pk per day x25 yrs, quit
   5 yrs ago. No EtOH or drugs now.
   FH: NC
   MEDS ON TRANSFER:
   Insulin SSI
   Lantus 20u [**Hospital1 **]
   Linezolid 600 mg IV Q12H
   Piperacillin-Tazobactam 4.5 g IV Q8H
   PredniSONE 50 mg PO/NG TID
   Alendronate Sodium 35 mg PO QWED  [**2-4**] @ [**2040**] View
   Propoxyphene Nap.-Apap (N-100) 1 TAB PO/NG DAILY:PRN pain
   Tamsulosin 0.4 mg PO HS  [**2-4**] @
   Docusate Sodium 100 mg PO BID:PRN constipation
   Sulfameth/Trimethoprim DS 1 TAB PO/NG 3X/WEEK (MO,WE,FR)
   traZODONE 50 mg PO/NG HS:PRN insomnia
   Ropinirole 0.25 mg PO/NG QPM restless leg syndrome
   Omeprazole 40 mg PO BID
   Paroxetine 60 mg PO/NG DAILY  [**2-4**] @ [**2040**] View
   Sotalol 160 mg PO BID
   Mupirocin Nasal Ointment 2% 1 Appl NU [**Hospital1 **] Duration: 5 Days
   Nystatin 500,000 UNIT PO/NG Q8H  [**2-4**] @ [**2040**] View
   ALL: NKDA
   IMAGING:
   CT AP: [**2112-2-2**]
   1. Feculent collection adjacent to loop of sigmoid colon at site of
   previous episode of diverticultis consistent with perforated
   diverticulitis. This has progressed in size from the prior examination
   and is localized to the perisigmoid region although there is not a well
   defined wall about this gas and stool containing collection.
   2. Extensive colonic diverticulosis.
   3. Paraumbilical hernia containing nonobstructed, nondilated loops of
   small bowel.
   4. Stable scarring at bilateral lung bases with fibrotic changes.
   5. Stable hypodensity in the pancreas, which could represent an IMPN or
   pancreatic cyst. MRCP would be recommended for further evaluation.
   LABS:
   A/P:
   58 yo M with pauci-immune pulmonary vasculitis with recurrent pulmonary
   hemorrhage on high dose immunosuppression with enlarging sigmoid
   abscess [**2-2**] perforated sigmoid diverticulum.  Admitted to the MICU for
   elective intubation prior to second attempt at IR drainage and possible
   sigmoid resection.
   # Multi-Organism Bacteremia:  GNR and GPC on blood cx from [**2-2**].  Cx
   from [**2-3**] and [**2-4**] pending.  Has been HD stable on linezolid and zosyn.
   - continue abx
   - daily blood cx
   - abscess management as below
   - careful bp, UOP monitoring for signs of SIRS/sepsis
   - f/u speciation of organisms
   #.  Sigmoid Abscess:  Seen on CT on [**2-2**], 8cm area with air and feculent
   material. IR attempted drainage unsuccessfully yesterday. Plan as above
   for repeat IR drainage with possible surgery (may need even if some
   material is drained).
   - continue iv abzx - zosyn and linezolid
   - IVF
   - NPO p MN
   - have FYI'ed anesthesia regarding intubation tomorrow morning - will
   plan on intubating after 7am.  Per anesthesia attending, unusual for
   them to intubate someone and then not be present in procedure.  Will
   need to clarify in am.
   - has 2 PIV's - had planned for CVL but patient unable to lay flat for
   more than 5 minutes.  Have confirmed with anesthesia that 2 PIV's
   adequate for intubation.
   - plan for CVL and plasmapheresis catheter (see below) placement
   tomorrow after intubation and before IR procedure in case of need for
   emergent surgery.
   # Pauci-Immune Pulmonary Vasculitis:  Currently on prednisone 50mg tid
   which will continue.  Continue Bactrim ppx. Holding Cellcept and
   Rixtuxan given abscess.
   Plan is as follows per multi-specialty input:
   - if needs surgery and hemodynamically stable will need plasmapheresis
   and IvIG prior to surgery
   - if needs surgery and HD unstable, can get IvIG without pheresis
   - will confirm above plan with Drs [**Last Name (STitle) 104**], [**Name5 (PTitle) **] and [**Name5 (PTitle) **]
   # Type 2 diabetes mellitus: Continue Lantus and SSI
   # RLS: Continue ropinerole
   # Anxiety: Continue SSRI
   # DVT with pulmonary embolization - s/p IVC filter placement
   # BPH: Continue tamsulosin
   # GERD: Home PPI
   # HTN: Home Sotolol
   # Spinal stenosis: Pain control with tylenol
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-2-4**] 07:03 PM
   22 Gauge - [**2112-2-4**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-06 06:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2112-2-5**] 08:00 AM
 MULTI LUMEN - START [**2112-2-5**] 08:43 AM
   -CVL placed
   -Steroids changed to high dose hydrocortisone TID
   -BCx positive for strep viridans & morganella --> TTE ordered
   -Intubated for IR procedure, drain was placed and brown stool material
   is draining
   - post procedure, vent and sedation weaning started
   -IVIG started after procedure
   -UROLOGY Recs: C/w ABx x 5 days due to foley trauma.
    -Keep foley x 1 week to facilitate healing of false passage
    -If foley blocked, or if urine darker than pink-lemonade color, flush
   with 2 full 60 cc catheter tipped syringes full of sterile water or
   saline and then aspirate 60 cc to clear blockage.
    -After one week, the patient may undergo voiding trial
   - D/c'd linezolid per ID recs, given no enterococcus on cultures
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2112-2-5**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-6**] 12:00 AM
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-5**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-6**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36
C (96.8
   HR: 66 (53 - 82) bpm
   BP: 91/50(58) {87/43(55) - 142/82(96)} mmHg
   RR: 14 (14 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,355 mL
                                                                    579 mL
   PO:
             TF:
   IVF:
                                                                  1,955 mL
                                                                    579 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  2,545 mL
                                                                    850 mL
   Urine:
                                                                  2,545 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   100 mL
   Balance:
                                                                   -190 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 369 (369 - 369) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 52.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/42/193/31/8
   Ve: 7.6 L/min
   PaO2 / FiO2: 483
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Diminished), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   79 K/uL
   7.3 g/dL
   126 mg/dL
   0.5 mg/dL
   31 mEq/L
   2.9 mEq/L
   9 mg/dL
   95 mEq/L
   133 mEq/L
   19.6 %
   2.9 K/uL
        [image002.jpg]
                             [**2112-2-5**]  03:51 AM
                             [**2112-2-5**]  04:18 PM
                             [**2112-2-6**]  03:30 AM
   WBC
   2.7
   2.9
   Hct
   24.8
   19.6
   Plt
   108
   79
   Cr
   0.6
   0.5
   TCO2
   33
   Glucose
   193
   126
   Other labs: PT / PTT / INR:11.1/25.5/0.9, Lactic Acid:1.2 mmol/L,
   Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   58 yo M with pauci-immune pulmonary vasculitis with recurrent pulmonary
   hemorrhage on immunosuppression, now s/p intubation and IR guided drain
   placement of sigmoid abscess refractory to conservative management.
   # Sigmoid abscess: Draining brown liquid drainage, with polymicrobial
   gram stain. Zosyn and linezolid started but linezolid pulled back to
   target known culture data.
   - Monitor drainage output
   - C/w zosyn
   - F/u drainage and other outstanding cultures
   - Appreciate IR, ID recs
   - IVF
   - C/w 5 day course IVIG
   - Serial abdominal exams
   # Multi-Organism Bacteremia:  Culture growing morganella and strep
   viridans, neither of which identified on prior culture data in [**Hospital1 5**]
   system. HD stable.
   - continue abx as above
   - monitor closely for sepsis
   - f/u speciation of organisms
   - TTE to r/o endocarditis, given strep viridans bacteremia
   # Elective intubation for IR procedure: Significant atelectasis on CXR,
   likely [**2-2**] inadequate PEEP in morbidly obese patient
   - Increase PEEP
   - Re check CXR post-adjustment
   # Pauci-Immune Pulmonary Vasculitis:  On high amounts of
   hydrocortisone, with goal to wean down to 80 mg TID by time of surgical
   intervention. Off Cellcept and Rixtuxan.
   - Aggressive steroid taper over next 1-2 weeks
   - C/w IVIG as above
   - C/w Bactrim ppx
   # Anemia:
   - 1 unit RBC today
   - Post-transfusion Hct check
   - Monitor for worsening hematuria, given traumatic foley placement
   - bronchoscope for worsening Hct drop, given hx recurrent hemoptysis
   # Traumatic Foley placement: Per urology, keep foley in for one week,
   c/w antibiotics.
   - Urine culture for any fevers
   # Type 2 diabetes mellitus: Continue Lantus and SSI
   # RLS: Continue ropinerole
   # Anxiety: SSRI
   # DVT with pulmonary embolization - s/p IVC filter placement
   # BPH: Continue tamsulosin
   # GERD: Home PPI
   # HTN: Home Sotolol
   # Spinal stenosis: Pain control with Tylenol
   # Access: PIV x 2, IJ CVL
   # FEN: Replete lytes; nutrition consult for TPN
   # Code: Full
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-2-4**] 07:03 PM
   18 Gauge - [**2112-2-5**] 06:56 AM
   Multi Lumen - [**2112-2-5**] 08:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-06 08:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Intubated, CVL placed
   IR drain placed
   Draining polymicrobial fluid
   Given IvIg
   Traumatic foley placement
 ultimately replaced by uro
   24 Hour Events:
 INVASIVE VENTILATION - START [**2112-2-5**] 08:00 AM
 MULTI LUMEN - START [**2112-2-5**] 08:43 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2112-2-5**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-6**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-5**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-6**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36
C (96.8
   HR: 67 (53 - 82) bpm
   BP: 90/46(57) {87/43(55) - 140/82(96)} mmHg
   RR: 15 (14 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,355 mL
                                                                    767 mL
   PO:
             TF:
   IVF:
                                                                  1,955 mL
                                                                    767 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  2,545 mL
                                                                  1,600 mL
   Urine:
                                                                  2,545 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   100 mL
   Balance:
                                                                   -190 mL
                                                                   -833 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 462 (369 - 462) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 37.9 cmH2O/mL
   SpO2: 99%
   ABG: 7.49/42/193/31/8
   Ve: 7.5 L/min
   PaO2 / FiO2: 483
   Physical Examination
   Obese, intubated, sedated, opening eyes
   RIJ CVL
   Lungs decreased BS
   RRR
   Abd drain in place
   Extreme trace edema
   Labs / Radiology
   7.3 g/dL
   79 K/uL
   126 mg/dL
   0.5 mg/dL
   31 mEq/L
   2.9 mEq/L
   9 mg/dL
   95 mEq/L
   133 mEq/L
   19.6 %
   2.9 K/uL
        [image002.jpg]
                             [**2112-2-5**]  03:51 AM
                             [**2112-2-5**]  04:18 PM
                             [**2112-2-6**]  03:30 AM
   WBC
   2.7
   2.9
   Hct
   24.8
   19.6
   Plt
   108
   79
   Cr
   0.6
   0.5
   TCO2
   33
   Glucose
   193
   126
   Other labs: PT / PTT / INR:11.1/25.5/0.9, Lactic Acid:1.2 mmol/L,
   Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   CXR opacity lefet base
   Assessment and Plan
 abdominal abscess / diverticulitis / BACTEREMIA
 has drain in place,
   on zosyn, following blood culture, cont NPO for now
 pulmonary vasculitis / alveolar hemorrhage
 receiving IVIg and
   hydrocort being weaned
   Resp failure
 increase PEEP and f/u CXR, hopefully extubated today
   a-fib
 cont sotolol, in NSR
   DM
 cont insulin
   Anemia
 transfuse, follow CBC closely, if falls again will need bronch
   ICU Care
   Nutrition: NPO, will need TPN
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-2-4**] 07:03 PM
   18 Gauge - [**2112-2-5**] 06:56 AM
   Multi Lumen - [**2112-2-5**] 08:43 AM
   Prophylaxis:
   DVT:  on pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:    38

2112-02-09 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2112-2-8**] 08:00 AM
   2 sets
 MIDLINE - STOP [**2112-2-8**] 12:00 PM
 PICC LINE - START [**2112-2-8**] 12:00 PM
 ARTERIAL LINE - START [**2112-2-8**] 03:00 PM
 BLOOD CULTURED - At [**2112-2-9**] 03:39 AM
   - Abscess culture grew out pan-sensitive pseudomonas
   - Aline & OG tube placed
   - Transfused 1 unit pRBC, platelets (Plt's did not increase); evening
   Plt's 32K
   - [**Doctor Last Name **] d/w Transfusion; decided against pheresis until IVIG
   completed and then reassess
   - Per primary rheumatologist, hydrocortisone increased to 500 mg Q8 hrs
   - Added on Diff to r/o neutropenia -> ANC =2619
   - had a cuff leak, CXR shows ETT 10 cm above carina. Anesthesia came to
   reposition; f/u CXR:
   - added fentanyl for sedation, pt was using abd muscles to breath
   - increased humalog sliding scale for multiple fingersticks in 300s
   - Got hydralazine and started Captopril for hypertension
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-9**] 12:08 AM
   Ciprofloxacin - [**2112-2-9**] 12:09 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2112-2-8**] 08:10 PM
   Hydralazine - [**2112-2-9**] 01:30 AM
   Fentanyl - [**2112-2-9**] 02:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-9**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (97
   HR: 64 (59 - 74) bpm
   BP: 120/55(76) {116/53(74) - 186/81(355)} mmHg
   RR: 13 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,185 mL
                                                                  1,103 mL
   PO:
             TF:
   IVF:
                                                                  1,174 mL
                                                                    714 mL
   Blood products:
                                                                    999 mL
   Total out:
                                                                  1,320 mL
                                                                  1,290 mL
   Urine:
                                                                  1,260 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
                                                                     60 mL
                                                                     20 mL
   Balance:
                                                                  1,865 mL
                                                                   -187 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 767 (767 - 790) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 21 cmH2O
   Plateau: 26 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/43/128/27/4
   Ve: 10.6 L/min
   PaO2 / FiO2: 256
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   36 K/uL
   8.2 g/dL
   262 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.4 mEq/L
   11 mg/dL
   105 mEq/L
   138 mEq/L
   24.1 %
   2.9 K/uL
        [image002.jpg]
                             [**2112-2-8**]  05:47 AM
                             [**2112-2-8**]  09:10 AM
                             [**2112-2-8**]  03:21 PM
                             [**2112-2-8**]  05:07 PM
                             [**2112-2-8**]  05:13 PM
                             [**2112-2-8**]  07:46 PM
                             [**2112-2-8**]  08:49 PM
                             [**2112-2-9**]  03:20 AM
                             [**2112-2-9**]  03:31 AM
                             [**2112-2-9**]  06:07 AM
   WBC
   2.1
   2.7
   2.9
   Hct
   25.9
   25.6
   24.1
   Plt
   39
   38
   32
   36
   Cr
   0.4
   TCO2
   34
   32
   31
   28
   28
   29
   Glucose
   262
   Other labs: PT / PTT / INR:11.2/25.1/0.9, Differential-Neuts:97.0 %,
   Band:1.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:531 mg/dL,
   Lactic Acid:0.9 mmol/L, Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   58 yo M with pauci-immune pulmonary vasculitis with recurrent pulmonary
   hemorrhage on high dose immunosuppression with enlarging sigmoid
   abscess [**2-2**] perforated sigmoid diverticulum.  Admitted to the MICU for
   elective intubation prior to second attempt at IR drainage and possible
   sigmoid resection; IR drainage was successful and drain placed
   patient extubated and transferred to the floor but developed increasing
   O2 requirement and more blood on suctioning. Was transferred back to
   MICU and intubated.
   .
   # Multi-Organism Bacteremia:  GNR and GPC on blood cx from [**2-2**].  BCx
   from [**2-3**] and [**2-4**] pending.  Has been HD stable on linezolid and zosyn.
   Switched to Zosyn and added Cipro for double pseudomonas coverage.
   Sensitivity and speciation of abscess cultures showed resistance to
   Cipro, however, so patient only on Zosyn for now.
   - Continue Zosyn
   - Appreciate ID following
   - Daily blood cultures
   - Abscess management per below
   - Careful blood pressure, urine output, temperature monitoring for
   signs of SIRS/sepsis
   #.  Sigmoid Abscess:  Seen on CT on [**2-2**], 8cm area with air and feculent
   material. IR attempted drainage unsuccessfully initially but second
   drainage successful and drain placed
   - Continue Zosyn and appreciate ID recs
   - NPO and TPN for now
   - Given possibility of surgery, patient is currently off Cellcept and
   Rituxan. Also had attempted decreasing steroids but unable to given
   increased hemoptysis
   - Patient will get plasmapheresis catheter with IR today and start
   plasmapheresis today; ionized calcium and LFTs ordered
   - Completed five day course of IVIG yesterday
   # Pauci-Immune Pulmonary Vasculitis:  Currently on Hydrocortisone 500mg
   tid per rheumatology, given increased hemoptysis on attempted taper of
   steroids to 80mg TID.
   - Appreciate Rheumatology following: ?ability to decrease
   hydrocortisone after plasmapheresis
   - Continue Bactrim ppx
   - Continue holding Cellcept and Rituxan given abscess; plasmapheresis
   per above
   - CBC every 8 hours to evaluate hematocrit
   - Will monitor secretions closely for blood loss
   # Thrombocytopenia: Worse than prior baseline. Etiology not clear.
   - Heme/Onc consult today
   # Type 2 diabetes mellitus: Continue Lantus and SSI
   - Appreciate [**Last Name (un) 72**] following
   # RLS: Continue ropinerole
   # Anxiety: Continue SSRI
   # DVT with pulmonary embolization - s/p IVC filter placement
   # BPH: Continue tamsulosin
   # GERD: Home PPI
   # HTN: Home Sotolol
   # Spinal stenosis: Pain control with tylenol
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEMOPTYSIS
 BACTEREMIA
 DIVERTICULITIS
   ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-8**] 04:58 PM 41.[**Telephone/Fax (3) 499**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-10 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ANGIOGRAPHY - At [**2112-2-9**] 01:00 PM
   pheresis line placement
 PHERESIS CATHETER - START [**2112-2-9**] 07:19 PM
   - Stopped Cipro as pseudomonas is resistant
   - Plasmapheresis w/catheter placement yesterday
   - FiO2 weaned to 50% and PaO2 dropped to 78. FiO2 increased to 60% with
   PaO2 increased to 83.
   - ID c/s:  continue Zosyn
   - Heme/Onc consulted for thromb/pancytopenia: rec'd CMV/EBV/Parvovirus
   viral load and total three units of platelets [**2-2**] morbid obesity. Smear
   not s/o DIC, other DIC labs also done
   - CBC showed plts 30 --> 24/26 but Hct stable; plt then bumped to 24
   --> 54 after two packs
   - Spont awakening trial tomorrow; weaned sedation overnight and pulling
   for tube
   - Rheum: no new recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2112-2-9**] 12:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-10**] 12:39 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Hydralazine - [**2112-2-9**] 05:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-10**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 82 (61 - 82) bpm
   BP: 141/62(88) {105/51(71) - 152/70(99)} mmHg
   RR: 18 (10 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,961 mL
                                                                    742 mL
   PO:
             TF:
   IVF:
                                                                  1,621 mL
                                                                    316 mL
   Blood products:
                                                                    967 mL
   Total out:
                                                                  2,045 mL
                                                                    395 mL
   Urine:
                                                                  2,005 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
                                                                     25 mL
   Balance:
                                                                  1,916 mL
                                                                    347 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 725 (665 - 934) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: 7.48/46/108/32/9
   Ve: 15.6 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   49 K/uL
   7.8 g/dL
   227 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.5 mEq/L
   14 mg/dL
   104 mEq/L
   142 mEq/L
   22.0 %
   2.4 K/uL
        [image002.jpg]
   Blood cultures X4 NGTD
   HCV viral load negative
   CMV IgGpos/IgM neg
                             [**2112-2-9**]  06:07 AM
                             [**2112-2-9**]  09:44 AM
                             [**2112-2-9**]  12:13 PM
                             [**2112-2-9**]  02:55 PM
                             [**2112-2-9**]  04:55 PM
                             [**2112-2-9**]  05:06 PM
                             [**2112-2-9**]  10:01 PM
                             [**2112-2-9**]  10:11 PM
                             [**2112-2-10**]  03:13 AM
                             [**2112-2-10**]  03:17 AM
   WBC
   2.7
   2.2
   2.1
   2.4
   Hct
   24.3
   23.2
   22.7
   22.0
   Plt
   26
   24
   54
   49
   Cr
   0.5
   0.5
   TCO2
   29
   29
   29
   29
   35
   35
   Glucose
   252
   227
   Other labs: PT / PTT / INR:11.8/25.3/1.0, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/15, Differential-Neuts:79.0 %, Band:19.0
   %, Lymph:1.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:531 mg/dL, Lactic
   Acid:0.9 mmol/L, LDH:406 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   58 yo M with pauci-immune pulmonary vasculitis with recurrent pulmonary
   hemorrhage on high dose immunosuppression with enlarging sigmoid
   abscess [**2-2**] perforated sigmoid diverticulum.  Admitted to the MICU for
   elective intubation prior to second attempt at IR drainage and possible
   sigmoid resection; IR drainage was successful and drain placed
   patient extubated and transferred to the floor but developed increasing
   O2 requirement and more blood on suctioning. Was transferred back to
   MICU and intubated.
   .
   #.  Sigmoid Abscess:  Seen on CT on [**2-2**], 8cm area with air and feculent
   material. IR attempted drainage unsuccessfully initially but second
   drainage successful and drain placed. Abscess cultures growing
   pseudomonas and bacteroides
   - Continue Zosyn and appreciate ID recs
   - CT abdomen and pelvis to evaluate progression of sigmoid abscess
   - NPO and TPN for now
   - Given possibility of surgery, patient is currently off Cellcept and
   Rituxan. Also had attempted decreasing steroids but unable to given
   increased hemoptysis
   - Patient got plasmapheresis catheter with IR yesterday and started
   plasmapheresis with plans for continued plasmapheresis for 5 sessions
   (today is Day [**2-5**]); ionized calcium and LFTs ordered
   - Completed five day course of IVIG Monday
   # Pauci-Immune Pulmonary Vasculitis:  Currently on Hydrocortisone 500mg
   tid per rheumatology, given increased hemoptysis on attempted taper of
   steroids to 80mg TID.
   - Rheumatology okay
d decreasing dose today but in the setting of a
   worsened CXR in the left lung fields, will continue 500mg TID for now.
   Will re-evaluate after planned bronchoscopy today to evaluate infection
   vs. further bleed
   - Will also re-order sputum and blood cultures
   - Continues to be intubated for significant hemoptysis and hypoxemia.
   Spontaneous awakening trial today. Unable to wean FiO2 etc. yesterday
   - Continue Bactrim ppx
   - Continue holding Cellcept and Rituxan given abscess; plasmapheresis
   per above
   - CBC every 8 hours to evaluate hematocrit
   - Will monitor secretions closely for blood loss
   .
   # Multi-Organism Bacteremia:  GNR and GPC on blood cx from [**2-2**] grew out
   Morganella and Strep viridans.  BCx since are pending, NGTD.  Has been
   HD stable on linezolid and zosyn. Switched to Zosyn and added Cipro for
   double pseudomonas coverage. Sensitivity and speciation of abscess
   cultures showed resistance to Cipro, however, so patient only on Zosyn
   for now.
   - Continue Zosyn
   - Appreciate ID following
   - Follow-up strep viridans sensitivity if any
   - Daily blood cultures and one sputum culture today in setting of
   worsened CXR
   - Abscess management per below
   - Careful blood pressure, urine output, temperature monitoring for
   signs of SIRS/sepsis
   # Thrombocytopenia: Improved after two units of platelets yesterday.
   - Appreciate Heme/Onc consult. Patient responded well to 2 units of
   platelets, other serologies pending. Not DIC per Heme/Onc on peripheral
   [**Last Name (un) 11453**] review
   # Type 2 diabetes mellitus: Continue Lantus and SSI
   - Appreciate [**Last Name (un) 72**] following
   # RLS: Continue ropinerole
   # Anxiety: Continue SSRI
   # DVT with pulmonary embolization - s/p IVC filter placement
   # BPH: Continue tamsulosin
   # GERD: Home PPI
   # HTN: Captopril for now
   # Spinal stenosis: Pain control with Tylenol
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEMOPTYSIS
 BACTEREMIA
 DIVERTICULITIS
   ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-8**] 04:58 PM 41.[**Telephone/Fax (3) 499**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
 PANCYTOPENIA
 VASCULITIS
   ANCA - negative pulmonary vasculitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEMOPTYSIS
 BACTEREMIA
 DIVERTICULITIS
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2112-2-9**] 04:40 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-11 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2112-2-11**] 01:00 AM
 URINE CULTURE - At [**2112-2-11**] 01:00 AM
   - Insulin regimen increased by [**Last Name (un) 72**]
   - Had pheresis today. Next will be Fri, Mon, Tues.
   - CT ab/pelvis: abscess is smaller, draining well
   - 22:30 WBC 1.1, platelets 37. Diff sent, pending that pt on
   neutropenic precautions
   - 00:30 platelet transfusion ordered. Tachy to 90s, lowgrade to 99.9,
   in setting of +/- neutropenia, started Meropenem and Linezolid as per
   standing ID recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2112-2-9**] 12:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-11**] 12:10 AM
   Linezolid - [**2112-2-11**] 01:30 AM
   Meropenem - [**2112-2-11**] 03:30 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Hydralazine - [**2112-2-10**] 12:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-11**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.5
C (97.7
   HR: 86 (73 - 99) bpm
   BP: 119/62(81) {91/44(59) - 146/79(272)} mmHg
   RR: 18 (11 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  3,016 mL
                                                                  3,571 mL
   PO:
           TF:
   IVF:
                                                                  1,615 mL
                                                                  2,830 mL
   Blood products:
   245 mL
   Total out:
                                                                  1,116 mL
                                                                    400 mL
   Urine:
                                                                  1,091 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
                                                                     25 mL
   Balance:
                                                                  1,900 mL
                                                                  3,171 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 742 (533 - 968) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 21 cmH2O
   SpO2: 93%
   ABG: 7.52/44/80.[**Numeric Identifier 20**]/33/11
   Ve: 13.4 L/min
   PaO2 / FiO2: 133
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   61 K/uL
   7.3 g/dL
   184 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.7 mEq/L
   20 mg/dL
   102 mEq/L
   140 mEq/L
   21.0 %
   2.8 K/uL
        [image002.jpg]
                             [**2112-2-9**]  05:06 PM
                             [**2112-2-9**]  10:01 PM
                             [**2112-2-9**]  10:11 PM
                             [**2112-2-10**]  03:13 AM
                             [**2112-2-10**]  03:17 AM
                             [**2112-2-10**]  12:42 PM
                             [**2112-2-10**]  02:38 PM
                             [**2112-2-10**]  10:32 PM
                             [**2112-2-11**]  05:22 AM
                             [**2112-2-11**]  05:38 AM
   WBC
   2.1
   2.4
   2.9
   1.1
   2.8
   Hct
   22.7
   22.0
   23.0
   23.1
   21.0
   Plt
   54
   49
   43
   37
   61
   Cr
   0.5
   0.5
   TCO2
   29
   35
   35
   31
   37
   Glucose
   227
   184
   Other labs: PT / PTT / INR:11.6/24.9/1.0, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/15, Differential-Neuts:94.0 %, Band:5.0
   %, Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:531 mg/dL, Lactic
   Acid:0.9 mmol/L, LDH:406 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 PANCYTOPENIA
 VASCULITIS
   ANCA - negative pulmonary vasculitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEMOPTYSIS
 BACTEREMIA
 DIVERTICULITIS
   58 yo M with pauci-immune pulmonary vasculitis with recurrent pulmonary
   hemorrhage on high dose immunosuppression with enlarging sigmoid
   abscess [**2-2**] perforated sigmoid diverticulum.  Admitted to the MICU for
   elective intubation prior to second attempt at IR drainage and possible
   sigmoid resection; IR drainage was successful and drain placed
   patient extubated and transferred to the floor but developed increasing
   O2 requirement and more blood on suctioning. Was transferred back to
   MICU and intubated.
   .
   #.  Sigmoid Abscess:  Seen on CT on [**2-2**], 8cm area with air and feculent
   material. IR attempted drainage unsuccessfully initially but second
   drainage successful and drain placed. Abscess cultures growing
   pseudomonas and bacteroides
   - Continue Zosyn and appreciate ID recs
   - CT abdomen and pelvis to evaluate progression of sigmoid abscess
   - NPO and TPN for now
   - Given possibility of surgery, patient is currently off Cellcept and
   Rituxan. Also had attempted decreasing steroids but unable to given
   increased hemoptysis
   - Patient got plasmapheresis catheter with IR yesterday and started
   plasmapheresis with plans for continued plasmapheresis for 5 sessions
   (today is Day [**2-5**]); ionized calcium and LFTs ordered
   - Completed five day course of IVIG Monday
   # Pauci-Immune Pulmonary Vasculitis:  Currently on Hydrocortisone 500mg
   tid per rheumatology, given increased hemoptysis on attempted taper of
   steroids to 80mg TID.
   - Rheumatology okay
d decreasing dose today but in the setting of a
   worsened CXR in the left lung fields, will continue 500mg TID for now.
   Will re-evaluate after planned bronchoscopy today to evaluate infection
   vs. further bleed
   - Will also re-order sputum and blood cultures
   - Continues to be intubated for significant hemoptysis and hypoxemia.
   Spontaneous awakening trial today. Unable to wean FiO2 etc. yesterday
   - Continue Bactrim ppx
   - Continue holding Cellcept and Rituxan given abscess; plasmapheresis
   per above
   - CBC every 8 hours to evaluate hematocrit
   - Will monitor secretions closely for blood loss
   .
   # Multi-Organism Bacteremia:  GNR and GPC on blood cx from [**2-2**] grew out
   Morganella and Strep viridans.  BCx since are pending, NGTD.  Has been
   HD stable on linezolid and zosyn. Switched to Zosyn and added Cipro for
   double pseudomonas coverage. Sensitivity and speciation of abscess
   cultures showed resistance to Cipro, however, so patient only on Zosyn
   for now.
   - Continue Zosyn
   - Appreciate ID following
   - Follow-up strep viridans sensitivity if any
   - Daily blood cultures and one sputum culture today in setting of
   worsened CXR
   - Abscess management per below
   - Careful blood pressure, urine output, temperature monitoring for
   signs of SIRS/sepsis
   # Thrombocytopenia: Improved after two units of platelets yesterday.
   - Appreciate Heme/Onc consult. Patient responded well to 2 units of
   platelets, other serologies pending. Not DIC per Heme/Onc on peripheral
   [**Last Name (un) 11453**] review
   # Type 2 diabetes mellitus: Continue Lantus and SSI
   - Appreciate [**Last Name (un) 72**] following
   # RLS: Continue ropinerole
   # Anxiety: Continue SSRI
   # DVT with pulmonary embolization - s/p IVC filter placement
   # BPH: Continue tamsulosin
   # GERD: Home PPI
   # HTN: Captopril for now
   # Spinal stenosis: Pain control with Tylenol
   ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-10**] 04:30 PM 63.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-12 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - D/c'd his Captopril given spell of relative hypotension o/n, ?of SIRS
   - Hct went from 21 -> 25.6 after transfusion
   - [**Last Name (un) 72**] recs: Increase TPN insulin dose to 80 units
   - ID recs: c/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]/linezolid, but can d/c linezolid if stable (we
   d/c'd it); add fluconazole if becomes septic; culture sputum,
   pan-culture if spikes
   - Added flagyl. Today, ID recommends discontinuing Flagyl as Meropenem
   provides sufficient coverage.
   - Decreased hydrocortisone to 350 mg TID
   - Heme recs: If becomes neutropenic, consider neupogen;
   thrombocytopenia may be [**2-2**] linezolid (but linezolid new)
   - Started Ferrous sulfate
   - CMV, b-glucan, galactomannan all negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-11**] 12:10 AM
   Linezolid - [**2112-2-11**] 02:32 PM
   Metronidazole - [**2112-2-12**] 02:36 AM
   Meropenem - [**2112-2-12**] 04:30 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-11**] 09:02 AM
   Hydralazine - [**2112-2-11**] 06:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-12**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 79 (68 - 92) bpm
   BP: 135/62(87) {107/52(71) - 154/76(279)} mmHg
   RR: 19 (13 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  8,355 mL
                                                                  1,401 mL
   PO:
             TF:
   IVF:
                                                                  5,939 mL
                                                                    910 mL
   Blood products:
                                                                    595 mL
   Total out:
                                                                  1,640 mL
                                                                    580 mL
   Urine:
                                                                  1,600 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                  6,715 mL
                                                                    821 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 795 (721 - 862) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 22 cmH2O
   SpO2: 93%
   ABG: 7.50/45/70/30/9
   Ve: 14.4 L/min
   PaO2 / FiO2: 117
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   53 K/uL
   8.2 g/dL
   121 mg/dL
   0.3 mg/dL
   30 mEq/L
   4.1 mEq/L
   20 mg/dL
   105 mEq/L
   140 mEq/L
   23.8 %
   3.0 K/uL
        [image002.jpg] ANC ~2700
   [**2-11**] Sputum gram stain negative, cultures NGTD
   Blood culture X6 NGTD
   Urine Cx NGTD
   HCV viral load negative
                             [**2112-2-10**]  03:13 AM
                             [**2112-2-10**]  03:17 AM
                             [**2112-2-10**]  12:42 PM
                             [**2112-2-10**]  02:38 PM
                             [**2112-2-10**]  10:32 PM
                             [**2112-2-11**]  05:22 AM
                             [**2112-2-11**]  05:38 AM
                             [**2112-2-11**]  12:05 PM
                             [**2112-2-11**]  10:02 PM
                             [**2112-2-12**]  02:52 AM
   WBC
   2.4
   2.9
   1.1
   2.8
   2.9
   3.0
   Hct
   22.0
   23.0
   23.1
   21.0
   25.6
   23.8
   Plt
   49
   43
   37
   61
   60
   53
   Cr
   0.5
   0.5
   0.3
   TCO2
   35
   31
   37
   36
   Glucose
   227
   184
   121
   Other labs: PT / PTT / INR:11.6/24.9/1.0, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/15, Differential-Neuts:92.0 %, Band:6.0
   %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:531 mg/dL, Lactic
   Acid:0.9 mmol/L, LDH:406 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   58 yo M with pauci-immune pulmonary vasculitis with recurrent pulmonary
   hemorrhage on high dose immunosuppression, intubated for increasing O2
   requirement, with IR-placed drain for management of sigmoid abscess.
   # Neutropenia & SIRS: Patient WBC was initially dropping but has
   improved in the last 24 hours and afebrile. Patient did have episodes
   of relative hypotension yesterday (SBP 100s) which is still consistent
   with borderline SIRS given patient immunosuppression and ongoing
   infection. Thus, captopril was discontinued. Abscess shrinking per CT
   thanks to drain
 encouraging. Patient still immunosuppressed by
   steroids,  getting plasmapheresis.
   - Continue Meropenem, will discontinue Flagyl now
   - Continue steroids but pull back hydrocortisone dose further to 300mg
   TID
   - Will touch base with patient
s primary pulmonologist, Dr. [**Last Name (STitle) **]
   regarding plan and ?restarting immunemodulator
   - Follow-up bronch/BAL cultures, blood and urine cultures
 VASCULITIS:  ANCA - negative pulmonary vasculitis treated with
   high-dose immunosuppression, now in a balancing act where
   immunosuppression reduction favors healing of abscess but also favors
   possibility of new pulmonary hemorrhaging. Using plasmapheresis as
2^nd immunosuppressive [**Doctor Last Name **]
 instead of his outpt Cellcept / Rituxan.
   s/p 5-day course of IVIG. RNs continue to suction blood clots with
   secretions
 unclear if active bleeding or old blood collections
   -          Plasmapheresis today and Tuesday
   -          Reducing steroids as per above
   -          Continue to monitor, sx
   -          Re-check PM hematocrit
   #.  Sigmoid Abscess:  Cultures growing pseudomonas and bacteroides,
   abscess is smaller per latest CT.
   - Continue to monitor drain which is working to reduce abscess
   - NPO and TPN for now
   - Follow-up Surgery Recs - ?need to readjust drain placement per their
   last note
   # Respiratory Status: Continues to have bloody/clotted secretions and
   hypoxemia. Unable to wean FiO2 below 60%, PS [**10-9**].
   - Continue Bactrim ppx
   - Will monitor secretions closely for blood loss and transfuse as
   needed
   # Thrombocytopenia: Platelets improving and bumping appropriately to
   transfusions
   -          F/u Heme/Onc recs
   -          CBC recheck this evening
    # Volume overload: Patient significantly volume up in the last 24-48
   hours (6L) likely in the setting of antibiotics, TPN and fluid boluses
   - Lasix 20mg IV X2
   - Re-check PM electrolytes
   # Type 2 diabetes mellitus: [**First Name8 (NamePattern2) **] [**Last Name (un) 72**] recs increased Lantus and SSI.
   Will likely need again today.
   # RLS: Continue ropinerole
   # Anxiety: Continue SSRI
   # DVT with pulmonary embolization - s/p IVC filter placement
   # BPH: Continue tamsulosin
   # GERD: Home PPI
   # HTN:
   - Hold Captopril for event of hypotension (relative) o/n
   # Spinal stenosis: Pain control with Tylenol
    ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-10**] 04:30 PM 63.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:  [**Last Name (un) 72**] following, on Lantus and SSI
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   Prophylaxis:
   DVT: IVC filter, avoiding anticoagulation
   Stress ulcer: Home PPI
   VAP:  Elevate HOB, on abx
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
 PANCYTOPENIA
 VASCULITIS
   ANCA - negative pulmonary vasculitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEMOPTYSIS
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 DIVERTICULITIS
   Abscess with percutaneous drain
   ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-11**] 04:28 PM 63.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-13 13:41:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sigmoid abscess, ANCA neg vasculitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -no events overnight
   -desaturation overnight - settled with change to APRV
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-11**] 12:10 AM
   Linezolid - [**2112-2-11**] 02:32 PM
   Metronidazole - [**2112-2-12**] 10:00 AM
   Meropenem - [**2112-2-13**] 11:53 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2112-2-12**] 08:57 PM
   Hydralazine - [**2112-2-13**] 11:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-13**] 01:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 82 (75 - 95) bpm
   BP: 115/51(71) {115/51(71) - 163/80(109)} mmHg
   RR: 18 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,362 mL
                                                                  1,787 mL
   PO:
             TF:
   IVF:
                                                                  2,061 mL
                                                                    693 mL
   Blood products:
   Total out:
                                                                  3,270 mL
                                                                    960 mL
   Urine:
                                                                  3,270 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,092 mL
                                                                    827 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 863 (863 - 863) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.50/45/95.[**Numeric Identifier 252**]/31/9
   Ve: 10.2 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   47 K/uL
   160 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.1 mEq/L
   23 mg/dL
   107 mEq/L
   145 mEq/L
   23.2 %
   3.6 K/uL
        [image002.jpg]
                             [**2112-2-11**]  05:38 AM
                             [**2112-2-11**]  12:05 PM
                             [**2112-2-11**]  10:02 PM
                             [**2112-2-12**]  02:52 AM
                             [**2112-2-12**]  02:57 PM
                             [**2112-2-12**]  03:12 PM
                             [**2112-2-12**]  09:26 PM
                             [**2112-2-13**]  03:00 AM
                             [**2112-2-13**]  03:06 AM
                             [**2112-2-13**]  06:00 AM
   WBC
   2.9
   3.0
   3.3
   3.6
   Hct
   25.6
   23.8
   23.6
   23.2
   Plt
   60
   53
   48
   47
   Cr
   0.3
   0.4
   0.4
   TCO2
   37
   36
   38
   38
   38
   36
   Glucose
   121
   217
   160
   Other labs: PT / PTT / INR:12.9/24.3/1.1, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/15, Differential-Neuts:96.5 %, Band:6.0
   %, Lymph:1.7 %, Mono:1.4 %, Eos:0.2 %, Fibrinogen:531 mg/dL, Lactic
   Acid:1.6 mmol/L, LDH:406 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   # VASCULITIS:
   -ANCA - negative pulmonary vasculitis
   -very high dose of immunosuppression at baseline
   -currently difficult balancing act immunosupp for vasculitis vs. need
   for reducing steroids for mgmt of sigmoid abscess
   -Last pheresis scheduled for tues.  s/p IVIG
   -minimal old bloody material from suctioning
   -Dr. [**Last Name (STitle) 104**] following pt and helping guide IS recs
   # SIRS:
   - BP improved
   - cont abx
   # Sigmoid Abscess:
   - Cx: PSA & bacteroides,
   - last CT showed abscess is smaller
   - d/w IR re: adjusting drain
   # Respiratory Status:
   - less bloody secretions - appears to be remains of prev bleeding
   - Tends to have episodes of hypoxemia requiring vent adjustment
   - episode last night --> settled out on APRV which is doing well on at
   present
   # Thrombocytopenia:
   # Volume overload:
   # Type 2 diabetes mellitus:
   -adjusting regimen [**First Name8 (NamePattern2) **] [**Last Name (un) 72**] recs
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-13**] 01:53 AM 63.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2112-02-13 15:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Date range (1) 11523**] overnight:
   - Got plasmapheresis [**2-12**], 5^th and last session will be Tuesday
   - Suctioning blood clots continues (but less, old, no frank blood)
   - Did much better w/Airway Pressure Release Ventilation (APRV)
   - +1L so got Lasix 20 mg IV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2112-2-11**] 12:10 AM
   Linezolid - [**2112-2-11**] 02:32 PM
   Metronidazole - [**2112-2-12**] 10:00 AM
   Meropenem - [**2112-2-13**] 11:53 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2112-2-13**] 11:53 AM
   Furosemide (Lasix) - [**2112-2-13**] 01:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-13**] 03:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 83 (75 - 95) bpm
   BP: 112/51(70) {112/51(70) - 163/80(109)} mmHg
   RR: 23 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,362 mL
                                                                  2,096 mL
   PO:
             TF:
   IVF:
                                                                  2,061 mL
                                                                    813 mL
   Blood products:
   Total out:
                                                                  3,270 mL
                                                                  1,600 mL
   Urine:
                                                                  3,270 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,092 mL
                                                                    496 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Set): 550 (550 - 550) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.49/45/104/31/9
   Ve: 10.2 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   47 K/uL
   7.8 g/dL
   160 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.1 mEq/L
   23 mg/dL
   107 mEq/L
   145 mEq/L
   23.2 %
   3.6 K/uL
        [image002.jpg]
                             [**2112-2-11**]  12:05 PM
                             [**2112-2-11**]  10:02 PM
                             [**2112-2-12**]  02:52 AM
                             [**2112-2-12**]  02:57 PM
                             [**2112-2-12**]  03:12 PM
                             [**2112-2-12**]  09:26 PM
                             [**2112-2-13**]  03:00 AM
                             [**2112-2-13**]  03:06 AM
                             [**2112-2-13**]  06:00 AM
                             [**2112-2-13**]  03:04 PM
   WBC
   2.9
   3.0
   3.3
   3.6
   Hct
   25.6
   23.8
   23.6
   23.2
   Plt
   60
   53
   48
   47
   Cr
   0.3
   0.4
   0.4
   TCO2
   36
   38
   38
   38
   36
   35
   Glucose
   121
   217
   160
   Other labs: PT / PTT / INR:12.9/24.3/1.1, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/15, Differential-Neuts:96.5 %, Band:6.0
   %, Lymph:1.7 %, Mono:1.4 %, Eos:0.2 %, Fibrinogen:531 mg/dL, Lactic
   Acid:0.9 mmol/L, LDH:406 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 PANCYTOPENIA
 VASCULITIS
   ANCA - negative pulmonary vasculitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEMOPTYSIS
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 DIVERTICULITIS
   Abscess with percutaneous drain
   Assessment and Plan
   58 yo M with pauci-immune pulmonary vasculitis with recurrent pulmonary
   hemorrhage on high dose immunosuppression, intubated for increasing O2
   requirement, with IR-placed drain for management of sigmoid abscess.
   # Neutropenia & SIRS: Patient WBC was initially dropping but has
   improved in the last 24 hours and afebrile. Patient did have episodes
   of relative hypotension yesterday (SBP 100s) which is still consistent
   with borderline SIRS given patient immunosuppression and ongoing
   infection. Thus, captopril was discontinued. Abscess shrinking per CT
   thanks to drain
 encouraging. Patient still immunosuppressed by
   steroids,  getting plasmapheresis.
   - Continue Meropenem, will discontinue Flagyl now
   - Continue steroids but pull back hydrocortisone dose further to 300mg
   TID
   - Will touch base with patient
s primary pulmonologist, Dr. [**Last Name (STitle) **]
   regarding plan and ?restarting immunemodulator
   - Follow-up bronch/BAL cultures, blood and urine cultures
 VASCULITIS:  ANCA - negative pulmonary vasculitis treated with
   high-dose immunosuppression, now in a balancing act where
   immunosuppression reduction favors healing of abscess but also favors
   possibility of new pulmonary hemorrhaging. Using plasmapheresis as
   immunosuppressive [**Doctor Last Name **]
 instead of his outpt Cellcept / Rituxan. s/p
   5-day course of IVIG. RNs continue to suction blood clots with
   secretions
 unclear if active bleeding or old blood collections
   -          Plasmapheresis today and Tuesday
   -          Reducing steroids as per above
   -          Continue to monitor, sx
   -          Re-check PM hematocrit
   #.  Sigmoid Abscess:  Cultures growing pseudomonas and bacteroides,
   abscess is smaller per latest CT.
   - Continue to monitor drain which is working to reduce abscess
   - NPO and TPN for now
   - Follow-up Surgery Recs - ?need to readjust drain placement per their
   last note
   # Respiratory Status: Continues to have bloody/clotted secretions and
   hypoxemia. Unable to wean FiO2 below 60%, PS [**10-9**].
   - Continue Bactrim ppx
   - Will monitor secretions closely for blood loss and transfuse as
   needed
   # Thrombocytopenia: Platelets improving and bumping appropriately to
   transfusions
   -          F/u Heme/Onc recs
   -          CBC recheck this evening
    # Volume overload: Patient significantly volume up in the last 24-48
   hours (6L) likely in the setting of antibiotics, TPN and fluid boluses
   - Lasix 20mg IV X2
   - Re-check PM electrolytes
   # Type 2 diabetes mellitus: [**First Name8 (NamePattern2) **] [**Last Name (un) 72**] recs increased Lantus and SSI.
   Will likely need again today.
   # RLS: Continue ropinerole
   # Anxiety: Continue SSRI
   # DVT with pulmonary embolization - s/p IVC filter placement
   # BPH: Continue tamsulosin
   # GERD: Home PPI
   # HTN:
   - Hold Captopril for event of hypotension (relative) o/n
   # Spinal stenosis: Pain control with Tylenol
    ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-10**] 04:30 PM 63.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:  [**Last Name (un) 72**] following, on Lantus and SSI
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   Prophylaxis:
   DVT: IVC filter, avoiding anticoagulation
   Stress ulcer: Home PPI
   VAP:  Elevate HOB, on abx
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-13**] 01:53 AM 63.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-14 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-13**]:
   - Did much better w/Airway Pressure Release Ventilation (APRV)
   - +1L so got Lasix 20 mg IV
   - d/w IR wound drain
   - PM lytes, ABG: all nml
   - large patch of redness noted across most of his right hip/buttock,
   around site of drain. No crepitus. Not particularly warm. Could be c/w
   just dependent side. He was turned up on opposite side, rash borders
   marked with pen, no change over 2-3 hours.
   - Had FiO2 weaned from 60->50%. Midnight abg slightly worse for oxygen:
   7.48/46/81
   - Lasix 20 mg again at 0300
   [**2-14**]:
   - Getting pheresis now
   - Ordered for CT ab/pelvis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2112-2-11**] 02:32 PM
   Metronidazole - [**2112-2-12**] 10:00 AM
   Meropenem - [**2112-2-14**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2112-2-13**] 06:00 PM
   Furosemide (Lasix) - [**2112-2-14**] 04:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-14**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 88 (75 - 88) bpm
   BP: 124/60(81) {112/51(70) - 138/70(308)} mmHg
   RR: 11 (11 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,211 mL
                                                                    985 mL
   PO:
             TF:
   IVF:
                                                                  1,299 mL
                                                                    414 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                  1,060 mL
   Urine:
                                                                  2,850 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    361 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   RR (Spontaneous): 4
   PEEP: 14 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.48/46/81.[**Numeric Identifier 252**]/31/9
   Ve: 11 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   44 K/uL
   8.0 g/dL
   150 mg/dL
   0.3 mg/dL
   31 mEq/L
   4.0 mEq/L
   29 mg/dL
   108 mEq/L
   145 mEq/L
   24.3 %
   4.5 K/uL
        [image002.jpg]
                             [**2112-2-12**]  02:57 PM
                             [**2112-2-12**]  03:12 PM
                             [**2112-2-12**]  09:26 PM
                             [**2112-2-13**]  03:00 AM
                             [**2112-2-13**]  03:06 AM
                             [**2112-2-13**]  06:00 AM
                             [**2112-2-13**]  03:04 PM
                             [**2112-2-13**]  05:00 PM
                             [**2112-2-14**]  12:32 AM
                             [**2112-2-14**]  03:02 AM
   WBC
   3.3
   3.6
   4.5
   Hct
   23.6
   23.2
   24.3
   Plt
   48
   47
   44
   Cr
   0.4
   0.4
   0.4
   0.3
   TCO2
   38
   38
   38
   36
   35
   35
   Glucose
   [**Telephone/Fax (3) 11533**]50
   Other labs: PT / PTT / INR:10.9/21.7/0.9, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/15, Differential-Neuts:96.5 %, Band:6.0
   %, Lymph:1.7 %, Mono:1.4 %, Eos:0.2 %, Fibrinogen:531 mg/dL, Lactic
   Acid:0.9 mmol/L, LDH:406 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 PANCYTOPENIA
 VASCULITIS
   ANCA - negative pulmonary vasculitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEMOPTYSIS
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 DIVERTICULITIS
   Abscess with percutaneous drain
   Assessment and Plan
   58 yo M with pauci-immune pulmonary vasculitis on high dose
   immunosuppression, intubated for increasing O2 requirement, with
   IR-placed drain for management of sigmoid abscess.
   # Respiratory Status & Vasculitis: Yesterday had on PEEP 15, then 18,
   then put on a rate without very satisfactory gasses, but he eventually
   settled well on APRV vent settings w/ FiO2 60%. 7.5/45/95 this AM. Less
   blood in secretions now.
   - Continue APRV
   - Continue Bactrim prophylaxis
   - Continue Hydrocortisone 300 mg Q8, do not wean for now
   - PM Hct
    # Sigmoid abscess: Patient had spell of relative hypotension [**2-11**] (SBP
   100s) c/w SIRS, was started on Meropenem. Abscess was smaller by CT
   [**2-10**]. Cultures growing pseudomonas and bacteroides. Drain seems to be
   working but ?may need adjusted.
   - Meropenem Day 3
   - Continue steroids
   - Follow-up cultures
   - Continue plasmapheresis Tuesday
   - Follow-up Surgery Recs - ?need to readjust drain placement per their
   last note
   # Thrombocytopenia: Platelets 47, stably low.
   - Continue to monitor, consider transfusion prior to procedures
   - F/u heme onc recs
    # Volume overload: Patient still +1L in the setting of antibiotics,
   TPN and fluid boluses
   - Lasix 20mg IV
   - Re-check PM electrolytes
   # Type 2 diabetes mellitus: [**First Name8 (NamePattern2) **] [**Last Name (un) 72**] recs increased Lantus to 32 [**Hospital1 **]
   today.
   # RLS: Continue ropinerole
   # Anxiety: Continue SSRI
   # DVT with pulmonary embolization - s/p IVC filter placement
   # BPH: Continue tamsulosin
   # GERD: Home PPI
   # HTN:
   - Hold Captopril for event of hypotension
   # Spinal stenosis: Pain control with Tylenol
    ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-10**] 04:30 PM 63.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:  [**Last Name (un) 72**] following, on Lantus and SSI
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   Prophylaxis:
   DVT: IVC filter, avoiding anticoagulation
   Stress ulcer: Home PPI
   VAP:  Elevate HOB, on abx
   Communication:  Spoke with family again today, did tell them that while
   things are stable at moment his condition remains precarious.
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-13**] 06:00 PM 66.[**Telephone/Fax (5) 525**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-14 09:37:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sigmoid abscess, ANCA neg vasculitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -pheresis today
   -FiO2 weaned
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2112-2-11**] 02:32 PM
   Metronidazole - [**2112-2-12**] 10:00 AM
   Meropenem - [**2112-2-14**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2112-2-13**] 06:00 PM
   Furosemide (Lasix) - [**2112-2-14**] 04:32 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-14**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 82 (75 - 88) bpm
   BP: 99/47(64) {99/47(64) - 138/67(308)} mmHg
   RR: 21 (11 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,211 mL
                                                                  1,234 mL
   PO:
             TF:
   IVF:
                                                                  1,299 mL
                                                                    486 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                  1,490 mL
   Urine:
                                                                  2,850 mL
                                                                  1,490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    361 mL
                                                                   -256 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   RR (Spontaneous): 12
   PEEP: 14 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.48/46/81.[**Numeric Identifier 252**]/31/9
   Ve: 7.9 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior exam)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Cool
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   44 K/uL
   150 mg/dL
   0.3 mg/dL
   31 mEq/L
   4.0 mEq/L
   29 mg/dL
   108 mEq/L
   145 mEq/L
   24.3 %
   4.5 K/uL
        [image002.jpg]
                             [**2112-2-12**]  02:57 PM
                             [**2112-2-12**]  03:12 PM
                             [**2112-2-12**]  09:26 PM
                             [**2112-2-13**]  03:00 AM
                             [**2112-2-13**]  03:06 AM
                             [**2112-2-13**]  06:00 AM
                             [**2112-2-13**]  03:04 PM
                             [**2112-2-13**]  05:00 PM
                             [**2112-2-14**]  12:32 AM
                             [**2112-2-14**]  03:02 AM
   WBC
   3.3
   3.6
   4.5
   Hct
   23.6
   23.2
   24.3
   Plt
   48
   47
   44
   Cr
   0.4
   0.4
   0.4
   0.3
   TCO2
   38
   38
   38
   36
   35
   35
   Glucose
   [**Telephone/Fax (3) 11533**]50
   Other labs: PT / PTT / INR:10.9/21.7/0.9, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/15, Differential-Neuts:96.5 %, Band:6.0
   %, Lymph:1.7 %, Mono:1.4 %, Eos:0.2 %, Fibrinogen:531 mg/dL, Lactic
   Acid:0.9 mmol/L, LDH:406 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   # VASCULITIS:
   -ANCA - negative pulmonary vasculitis
   -very high dose of immunosuppression at baseline
   -currently difficult balancing act immunosupp for vasculitis vs. need
   for reducing steroids for mgmt of sigmoid abscess
   -Pheresis today - last one scheduled for tues
   -s/p IVIG
   -minimal old bloody material from suctioning
   -Dr. [**Last Name (STitle) 104**] following pt and helping guide IS recs
   # SIRS:
   - BP improved
   - cont abx
   # Sigmoid Abscess:
   - Cx: PSA & bacteroides,
   - last CT showed abscess is smaller
   - d/w IR re: adjusting drain - for repeat CT today to assess - leakage
   of material around drain when drain flushed. ? replace w/ larger drain?
   -IR/Surgery following
   # Respiratory Status:
   - less bloody secretions - appears to be remains of prev bleeding
   - Doing well on APRV - able to make progress weaning FiO2
   # Thrombocytopenia:
   # Volume overload:
   -diurese as able
   # Type 2 diabetes mellitus:
   -adjusting regimen [**First Name8 (NamePattern2) **] [**Last Name (un) 72**] recs
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-13**] 06:00 PM 66.[**Telephone/Fax (5) 525**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2112-02-15 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2112-2-14**] 09:00 AM
   2 sets
   [**2-14**]:
   - ordered CT A/P to reassess intraabd abscess and eval for possible
   abscess/fuild collection around drainage site, given that site is
   leaking alot. Report on CT pending
   - IR aware, they reviewed CT scan, abscess is still shrinking in size
   and looking much better, so they are hesitant to change drain today,
   they rec gently flushes and frequent dressing changes; may change drain
   on Tues or Monday if drainage worsens
   - [**Last Name (un) 72**] recs: Increase sliding scale by 2 at every level, increase TPN
   insulin to 100 units
   - ID recs: c/w IV meropenem, f/u CT scan
   - PM labs with Hct 20.8 (from 24.3) -> transfused 1 unit RBC -> Hct
   24.6
   - additional lasix 40 mg IV x 1 in the afternoon, but 24 hour fluid
   balance ended up +400 cc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2112-2-12**] 10:00 AM
   Meropenem - [**2112-2-15**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2112-2-14**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-15**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.9
C (96.6
   HR: 73 (71 - 92) bpm
   BP: 120/51(74) {99/47(64) - 146/67(93)} mmHg
   RR: 17 (8 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,650 mL
                                                                    937 mL
   PO:
             TF:
   IVF:
                                                                  1,373 mL
                                                                    414 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  4,245 mL
                                                                    570 mL
   Urine:
                                                                  4,245 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    405 mL
                                                                    367 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   RR (Spontaneous): 23
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.44/57/145/35/12
   Ve: 7.7 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   38 K/uL
   7.9 g/dL
   100 mg/dL
   0.3 mg/dL
   35 mEq/L
   3.9 mEq/L
   29 mg/dL
   107 mEq/L
   147 mEq/L
   23.6 %
   3.5 K/uL
        [image002.jpg]
                             [**2112-2-13**]  06:00 AM
                             [**2112-2-13**]  03:04 PM
                             [**2112-2-13**]  05:00 PM
                             [**2112-2-14**]  12:32 AM
                             [**2112-2-14**]  03:02 AM
                             [**2112-2-14**]  03:04 PM
                             [**2112-2-14**]  03:23 PM
                             [**2112-2-14**]  09:15 PM
                             [**2112-2-15**]  02:30 AM
                             [**2112-2-15**]  02:38 AM
   WBC
   4.5
   3.4
   4.1
   3.5
   Hct
   24.3
   20.8
   24.6
   23.6
   Plt
   44
   35
   41
   38
   Cr
   0.4
   0.3
   0.4
   0.4
   0.3
   TCO2
   36
   35
   35
   40
   40
   Glucose
   110
   150
   158
   118
   100
   Other labs: PT / PTT / INR:11.3/23.5/0.9, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/15, Differential-Neuts:95.1 %, Band:6.0
   %, Lymph:1.8 %, Mono:2.4 %, Eos:0.3 %, Fibrinogen:531 mg/dL, Lactic
   Acid:0.9 mmol/L, LDH:406 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 PANCYTOPENIA
 VASCULITIS
   ANCA - negative pulmonary vasculitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEMOPTYSIS
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 DIVERTICULITIS
   Abscess with percutaneous drain
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, intubated for
   increasing O2 requirement, with IR-placed drain for management of
   sigmoid abscess.
   # Respiratory Status & Vasculitis: Doing well o/n on APRV vent
   settings. FiO2 weaned to 50%, still oxygenating well. [**Name8 (MD) **] RN has vastly
   reduced blood in secretions. Diuresing well with better-looking CXR,
   stable creatinine.
   - Continue APRV
   - Continue Bactrim prophylaxis
   - Continue Hydrocortisone 300 mg Q8, do not wean for now
   - PM Hct
   - Lasix 20 mg IV again today to target 500-1,000 cc negative
   - PM lytes
    # Sigmoid abscess: On Meropenem day 4. Abscess was smaller by CT [**2-10**].
   Cultures growing pseudomonas and bacteroides. Drain leaking around
   tube. Getting plasmapheresis.
   - CT abd/pelvis
   - Continue meropenem, steroids
   - Surveillance cultures
   - Next plasmapheresis Tuesday
   - Follow-up Surgery Recs
   # Rash: Could be due to lying on his side, but will need monitored.
   - RN aware to monitor
   # Thrombocytopenia: Platelets 44, stably low. If he goes to OR or IR
   for drain manipulation, consider transfusion.
   - transfusion prior to procedures
   # Type 2 diabetes mellitus: [**First Name8 (NamePattern2) **] [**Last Name (un) 72**] recs increased Lantus to 32 [**Hospital1 **].
   # RLS: Continue ropinerole
   # Anxiety: Continue SSRI
   # DVT with pulmonary embolization - s/p IVC filter placement
   # BPH: Continue tamsulosin
   # GERD: Home PPI
   # HTN:
   - Hold Captopril
   # Spinal stenosis: Pain control with Tylenol
    ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-10**] 04:30 PM 63.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:  [**Last Name (un) 72**] following, on Lantus and SSI
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-14**] 06:00 PM 64 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-15 11:08:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sigmoid abscess, ANCA neg vasculitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2112-2-14**] 09:00 AM
   2 sets
CT abd
 no bloody secretions on suctioning
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-2-15**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2112-2-14**] 04:30 PM
   Pantoprazole (Protonix) - [**2112-2-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-15**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.3
   HR: 74 (71 - 92) bpm
   BP: 135/59(85) {111/49(69) - 146/67(93)} mmHg
   RR: 22 (8 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,650 mL
                                                                  1,342 mL
   PO:
             TF:
   IVF:
                                                                  1,373 mL
                                                                    554 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  4,245 mL
                                                                    810 mL
   Urine:
                                                                  4,245 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    405 mL
                                                                    532 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   RR (Spontaneous): 23
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.44/57/145/35/12
   Ve: 7.7 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   occ inspiratory), distant bs
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, drain -
   sigmoid abscess
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   38 K/uL
   100 mg/dL
   0.3 mg/dL
   35 mEq/L
   3.9 mEq/L
   29 mg/dL
   107 mEq/L
   147 mEq/L
   23.6 %
   3.5 K/uL
        [image002.jpg]
                             [**2112-2-13**]  06:00 AM
                             [**2112-2-13**]  03:04 PM
                             [**2112-2-13**]  05:00 PM
                             [**2112-2-14**]  12:32 AM
                             [**2112-2-14**]  03:02 AM
                             [**2112-2-14**]  03:04 PM
                             [**2112-2-14**]  03:23 PM
                             [**2112-2-14**]  09:15 PM
                             [**2112-2-15**]  02:30 AM
                             [**2112-2-15**]  02:38 AM
   WBC
   4.5
   3.4
   4.1
   3.5
   Hct
   24.3
   20.8
   24.6
   23.6
   Plt
   44
   35
   41
   38
   Cr
   0.4
   0.3
   0.4
   0.4
   0.3
   TCO2
   36
   35
   35
   40
   40
   Glucose
   110
   150
   158
   118
   100
   Other labs: PT / PTT / INR:11.3/23.5/0.9, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/15, Differential-Neuts:95.1 %, Band:6.0
   %, Lymph:1.8 %, Mono:2.4 %, Eos:0.3 %, Fibrinogen:531 mg/dL, Lactic
   Acid:0.9 mmol/L, LDH:406 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   # VASCULITIS:
   -ANCA - negative pulmonary vasculitis
   -very high dose of immunosuppression at baseline
   -currently difficult balancing act immunosupp for vasculitis vs. need
   for reducing steroids for mgmt of sigmoid abscess
   -last Pheresis scheduled for tomorrow
   -s/p IVIG
   -minimal old bloody material from suctioning.  no evidence of active
   bleeding over weekend.
   -Dr. [**Last Name (STitle) 104**] following pt and helping guide IS recs.  Hopefully can
   pull back a bit more.
   # SIRS:
   - BP improved
   - cont abx
   # Sigmoid Abscess:
   - Cx: PSA & bacteroides,
   - CT showed further improvement abscess size
   - cont flush drain - leakage around drain during flush relayed to IR -
   said to cont flushing.  No need to change drain.
   - IR/Surgery following
   # Respiratory Status:
   - less bloody secretions - appears to be remains of prev bleeding
   - Doing well on APRV - made progress weaning FiO2 over weekend.
   # Thrombocytopenia:
   # Volume overload:
   -diurese as able - goal 500cc-1L negative
   # Type 2 diabetes mellitus:
   -adjusting regimen [**First Name8 (NamePattern2) **] [**Last Name (un) 72**] recs
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-14**] 06:00 PM 64 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2112-02-16 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2112-2-15**] 04:53 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-2-16**] 04:21 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-15**] 08:00 AM
   Furosemide (Lasix) - [**2112-2-16**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-16**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.4
C (97.5
   HR: 77 (65 - 92) bpm
   BP: 134/58(82) {111/51(72) - 161/70(313)} mmHg
   RR: 17 (9 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,094 mL
                                                                  1,325 mL
   PO:
             TF:
   IVF:
                                                                  1,283 mL
                                                                    868 mL
   Blood products:
                                                                    219 mL
   Total out:
                                                                  3,030 mL
                                                                  1,840 mL
   Urine:
                                                                  3,030 mL
                                                                  1,840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     64 mL
                                                                   -515 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Spontaneous): 775 (775 - 775) mL
   RR (Spontaneous): 8
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.47/54/94.[**Numeric Identifier 299**]/36/13
   Ve: 10 L/min
   PaO2 / FiO2: 235
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   64 K/uL
   8.1 g/dL
   110 mg/dL
   0.4 mg/dL
   36 mEq/L
   3.6 mEq/L
   32 mg/dL
   105 mEq/L
   146 mEq/L
   22.8 %
   3.2 K/uL
        [image002.jpg]
                             [**2112-2-14**]  03:02 AM
                             [**2112-2-14**]  03:04 PM
                             [**2112-2-14**]  03:23 PM
                             [**2112-2-14**]  09:15 PM
                             [**2112-2-15**]  02:30 AM
                             [**2112-2-15**]  02:38 AM
                             [**2112-2-15**]  12:24 PM
                             [**2112-2-15**]  01:08 PM
                             [**2112-2-15**]  06:01 PM
                             [**2112-2-16**]  03:41 AM
   WBC
   4.5
   3.4
   4.1
   3.5
   3.2
   Hct
   24.3
   20.8
   24.6
   23.6
   22.8
   Plt
   44
   35
   41
   38
   72
   64
   Cr
   0.3
   0.4
   0.4
   0.3
   0.3
   0.4
   TCO2
   40
   40
   40
   Glucose
   150
   158
   118
   100
   55
   110
   Other labs: PT / PTT / INR:11.7/23.4/1.0, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/15, Differential-Neuts:95.1 %, Band:6.0
   %, Lymph:1.8 %, Mono:2.4 %, Eos:0.3 %, Fibrinogen:531 mg/dL, Lactic
   Acid:0.9 mmol/L, LDH:406 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 PANCYTOPENIA
 VASCULITIS
   ANCA - negative pulmonary vasculitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEMOPTYSIS
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 DIVERTICULITIS
   Abscess with percutaneous drain
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, intubated for
   increasing O2 requirement, with IR-placed drain for management of
   sigmoid abscess.
   # Respiratory Status & Vasculitis: Continuing to do well on APRV vent
   settings and current steroid regimen. Diuresing well with stable
   creatinine
   - Continue APRV, wean O2 to 40%
   - Recheck ABG after O2 wean
   - Continue Bactrim prophylaxis
   - Continue Hydrocortisone 300 mg Q8, do not wean for now
   - PM Hct
   - Lasix 20 mg IV again today to target 500-1,000 cc negative
   - PM lytes
   - last plasmapheresis scheduled for Tuesday
    # Sigmoid abscess: On Meropenem day 5. Abscess was smaller by CT [**2-10**].
   Cultures growing pseudomonas and bacteroides. Drain leaking around
   tube. IR and surgery have evaluated latest CT scan, abscess is still
   shrinking in size and looking much better. They rec gently flushes and
   frequent dressing changes; may upsize drain on Tues.
   - Continue meropenem, steroids
   - Surveillance cultures
   - Next plasmapheresis Tuesday
   - Follow-up Surgery Recs
   # Rash: resolving. Nothing on CT of concern.
   - RN aware to monitor
   # Thrombocytopenia: Platelets 37, stably low. Transfuse to above 50
   given h/o pulmonary hemorrhaging
   - transfuse
   # Type 2 diabetes mellitus: [**First Name8 (NamePattern2) **] [**Last Name (un) 72**] recs.
   # RLS: Continue ropinerole
   # Anxiety: Continue SSRI
   # DVT with pulmonary embolization - s/p IVC filter placement
   # BPH: Continue tamsulosin
   # GERD: Home PPI
   # HTN:
   - Hold Captopril
   # Spinal stenosis: Pain control with Tylenol
    ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-10**] 04:30 PM 63.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:  [**Last Name (un) 72**] following, on Lantus and SSI
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-15**] 07:00 PM 64 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-17 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-16**]:
   - drain fell out at 17:30, IR and surgery paged.
   * Per IR CT ab fellow [**Last Name (LF) 11596**], [**First Name3 (LF) **] [**Numeric Identifier 11597**] she will go to IR in AM, we
   should place a Foley or replace drain to keep tract open if possible
   * phone for family for consent: son [**Name (NI) 11352**] [**Telephone/Fax (1) 11598**] (cell),
   [**Telephone/Fax (1) 6644**] (home)
   * 1 unit of platelets ordered
   - steroids weaned to 250 mg TID
   - vent changed from APRV to AC w/PEEP of 18 -> 7.53/43/152
   * PEEP dialed down to 16 at 16:30, if next ABG good dial to 14
   * If get to PEEP 12, go to PS [**12-9**]
   * ultimate goal (if tolerated): PS at 10/10
   * unlikely for SBT in AM but has had SATs OK
   - lasix upped from 40 [**Hospital1 **] to 60 [**Hospital1 **]
   - [**Last Name (un) **] recs: may soon need to decrease lantus; of note, nursing has
   been withholding his lantus or half-dosing it, which [**Last Name (un) **] may be
   unaware.
   - IV Ig 40 grams QD for 5 days ordered
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-2-17**] 04:42 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-16**] 08:09 AM
   Furosemide (Lasix) - [**2112-2-16**] 07:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-17**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (97
   HR: 66 (64 - 90) bpm
   BP: 117/50(70) {113/47(66) - 170/74(336)} mmHg
   RR: 13 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,908 mL
                                                                    521 mL
   PO:
             TF:
   IVF:
                                                                  2,313 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  5,210 mL
                                                                    720 mL
   Urine:
                                                                  5,210 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,302 mL
                                                                   -199 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 684 (684 - 789) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 29 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/53/162/39/15
   Ve: 9 L/min
   PaO2 / FiO2: 405
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   47 K/uL
   7.4 g/dL
   97 mg/dL
   0.4 mg/dL
   39 mEq/L
   3.8 mEq/L
   33 mg/dL
   104 mEq/L
   146 mEq/L
   22.1 %
   2.7 K/uL
        [image002.jpg]
                             [**2112-2-15**]  12:24 PM
                             [**2112-2-15**]  01:08 PM
                             [**2112-2-15**]  06:01 PM
                             [**2112-2-16**]  03:41 AM
                             [**2112-2-16**]  08:23 AM
                             [**2112-2-16**]  03:45 PM
                             [**2112-2-16**]  06:42 PM
                             [**2112-2-16**]  06:51 PM
                             [**2112-2-17**]  03:03 AM
                             [**2112-2-17**]  03:21 AM
   WBC
   3.2
   3.7
   2.7
   Hct
   22.8
   24.1
   22.1
   Plt
   72
   64
   59
   47
   Cr
   0.3
   0.4
   0.3
   0.4
   TCO2
   40
   37
   37
   42
   41
   Glucose
   55
   110
   122
   166
   148
   143
   97
   Other labs: PT / PTT / INR:12.1/24.8/1.0, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/34, Differential-Neuts:95.1 %, Band:6.0
   %, Lymph:1.8 %, Mono:2.4 %, Eos:0.3 %, Fibrinogen:531 mg/dL, Lactic
   Acid:0.8 mmol/L, LDH:406 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 PANCYTOPENIA
 VASCULITIS
   ANCA - negative pulmonary vasculitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEMOPTYSIS
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 DIVERTICULITIS
   Abscess with percutaneous drain
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, intubated for
   increasing O2 requirement, with IR-placed drain for management of
   sigmoid abscess.
    # Respiratory Status & Vasculitis: Continuing to oxygenate  well. Not
   a lot of blood or secretions. Is he settling out due to good steroid
   and other immunosuppression regime (ie plasmapheresis) or because of
   his somewhat exotic APRV vent settings? Diuresing well with stable
   creatinine.
   - Wean off APRV to AC
   - Recheck ABG after wean
   - Continue Bactrim prophylaxis
   - Continue Hydrocortisone 300 mg Q8, do not wean for now
   - PM Hct
   - Lasix 20 mg IV again today to target 500-1,000 cc negative
   - PM lytes
    # Sigmoid abscess: On Meropenem day 6. Abscess was smaller by CT [**2-10**].
   Cultures growing pseudomonas and bacteroides. Drain leaking around
   tube. IR and surgery have evaluated latest CT scan, abscess is still
   shrinking in size and looking much better. They rec gently flushes and
   frequent dressing changes; may upsize drain on Tues.
   - Continue meropenem, steroids
   - Follow-up Surgery Recs
   # Rash: resolving. Nothing on CT of concern.
   - RN aware to monitor
   # Thrombocytopenia: Platelets 64.
   - transfuse for 50
   # Type 2 diabetes mellitus: [**First Name8 (NamePattern2) **] [**Last Name (un) 72**] recs.
    # RLS: Continue ropinerole
    # Anxiety: Continue SSRI
   # DVT with pulmonary embolization - s/p IVC filter placement
   # BPH: Continue tamsulosin
   # GERD: Home PPI
   # HTN:
   - Hold Captopril
   # Spinal stenosis: Pain control with Tylenol
    ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-10**] 04:30 PM 63.[**Telephone/Fax (5) 1228**] mL/hour
   Glycemic Control:  [**Last Name (un) 72**] following, on Lantus and SSI
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   Full code
   Communication with family
   ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-16**] 06:00 PM 63 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   PICC Line - [**2112-2-8**] 12:00 PM
   Arterial Line - [**2112-2-8**] 03:00 PM
   Pheresis Catheter - [**2112-2-9**] 07:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-18 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DRAIN REMOVED - At [**2112-2-17**] 09:00 AM
 PHERESIS CATHETER - STOP [**2112-2-17**] 11:18 PM
 PICC LINE - STOP [**2112-2-18**] 12:11 AM
   - gave acetazolamide for metabolic alkalosis
   - continued lasix
   - I/O: +480 cc at midnight
   - PM lytes stable, except hypokalemia (repleted)
   - CT-guided drain replacement; abscess slightly smaller. IR recs:
   increased drainage around catheter -> frequent dressing change. Flush
   drain w/10 cc NS qshift
   - ID recs: check viral culture on right groin skin breakdown/vesicle
   behind right ear
   - [**Last Name (un) 72**] recs: c/w current insulin regimen
   - Steroids changed to solumedrol 60 mg Q8 per Dr. [**Last Name (STitle) 104**]
   - Ordered for fentanyl and propofol; had been off propofol all evening,
   so d/c'd it
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-2-17**] 10:37 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2112-2-17**] 10:00 AM
   Hydralazine - [**2112-2-17**] 10:16 AM
   Propofol - [**2112-2-17**] 04:00 PM
   Furosemide (Lasix) - [**2112-2-17**] 10:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-18**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.6
   HR: 74 (65 - 79) bpm
   BP: 148/61(89) {109/46(66) - 153/63(92)} mmHg
   RR: 17 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,634 mL
                                                                    971 mL
   PO:
             TF:
   IVF:
                                                                  1,471 mL
                                                                    471 mL
   Blood products:
                                                                    650 mL
   Total out:
                                                                  3,015 mL
                                                                  1,720 mL
   Urine:
                                                                  3,015 mL
                                                                  1,720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    619 mL
                                                                   -749 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 766 (155 - 929) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   Plateau: 27 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.50/45/95.[**Numeric Identifier 252**]/35/10
   Ve: 10.7 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Intubated, sedated
   CTA
   S1 S2
   Mild edema
   Labs / Radiology
   64 K/uL
   7.8 g/dL
   77 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.1 mEq/L
   36 mg/dL
   106 mEq/L
   144 mEq/L
   23.0 %
   3.2 K/uL
        [image002.jpg]
                             [**2112-2-17**]  03:03 AM
                             [**2112-2-17**]  03:21 AM
                             [**2112-2-17**]  12:20 PM
                             [**2112-2-17**]  02:47 PM
                             [**2112-2-17**]  04:13 PM
                             [**2112-2-17**]  04:14 PM
                             [**2112-2-17**]  08:08 PM
                             [**2112-2-18**]  02:59 AM
                             [**2112-2-18**]  03:20 AM
                             [**2112-2-18**]  06:33 AM
   WBC
   2.7
   3.2
   Hct
   22.1
   23.0
   Plt
   47
   59
   64
   Cr
   0.4
   0.3
   0.4
   TCO2
   41
   38
   40
   38
   38
   36
   Glucose
   97
   99
   77
   Other labs: PT / PTT / INR:12.1/24.8/1.0, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/34, Differential-Neuts:94.1 %, Band:6.0
   %, Lymph:2.5 %, Mono:2.6 %, Eos:0.4 %, Fibrinogen:531 mg/dL, Lactic
   Acid:0.8 mmol/L, LDH:406 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   # Respiratory status:
   - Try to wean to [**8-4**] Pressure Support
   - Follow [**Last Name (LF) **], [**First Name3 (LF) **] need a Lasix drip
 continue Lasix 80mg IV BID for
   now with Acetazolamide
   - PM lytes
   - Call pharmacy to make sure his fluids are concentrated
   - Continue Solumedrol 60mg q8h and will touch base with primary
   pulmonologist
   # Sigmoid Abscess: On CT looks better, drain is working. Surgery
   suggests Dobhoff placement and beginning feeds.
   - Place Dobhoff, and begin TF (low at 5cc/hr)
   # Thrombocytopenia: Stable, transfused for 50K
   # DM: Follow [**Last Name (un) 72**] recs
   # Restless leg: Ropinerole
   # BPH: Flomax
   # Anxiety: Continue SSRI
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Blood pressures stable
 monitor off medications for
   now
   ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-17**] 05:48 PM 63 mL/hour, may attempt tube
   feeds
   Glycemic Control:  [**Last Name (un) 72**] recs
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM (RIJ)
   Arterial Line - [**2112-2-8**] 03:00 PM
   PICC and pheresis catheter pulled
   Prophylaxis:
   DVT: Pneumoboots, IVC filter
   Stress ulcer: Home PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-19 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-18**]:
   - IR placed post-pyloric [**Month/Year (2) 1939**] after d/w pt and son/wife (reluctant
   given h/o anxiety w/ nasal tubing)
   - Per email from [**Location (un) 560**] to primary surgeon [**Last Name (un) 11624**], okay to start TF
   - PM lytes stable
   - [**Doctor First Name **] Recs: CT showed dramatically improved abscess, consider [**Doctor First Name 1939**]
   - ID Recs: Continue [**Last Name (un) 350**], send DFA
   - [**Last Name (un) **] okay, continued lasix gtt
   - Pharmacy/Meds to consolidate med fluids
   - HSV/VZV cultures sent in M4 media
   - Accidentally got Fentanyl bolus and stopped breathing - had to be
   switched to Assist Control ~9pm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-2-19**] 04:35 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2112-2-18**] 10:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-19**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.9
C (96.6
   HR: 68 (67 - 89) bpm
   BP: 133/55(79) {103/44(20) - 160/79(103)} mmHg
   RR: 12 (9 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,953 mL
                                                                    770 mL
   PO:
             TF:
   IVF:
                                                                  1,039 mL
                                                                    339 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  4,420 mL
                                                                  1,610 mL
   Urine:
                                                                  4,420 mL
                                                                  1,610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,467 mL
                                                                   -840 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 815 (611 - 980) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 15
   PIP: 6 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.47/46/77/30/8
   Ve: 9.9 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   7.9 g/dL
   98 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.7 mEq/L
   36 mg/dL
   105 mEq/L
   141 mEq/L
   23.4 %
   3.2 K/uL
        [image002.jpg]
                             [**2112-2-17**]  08:08 PM
                             [**2112-2-18**]  02:59 AM
                             [**2112-2-18**]  03:20 AM
                             [**2112-2-18**]  06:33 AM
                             [**2112-2-18**]  09:13 AM
                             [**2112-2-18**]  05:05 PM
                             [**2112-2-18**]  05:17 PM
                             [**2112-2-18**]  08:05 PM
                             [**2112-2-19**]  01:10 AM
                             [**2112-2-19**]  01:22 AM
   WBC
   3.2
   3.2
   Hct
   23.0
   23.4
   Plt
   64
   42
   Cr
   0.4
   0.4
   0.4
   TCO2
   38
   38
   36
   32
   31
   33
   34
   Glucose
   77
   117
   98
   Other labs: PT / PTT / INR:12.1/24.8/1.0, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/34, Differential-Neuts:94.1 %, Band:6.0
   %, Lymph:2.5 %, Mono:2.6 %, Eos:0.4 %, Fibrinogen:531 mg/dL, Lactic
   Acid:0.8 mmol/L, LDH:406 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 HYPERNATREMIA (HIGH SODIUM)
 PANCYTOPENIA
 VASCULITIS
   ANCA - negative pulmonary vasculitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEMOPTYSIS
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 DIVERTICULITIS
   Abscess with percutaneous drain
   # Respiratory status:
   - Try to wean to [**8-4**] Pressure Support with goal for extubation today
   - Follow [**Last Name (LF) **], [**First Name3 (LF) **] need a Lasix drip
 continue Lasix 80mg IV BID
   - TID lytes given aggressive diuresis with lasix
   - Call pharmacy to make sure his fluids are concentrated
   - Continue Solumedrol 60mg q8h and will touch base with primary
   pulmonologist
   # Sigmoid Abscess: On CT looks better, drain is working
   - Placed [**Last Name (LF) 1939**], [**First Name3 (LF) 124**] begin TF (low at 5cc/hr) today
   # Thrombocytopenia: Stable, transfused for 50K
   # DM: Follow [**Last Name (un) 72**] recs
   # Restless leg: Ropinerole
   # BPH: Flomax
   # Anxiety: Continue SSRI
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Blood pressures stable
 monitor off medications for
   now
   ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-17**] 05:48 PM 63 mL/hour, will attempt tube
   feeds today via [**Year (4 digits) 1939**]
   Glycemic Control:  [**Last Name (un) 72**] recs
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM (RIJ)
   Arterial Line - [**2112-2-8**] 03:00 PM
   PICC and pheresis catheter pulled
   Prophylaxis:
   DVT: Pneumoboots, IVC filter
   Stress ulcer: Home PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   TPN without Lipids - [**2112-2-18**] 05:34 PM 63 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   Arterial Line - [**2112-2-8**] 03:00 PM
   20 Gauge - [**2112-2-19**] 01:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-20 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2112-2-19**] 05:30 PM
   - wrote for 4 doses of acetazolamide for metabolic alkalosis, in
   setting of increasing lasix dosing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-2-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2112-2-19**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-20**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 81 (68 - 84) bpm
   BP: 138/64(84) {126/46(68) - 172/82(108)} mmHg
   RR: 22 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,727 mL
                                                                    216 mL
   PO:
             TF:
                                                                     28 mL
                                                                     11 mL
   IVF:
                                                                    853 mL
                                                                    206 mL
   Blood products:
                                                                    752 mL
   Total out:
                                                                  4,750 mL
                                                                  3,200 mL
   Urine:
                                                                  4,750 mL
                                                                  3,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,023 mL
                                                                 -2,984 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 723 (675 - 758) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.49/35/85.[**Numeric Identifier 299**]/27/3
   Ve: 17.3 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   74 K/uL
   8.5 g/dL
   77 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.3 mEq/L
   35 mg/dL
   105 mEq/L
   140 mEq/L
   24.2 %
   3.6 K/uL
        [image002.jpg]
                             [**2112-2-18**]  08:05 PM
                             [**2112-2-19**]  01:10 AM
                             [**2112-2-19**]  01:22 AM
                             [**2112-2-19**]  07:00 AM
                             [**2112-2-19**]  08:54 AM
                             [**2112-2-19**]  12:23 PM
                             [**2112-2-19**]  12:44 PM
                             [**2112-2-19**]  08:58 PM
                             [**2112-2-19**]  10:18 PM
                             [**2112-2-20**]  02:10 AM
   WBC
   3.2
   3.6
   Hct
   23.4
   24.2
   Plt
   42
   72
   74
   Cr
   0.4
   0.4
   0.4
   0.5
   TCO2
   33
   34
   31
   32
   33
   27
   Glucose
   98
   70
   78
   77
   Other labs: PT / PTT / INR:12.6/26.5/1.1, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/34, Differential-Neuts:94.1 %, Band:6.0
   %, Lymph:2.5 %, Mono:2.6 %, Eos:0.4 %, Fibrinogen:531 mg/dL, Lactic
   Acid:0.8 mmol/L, LDH:406 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, extubated 12 hours
   ago after XX days on mechanical ventilation, with IR-placed drain for
   management of sigmoid abscess.
   # Respiratory status: Sating in mid- to high-90s most of the night.
   Occasional dips into low 90s or high 80s that resolve when patient told
   to take a deep breath. Diuresed to goal of XX. No signs of pulmonary
   hemorrhage for several days now. Was initially hypertense (MAPs 110)
   after intubation but SBPs kept in 140s with nitro gtt.
   - Follow lytes and UOP
   - Continue Solumedrol 60mg q8h and will touch base with primary
   pulmonologist
   # Sigmoid Abscess: On CT looks better, drain is working. Has therefore
   had IR procedures from drainage, IVIG, plasmapheresis (x 5 including).
   Surgery continues to follow closely, as does Dr. [**Last Name (STitle) **].
   - Placed [**Last Name (LF) 1939**], [**First Name3 (LF) 124**] begin TF (low at 5cc/hr) today
   # Thrombocytopenia: Stable, transfused for 50K
   # DM: Follow [**Last Name (un) 72**] recs
   # Restless leg: Ropinerole
   # BPH: Flomax
   # Anxiety: Continue SSRI
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Blood pressures stable
 monitor off medications for
   now
   TPN without Lipids - [**2112-2-17**] 05:48 PM 63 mL/hour, will attempt tube
   feeds today via [**Year (4 digits) 1939**]
   Glycemic Control:  [**Last Name (un) 72**] recs
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM (RIJ)
   Arterial Line - [**2112-2-8**] 03:00 PM
   PICC and pheresis catheter pulled
   Prophylaxis:
   DVT: Pneumoboots, IVC filter
   Stress ulcer: Home PPI
   VAP:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2112-2-20**] 04:30 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   Arterial Line - [**2112-2-8**] 03:00 PM
   20 Gauge - [**2112-2-19**] 01:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-21 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2112-2-20**] 10:17 PM
   .
   - [**Last Name (un) 72**]: Decrease all insulin by 2 units
   - Surgery: advance tube feeds if no pain
   - ID: cont meropenem, CIS
   .
   - Cool and mottled appearance to left hand. No pain, tingling,
   numbness, weakness, or diminished pulses on exam. BP's symmetric. L
   radial line removed
   - Lt shoulder/back pain treated with APAP, Lidocaine, !mg
   Morphine/2.5mg Oxycodone
   - Dobhoff occluded
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-2-21**] 04:01 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-20**] 08:22 AM
   Furosemide (Lasix) - [**2112-2-20**] 10:20 AM
   Hydralazine - [**2112-2-20**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-21**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 92 (81 - 94) bpm
   BP: 137/80(94) {134/61(77) - 154/83(99)} mmHg
   RR: 25 (11 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,825 mL
                                                                    273 mL
   PO:
             TF:
                                                                  1,262 mL
   IVF:
                                                                    803 mL
                                                                    273 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  7,020 mL
                                                                    690 mL
   Urine:
                                                                  6,980 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                 -4,195 mL
                                                                   -417 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula (5-6L)
   SpO2: 97%
   ABG: 7.54/30/77.[**Numeric Identifier 253**]/27/3
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   54 K/uL
   8.0 g/dL
   95 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.4 mEq/L
   35 mg/dL
   106 mEq/L
   139 mEq/L
   22.6 %
   3.2 K/uL
        [image002.jpg]
                             [**2112-2-19**]  07:00 AM
                             [**2112-2-19**]  08:54 AM
                             [**2112-2-19**]  12:23 PM
                             [**2112-2-19**]  12:44 PM
                             [**2112-2-19**]  08:58 PM
                             [**2112-2-19**]  10:18 PM
                             [**2112-2-20**]  02:10 AM
                             [**2112-2-20**]  11:09 AM
                             [**2112-2-20**]  08:57 PM
                             [**2112-2-21**]  02:32 AM
   WBC
   3.6
   3.2
   Hct
   24.2
   23
   22.6
   Plt
   72
   74
   54
   Cr
   0.4
   0.4
   0.5
   0.6
   0.4
   TCO2
   31
   32
   33
   27
   26
   Glucose
   70
   78
   77
   154
   95
   Other labs: PT / PTT / INR:12.6/26.5/1.1, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/34, Differential-Neuts:94.1 %, Band:6.0
   %, Lymph:2.5 %, Mono:2.6 %, Eos:0.4 %, Fibrinogen:531 mg/dL, Lactic
   Acid:0.8 mmol/L, LDH:406 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, extubated 12 hours
   ago after XX days on mechanical ventilation, with IR-placed drain for
   management of sigmoid abscess.
   # Respiratory status: Sating in mid- to high-90s most of the night.
   Occasional dips into low 90s or high 80s that resolve when patient told
   to take a deep breath. Diuresed to 4 liters, (goal [**3-3**]). No signs of
   pulmonary hemorrhage for several days now. Remains slightly
   hypertensive (SBP150s)
   - Follow lytes and UOP
   - Continue Solumedrol 60mg q8h
   - C/w bactrim ppx
   - Restart nitro gtt PRN (goal SBPs 140s)
   - Goal diuresis for today: Negative 2 liters, as HR starting to creep
   up after aggressive diuresis. Expect extravascular fluid to be pulled
   intravascularly at this point
   # Sigmoid Abscess: On CT looks better, drain is working. Has had IVIG,
   plasmapheresis (x 5).  Surgery following. On Meropenem.
   - Continue Meropenem per ID recs
   - Will try to un-occlude Dobhoff
 if unsuccessful, consider resumption
   of TPN given patient
s dislike of nasal tubing
   # Shoulder pain: has chronic pain from rotator cuff injury. Usually
   takes darvocet at home.
   - lidocaine patch & standing acetaminophen; avoid narcotics as much as
   possible
   # Thrombocytopenia: Stable.
   - Transfuse to maintain 50K
   # Anemia: Stable.
   # DM: Only gave half of his long-acting insulin o/n in setting of TPN
   and TFs both off in the hours after extubation.
   - Follow-up [**Last Name (un) 72**] recs
   # Restless leg: Ropinerole
   # BPH: Flomax
   # Anxiety: Continue SSRI
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Restarted Sotalol with good effect
   # FEN: Tube feeds via post-pyloric Dobhoff. Can d/c TPN
   # Glycemic Control:  [**Last Name (un) 72**] recs
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM (RIJ)
   Arterial Line - [**2112-2-8**] 03:00 PM\
   20 gauge PIV
   Prophylaxis:  Pneumoboots, IVC filter, Home PPI
   Communication:  Patient, family
   Code status: Full code
   Disposition: ICU. PT consult
 ALTERATION IN TISSUE PERFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 PANCYTOPENIA
 VASCULITIS
   ANCA - negative pulmonary vasculitis
 ALTERATION IN NUTRITION
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE II
 OBSTRUCTIVE SLEEP APNEA (OSA)
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 DIVERTICULITIS
   Abscess with percutaneous drain
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-22 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-21**]:
   - Fentanyl boluses --> patch tomorow; not well controlled
   - Goal -2L on Lasix 80mg IV X1
   - Weaning facemask to nasal cannula today - didn't tolerate. Now on
   FiO260-80% face mask and NC 6L!
   - Dobhoff clogged and unable to unclog w/ bicarb/Vicase, soda etc
   - Incr leaking around abscess drain. Touched base w/ [**Doctor First Name **] and IR. Will
   assess in AM - continue dressing changes and flushes
   - Surgery recs: Continue course
   - [**Last Name (un) 72**] recs: [**1-2**] fixed dose off TF, will likely need increases
   - ** ID recs: Enterococcus and pseudomonas from abscess. Although doing
   great on Meropenem, consider switching to Imipenem for better
   pseudomonas coverage.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-2-22**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-21**] 08:22 AM
   Furosemide (Lasix) - [**2112-2-21**] 12:00 PM
   Fentanyl - [**2112-2-22**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-22**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 81 (72 - 96) bpm
   BP: 157/79(97) {114/55(68) - 157/87(102)} mmHg
   RR: 21 (13 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
              +3 L LOS
   Total In:
                                                                  1,465 mL
                                                                    323 mL
   PO:
                                                                    340 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    725 mL
                                                                    203 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  3,575 mL
                                                                    430 mL
   Urine:
                                                                  3,575 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,110 mL
                                                                   -107 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   NAD, speaking easily
   CTA
   S1 S2
   Soft NT ND
   [**Doctor Last Name **] rash on left hand? Cold/mottled but slightly improved from
   yesterday.
   Drain draining well
   Labs / Radiology
   43 K/uL
   7.2 g/dL
   139 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.9 mEq/L
   39 mg/dL
   108 mEq/L
   138 mEq/L
   20.6 %
   3.8 K/uL
        [image002.jpg]
                             [**2112-2-19**]  12:23 PM
                             [**2112-2-19**]  12:44 PM
                             [**2112-2-19**]  08:58 PM
                             [**2112-2-19**]  10:18 PM
                             [**2112-2-20**]  02:10 AM
                             [**2112-2-20**]  11:09 AM
                             [**2112-2-20**]  08:57 PM
                             [**2112-2-21**]  02:32 AM
                             [**2112-2-21**]  08:14 PM
                             [**2112-2-22**]  04:04 AM
   WBC
   3.6
   3.2
   3.8
   Hct
   24.2
   23
   22.6
   20.6
   Plt
   72
   74
   54
   43
   Cr
   0.4
   0.4
   0.5
   0.6
   0.4
   0.6
   0.6
   TCO2
   33
   27
   26
   Glucose
   70
   78
   77
   154
   95
   124
   139
   Other labs: PT / PTT / INR:12.6/26.5/1.1, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/34, Differential-Neuts:94.1 %, Band:6.0
   %, Lymph:2.5 %, Mono:2.6 %, Eos:0.4 %, Fibrinogen:531 mg/dL, Lactic
   Acid:0.8 mmol/L, LDH:406 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.9
   mg/dL
                     ENTEROCOCCUS SP.
                             |          PSEUDOMONAS AERUGINOSA
                             |          |
AMPICILLIN------------   <=2 S
CEFEPIME--------------              <=1 S
CEFTAZIDIME-----------                2 S
CIPROFLOXACIN---------                2 I
GENTAMICIN------------              <=1 S
MEROPENEM-------------                2 S
PENICILLIN G----------     8 S
PIPERACILLIN/TAZO-----                8 S
TOBRAMYCIN------------              <=1 S
VANCOMYCIN------------     1 S
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, with IR-placed drain
   for management of sigmoid abscess.
   # Respiratory status: Diuresing well with no real creatinine bump but
   HR creeping up. Expect extravascular fluid to be pulled intravascularly
   at this point. No signs of pulmonary hemorrhage for several days now.
   Requiring FiO2 60-80% face tent, 6 L nasal cannula
 he is
   nosebreather.
   - C/w nasal cannula and face mask oxygen therapy
 will try to wean
   down, knowing patient requires 5L NC at baseline
   - Goal diuresis today 2 more liters negative
   - PM lytes and UOP
   - Continue Solumedrol 60mg q8h
   - C/w bactrim ppx
   # Sigmoid Abscess: On CT looks better, drain is working although
   leaking around site. Has had IVIG, plasmapheresis (x 5).  Surgery
   following. On Meropenem.
   - Continue Meropenem per ID recs
   # Shoulder pain: has chronic pain from rotator cuff injury. Takes
   darvocet at home. Got Fentanyl boluses, denies shoulder pain this AM.
   - Shoulder film xrays
   - Continue Tylenol standing and Lidocaine path
   - Will try Fentanyl PCA with low basal dose today for self-monitoring
   of analgesia
    # Left hand mottling: s/p radial line removal after indwelling x 12
   days. Good pulse and cap refill. Likely has adequate collateral
   circulation from ulnar. Vascular surgery has assessed, signed off.
   Pattern on hand suggestive of livedo reticularis, however, which is
   seen in vasculopathy but also in vasculitis. Concern in setting of
   increased respiratory requirements, dropping Hct/Platelets that
   patient
s pauci-immune vasculitis is re-flaring.
   - Repeat CXR today
   - Consider increasing steroids again
   - Close monitoring for bloody oral secretions
   # Thrombocytopenia: From 54 -> 43.
   - Transfuse today to maintain 50K
   # Anemia: Continuing to slide down daily, from 24->23->22.6->20.6.
   - Transfuse today to maintain above 20.
   # DM: Getting long acting and sliding scale.
   - Follow-up [**Last Name (un) 72**] recs
   # FEN: Dobhoff clogged despite attempts to flush. Will try again today.
   Sounds like swallowing okay. Speech & swallow consult for ?PO feeds
   # Restless leg: Ropinerole
   # BPH: Flomax
   # Anxiety: Continue SSRI
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Restarted Sotalol with good effect
   # Glycemic Control:  [**Last Name (un) 72**] recs
   Lines: Multi Lumen - [**2112-2-8**] 05:48 AM (RIJ), 20 gauge PIV
   Prophylaxis:  Pneumoboots, IVC filter, Home PPI
 PT working with
   patient
   Communication:  Patient, family
   Code status: Full code
   Disposition: ICU. PT consult

2112-02-23 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Couldn't manage PCA (fingers too weak) so on Fentanyl 12.5 mcg q2 hrs
   prn. If using a lot, can transition to Fent patch 12.5 mcg (=q 1 hour).
   - 1 unit pRBC -> hct
   - Dobhoff still clogged ...
   - rash: livido reticularis, per LeCamara he has never had prodromic
   skin manifestations prior to vasculitis of lungs; LeCamara recs we go
   down on his steroids
   - 2300: desats to high 80s/low 90s, though he reports breathing fine.
   Turned up NC to 6L and shovel mask to 80%, -> 90-92%. He wants shoulder
   pain med, a bath.
   - White plastic hub at most distal part of drain cracked, broken.
   Cannot hook drain to draining bag?
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-2-23**] 04:12 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-22**] 08:00 AM
   Furosemide (Lasix) - [**2112-2-22**] 05:30 PM
   Fentanyl - [**2112-2-23**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Musculoskeletal: Joint pain
   Flowsheet Data as of  [**2112-2-23**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 88 (68 - 92) bpm
   BP: 147/79(94) {118/57(75) - 155/84(101)} mmHg
   RR: 25 (18 - 36) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,646 mL
                                                                    401 mL
   PO:
                                                                    390 mL
             TF:
                                                                     53 mL
                                                                    229 mL
   IVF:
                                                                    655 mL
                                                                    172 mL
   Blood products:
                                                                    548 mL
   Total out:
                                                                  4,040 mL
                                                                    435 mL
   Urine:
                                                                  4,040 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   25 mL
   Balance:
                                                                 -2,394 mL
                                                                    -34 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, Stable [**Doctor Last Name 170**] rash over left hand
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   57 K/uL
   8.7 g/dL
   123 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   40 mg/dL
   106 mEq/L
   138 mEq/L
   25.0 %
   6.6 K/uL
        [image002.jpg]
                             [**2112-2-20**]  02:10 AM
                             [**2112-2-20**]  11:09 AM
                             [**2112-2-20**]  08:57 PM
                             [**2112-2-21**]  02:32 AM
                             [**2112-2-21**]  08:14 PM
                             [**2112-2-22**]  04:04 AM
                             [**2112-2-22**]  08:21 AM
                             [**2112-2-22**]  05:40 PM
                             [**2112-2-22**]  08:00 PM
                             [**2112-2-23**]  03:08 AM
   WBC
   3.6
   3.2
   3.8
   4.9
   6.6
   Hct
   24.2
   23
   22.6
   20.6
   19.7
   23.8
   24.6
   25.0
   Plt
   74
   54
   43
   87
   56
   57
   Cr
   0.5
   0.6
   0.4
   0.6
   0.6
   0.6
   0.5
   TCO2
   26
   Glucose
   77
   154
   95
   124
   139
   95
   123
   Other labs: PT / PTT / INR:12.9/25.0/1.1, ALT / AST:42/29, Alk Phos / T
   Bili:52/0.5, Amylase / Lipase:/34, Differential-Neuts:94.1 %, Band:6.0
   %, Lymph:2.5 %, Mono:2.6 %, Eos:0.4 %, Fibrinogen:531 mg/dL, Lactic
   Acid:0.8 mmol/L, LDH:406 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   Imaging: [**2-22**] CXR:  As compared to the previous radiograph, the
   pre-existing left parenchymal opacities are unchanged in extent and
   severity. On the right, the opacities could have decreased in extent.
   Unchanged small lung volumes and mildly enlarged cardiac silhouette.
   Unchanged monitoring and support devices. No newly appeared focal
   parenchymal opacities
   Microbiology: [**2-17**] Wound Cx:    WOUND CULTURE (Final [**2112-2-20**]):
   ENTEROCOCCUS SP..    MODERATE GROWTH.
         PSEUDOMONAS AERUGINOSA. SPARSE GROWTH OF TWO COLONIAL
   MORPHOLOGIES.
                                ENTEROCOCCUS SP.
                                |          PSEUDOMONAS AERUGINOSA
                                |          |
   AMPICILLIN------------   <=2 S
   CEFEPIME--------------              <=1 S
   CEFTAZIDIME-----------                2 S
   CIPROFLOXACIN---------                2 I
   GENTAMICIN------------              <=1 S
   MEROPENEM-------------                2 S
   PENICILLIN G----------     8 S
   PIPERACILLIN/TAZO-----                8 S
   TOBRAMYCIN------------              <=1 S
   VANCOMYCIN------------     1 S
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, with IR-placed drain
   for management of sigmoid abscess.
   # Respiratory status: Diuresing well with no real creatinine bump but
   HR creeping up slightly. Expect extravascular fluid to be pulled
   intravascularly at this point. No signs of pulmonary hemorrhage for
   several days now. Requiring FiO2 60-80% face tent, 6 L nasal cannula
   he is nosebreather. Possibly over-cannulated airways (Dobhoff etc.) and
   sedating medications.
   - C/w nasal cannula and face mask oxygen therapy
 will try to wean
   down, knowing patient requires 5L NC at baseline
   - Trial CPAP this morning, positioned upright in chair
   - Repeat CXR this morning
   - Goal diuresis today [**1-2**] more liters negative
   - PM lytes and UOP
   - Currently Solumedrol 50mg q8h
 will d/w primary pulmonologist re:
   resuming higher dose
   - C/w bactrim ppx
   - Pt expressing desires to go home, will discuss in further detail
   goals of care with patient, family and primary pulmonologist later
   today
   # Sigmoid Abscess: On CT looks better, drain is working although
   leaking around site and has cracked component. Has had IVIG,
   plasmapheresis (x 5).  Surgery following. On Meropenem.
   - Continue Meropenem per ID recs
   - Touch base with IR
   # Shoulder pain: Has chronic pain from rotator cuff injury. Takes
   darvocet at home. Got Fentanyl boluses yesterday although continues to
   c/o some pain.
   - Continue Tylenol standing and Lidocaine patch
   - Continue with Fentanyl q2hr and monitor for sedation
    # Left hand mottling: s/p radial line removal after indwelling x 12
   days. Good pulse and cap refill. Likely has adequate collateral
   circulation from ulnar. Vascular surgery has assessed, signed off.
   Pattern on hand suggestive of livedo reticularis, however, which is
   seen in vasculopathy but also in vasculitis. Concern in setting of
   increased respiratory requirements, dropping Hct/Platelets that
   patient
s pauci-immune vasculitis is re-flaring.
   - Consider increasing steroids again
   - Close monitoring for bloody oral secretions (so far negative)
   - Serial exams
   # Thrombocytopenia: Stable at 57 today
   - Transfuse to maintain 50K
   # Anemia: Hct 25 after transfusion of pRBC yesterday
   - Transfuse to maintain above 20.
   # DM: Getting long acting and sliding scale.
   - Follow-up [**Last Name (un) 72**] recs
   # FEN: Dobhoff newly placed yesterday. Speech & swallow consulted for
   ?PO feeds
   # Restless leg: Ropinerole
   # BPH: Flomax
   # Anxiety: Continue SSRI
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Restarted Sotalol with good effect
   # Glycemic Control:  [**Last Name (un) 72**] recs
   Lines: Multi Lumen - [**2112-2-8**] 05:48 AM (RIJ), 20 gauge PIV
   Prophylaxis:  Pneumoboots, IVC filter, Home PPI
 PT working with
   patient
   Communication:  Patient, family
   Code status: Full code for now
 will need further discussion this
   afternoon
   Disposition: ICU. PT consulted
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2112-2-22**] 10:14 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-24 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2112-2-23**] 10:00 PM
   chest pain
   .
   - White plastic hub at most distal part of [**Year (4 digits) **] cracked, broken. IR
   planning on taking patient down for re-placement tomorrow. Same team as
   placed initial [**Last Name (LF) **], [**First Name3 (LF) **] aware of tenuous resp status, and desire to
   not overly sedate
   - Steroids increased back up to solumedrol 125 mg Q6 hrs
   - Trial CPAP; breathing felt improved, per patient
   - Complained to nurse of chest pressure, but later said that it was
   consistent with his 'chronic chest feeling.' EKG unchanged.
   - PM lytes stable, except gluc 193 (now on higher steroid dose, as
   above)
   - Negative 561 cc/24 hrs, but lasix not given until 3 pm. Got second
   dose of lasix at 2200, so second dose lasix 80 mg IV given
   - Confused
 secondary to pain meds and sleep deprivation? Pulm status
 secondary to fatigue, pain meds, derecruitment?
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-2-24**] 04:36 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2112-2-23**] 10:49 PM
   Fentanyl - [**2112-2-24**] 04:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-24**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 107 (75 - 107) bpm
   BP: 146/82(94) {118/70(83) - 158/87(100)} mmHg
   RR: 22 (18 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,884 mL
                                                                    502 mL
   PO:
             TF:
                                                                  1,044 mL
                                                                    143 mL
   IVF:
                                                                    590 mL
                                                                    279 mL
   Blood products:
   Total out:
                                                                  2,445 mL
                                                                  1,220 mL
   Urine:
                                                                  2,420 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
                                                                     25 mL
   Balance:
                                                                   -561 mL
                                                                   -718 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 700 (700 - 997) mL
   PS : 8 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.53/34/96.[**Numeric Identifier 7**]/30/5
   Ve: 20.7 L/min
   PaO2 / FiO2: 139
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   48 K/uL
   8.5 g/dL
   208 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.4 mEq/L
   39 mg/dL
   104 mEq/L
   140 mEq/L
   24.9 %
   6.8 K/uL
        [image002.jpg]
                             [**2112-2-21**]  02:32 AM
                             [**2112-2-21**]  08:14 PM
                             [**2112-2-22**]  04:04 AM
                             [**2112-2-22**]  08:21 AM
                             [**2112-2-22**]  05:40 PM
                             [**2112-2-22**]  08:00 PM
                             [**2112-2-23**]  03:08 AM
                             [**2112-2-23**]  03:19 PM
                             [**2112-2-24**]  03:12 AM
                             [**2112-2-24**]  04:03 AM
   WBC
   3.2
   3.8
   4.9
   6.6
   6.8
   Hct
   22.6
   20.6
   19.7
   23.8
   24.6
   25.0
   24.9
   Plt
   54
   43
   87
   56
   57
   48
   Cr
   0.4
   0.6
   0.6
   0.6
   0.5
   0.6
   0.5
   TCO2
   29
   Glucose
   95
   124
   139
   95
   123
   193
   208
   Other labs: PT / PTT / INR:12.9/25.0/1.1, ALT / AST:55/61, Alk Phos / T
   Bili:136/4.2; DBili 1.2, Amylase / Lipase:/34, Differential-Neuts:94.1
   %, Band:6.0 %, Lymph:2.5 %, Mono:2.6 %, Eos:0.4 %, Fibrinogen:531
   mg/dL, Lactic Acid:0.8 mmol/L, LDH:406 IU/L, Ca++:7.9 mg/dL, Mg++:2.0
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, with IR-placed [**Year (4 digits) **]
   for management of sigmoid abscess.
   # Respiratory status: Diuresing well with no real creatinine bump but
   HR creeping up slightly. Expect extravascular fluid to be pulled
   intravascularly at this point. No signs of pulmonary hemorrhage for
   several days now. Requiring FiO2 60-80% face tent, 6 L nasal cannula
   he is nosebreather. Possibly over-cannulated airways (Dobhoff etc.) and
   sedating medications. Tolerated CPAP well yesterday with subjective
   improvement in oxygenation/ventilation.
   - Continue with CPAP overnight
   - Repeat diuresis with Lasix 80mg IV X1-2 today with goal of negative 2
   liters
   - PM lytes and monitor urine output
   - Currently Solumedrol 125mg IV q8h in discussions with primary
   pulmonologist. Given stable, ?improved CT chest this AM, will touch
   base with Dr. [**Last Name (STitle) 104**] re: lowering dose
   - C/w bactrim ppx
   - Pt expressing desires to go home, felt likely due to component of ICU
   delirium given prolonged hospitalization
   # Sigmoid Abscess: On CT looks better, [**Last Name (STitle) **] is working although
   leaking around site and has cracked component
 went down to IR this
   morning for replacement and upsizing of [**Last Name (STitle) **]. Has had IVIG,
   plasmapheresis (x 5).  Surgery following. On Meropenem.
   - Continue Meropenem per ID recs
   - Appreciate IR and Surgery
s continued following of patient
   # Elevated LFTs: Direct bilirubin 1.2 suggestive of unconjugated
   hyperbilirubinemia
   - Concern for hemolysis
 will order haptoglobin, fibrinogen,
   reticulocyte, LDH
   - Consider touching base with Heme/Onc for peripheral smear review
   # Shoulder pain: Has chronic pain from rotator cuff injury. Takes
   darvocet at home. Got Fentanyl boluses yesterday although continues to
   c/o some pain.
   - Continue Tylenol standing and Lidocaine patch
   - Continue with Fentanyl q2hr and monitor for sedation
   - Shoulder films today
    # Left hand mottling: s/p radial line removal after indwelling x 12
   days. Good pulse and cap refill. Likely has adequate collateral
   circulation from ulnar. Vascular surgery has assessed, signed off.
   Pattern on hand suggestive of livedo reticularis, however, which is
   seen in vasculopathy but also in vasculitis. Concern in setting of
   increased respiratory requirements, dropping Hct/Platelets that
   patient
s pauci-immune vasculitis is re-flaring.
   - Close monitoring for bloody oral secretions (so far negative)
   - Serial exams
   # Thrombocytopenia: Stably low
   - Transfuse to maintain 50K
   # Anemia: Hct ~25 after transfusion of pRBC two days ago
   - Transfuse to maintain above 20.
   # DM: Getting long acting and sliding scale.
   - Follow-up [**Last Name (un) 72**] recs
   # FEN: Dobhoff newly placed yesterday. Speech & swallow consulted for
   ?PO feeds
   # Restless leg: Ropinerole
   # BPH: Flomax
   # Anxiety: Continue SSRI
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Restarted Sotalol with good effect
   # Glycemic Control:  [**Last Name (un) 72**] recs
   Lines: Multi Lumen - [**2112-2-8**] 05:48 AM (RIJ), 20 gauge PIV
   Prophylaxis:  Pneumoboots, IVC filter, Home PPI
 PT working with
   patient
   Communication:  Patient, family
   Code status: Full code for now
 will need further discussion this
   afternoon
   Disposition: ICU. PT consulted
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 POSTURE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ALTERATION IN TISSUE PERFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 PANCYTOPENIA
 VASCULITIS
   ANCA - negative pulmonary vasculitis
 ALTERATION IN NUTRITION
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE II
 OBSTRUCTIVE SLEEP APNEA (OSA)
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 DIVERTICULITIS
   Abscess with percutaneous [**Doctor Last Name **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-25 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-23**]:
   - White plastic hub at most distal part of [**Month/Year (2) **] cracked, broken. IR
   planning on taking patient down for re-placement tomorrow. Same team as
   placed initial [**Last Name (LF) **], [**First Name3 (LF) **] aware of tenuous resp status, and desire to
   not overly sedate
   - Steroids increased back up to solumedrol 125 mg Q6 hrs
   - Trial CPAP; breathing felt improved, per patient
   - Complained to nurse of chest pressure, but later said that it was
   consistent with his 'chronic chest feeling.' EKG unchanged.
   - PM lytes stable, except gluc 193 (now on higher steroid dose, as
   above)
   - Negative 561 cc/24 hrs, but lasix not given until 3 pm. Got second
   dose of lasix at 2200, so second dose lasix 80 mg IV given
   .
   [**2-24**]:
   - Shoulder xray: No dislocation or acute fx; old healed clavicle fx
   - Put out well to Lasix 80mg IV X1
   - Switched to Nutren Pulmonary TF (saving ~500cc extra volume!)
   - [**Last Name (un) 72**] rec'd incr fixed doses [**Hospital1 **]
   - PICC ordered
   - Surgery: Fistulization on [**Hospital1 **] imaging this morning with IR (fixed
   cracked [**Hospital1 **], upsized), which is good thing (natural drainage tract).
   :)
   - TBili 4.2, DBili 1.2, Hapto 70, Retic 7%, LDH1100; coombs and
   fibrinogen pending
   - [**Doctor Last Name 104**]: Decrease steroids 80mg IV qid today --> 60 if stable
   tomorrow. Touched base w/ Heme/Onc for peripheral smear review. If
   schistocytes, concern that vasculitis is worsening. They rec'd
   repeating hemolysis labs and peripheral smear in AM and re-paging them.
   - Very anxious on Bipap - not slept in 2+ days. Gave Seroquel 50 in
   addition to Trazodone 50...
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-2-25**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2112-2-25**] 12:00 AM
   Fentanyl - [**2112-2-25**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-25**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 120 (79 - 120) bpm
   BP: 142/70(80) {128/66(80) - 153/83(96)} mmHg
   RR: 40 (19 - 40) insp/min
   SpO2: 85%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,028 mL
                                                                    680 mL
   PO:
                                                                    400 mL
             TF:
                                                                    808 mL
                                                                    372 mL
   IVF:
                                                                    640 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  3,300 mL
                                                                    740 mL
   Urine:
                                                                  3,300 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,272 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,335 (397 - 1,335) mL
   PS : 5 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 9 cmH2O
   SpO2: 85%
   ABG: ///31/
   Ve: 13.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   45 K/uL
   9.0 g/dL
   208 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.5 mEq/L
   39 mg/dL
   104 mEq/L
   140 mEq/L
   25.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2112-2-22**]  04:04 AM
                             [**2112-2-22**]  08:21 AM
                             [**2112-2-22**]  05:40 PM
                             [**2112-2-22**]  08:00 PM
                             [**2112-2-23**]  03:08 AM
                             [**2112-2-23**]  03:19 PM
                             [**2112-2-24**]  03:12 AM
                             [**2112-2-24**]  04:03 AM
                             [**2112-2-24**]  05:57 PM
                             [**2112-2-25**]  12:23 AM
   WBC
   3.8
   4.9
   6.6
   6.8
   9.1
   Hct
   20.6
   19.7
   23.8
   24.6
   25.0
   24.9
   25.4
   Plt
   43
   87
   56
   57
   48
   45
   Cr
   0.6
   0.6
   0.5
   0.6
   0.5
   0.5
   0.6
   TCO2
   29
   Glucose
   139
   95
   123
   193
   208
   212
   208
   Other labs: PT / PTT / INR:13.1/24.2/1.1, ALT / AST:59/64, Alk Phos / T
   Bili:152/3.9, Amylase / Lipase:/34, Differential-Neuts:94.1 %, Band:6.0
   %, Lymph:2.5 %, Mono:2.6 %, Eos:0.4 %, Fibrinogen:401 mg/dL, Lactic
   Acid:0.8 mmol/L, LDH:1335 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, with IR-placed [**Year (4 digits) **]
   for management of sigmoid abscess.
   # Respiratory status: Diuresing well with no real creatinine bump but
   HR creeping up slightly. Expect extravascular fluid to be pulled
   intravascularly at this point. No signs of pulmonary hemorrhage for
   several days now. Requiring FiO2 60-80% face tent, 6 L nasal cannula
   he is nosebreather. Possibly over-cannulated airways (Dobhoff etc.) and
   sedating medications. Tolerated CPAP well yesterday with subjective
   improvement in oxygenation/ventilation.
   - Continue with CPAP overnight
   - Repeat diuresis with Lasix 80mg IV X1-2 today with goal of negative 2
   liters
   - PM lytes and monitor urine output
   - Currently Solumedrol 125mg IV q8h in discussions with primary
   pulmonologist. Given stable, ?improved CT chest this AM, will touch
   base with Dr. [**Last Name (STitle) 104**] re: lowering dose
   - C/w bactrim ppx
   - Pt expressing desires to go home, felt likely due to component of ICU
   delirium given prolonged hospitalization
   # Sigmoid Abscess: On CT looks better, [**Last Name (STitle) **] is working although
   leaking around site and has cracked component
 went down to IR this
   morning for replacement and upsizing of [**Last Name (STitle) **]. Has had IVIG,
   plasmapheresis (x 5).  Surgery following. On Meropenem.
   - Continue Meropenem per ID recs
   - Appreciate IR and Surgery
s continued following of patient
   # Elevated LFTs: Direct bilirubin 1.2 suggestive of unconjugated
   hyperbilirubinemia
   - Concern for hemolysis
 will order haptoglobin, fibrinogen,
   reticulocyte, LDH
   - Consider touching base with Heme/Onc for peripheral smear review
   # Shoulder pain: Has chronic pain from rotator cuff injury. Takes
   darvocet at home. Got Fentanyl boluses yesterday although continues to
   c/o some pain.
   - Continue Tylenol standing and Lidocaine patch
   - Continue with Fentanyl q2hr and monitor for sedation
   - Shoulder films today
    # Left hand mottling: s/p radial line removal after indwelling x 12
   days. Good pulse and cap refill. Likely has adequate collateral
   circulation from ulnar. Vascular surgery has assessed, signed off.
   Pattern on hand suggestive of livedo reticularis, however, which is
   seen in vasculopathy but also in vasculitis. Concern in setting of
   increased respiratory requirements, dropping Hct/Platelets that
   patient
s pauci-immune vasculitis is re-flaring.
   - Close monitoring for bloody oral secretions (so far negative)
   - Serial exams
   # Thrombocytopenia: Stably low
   - Transfuse to maintain 50K
   # Anemia: Hct ~25 after transfusion of pRBC two days ago
   - Transfuse to maintain above 20.
   # DM: Getting long acting and sliding scale.
   - Follow-up [**Last Name (un) 72**] recs
   # FEN: Dobhoff newly placed yesterday. Speech & swallow consulted for
   ?PO feeds
   # Restless leg: Ropinerole
   # BPH: Flomax
   # Anxiety: Continue SSRI
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Restarted Sotalol with good effect
   # Glycemic Control:  [**Last Name (un) 72**] recs
   Lines: Multi Lumen - [**2112-2-8**] 05:48 AM (RIJ), 20 gauge PIV
   Prophylaxis:  Pneumoboots, IVC filter, Home PPI
 PT working with
   patient
   Communication:  Patient, family
   Code status: Full code for now
 will need further discussion this
   afternoon
   Disposition: ICU. PT consulted
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 POSTURE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ALTERATION IN TISSUE PERFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 PANCYTOPENIA
 VASCULITIS
   ANCA - negative pulmonary vasculitis
 ALTERATION IN NUTRITION
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE II
 OBSTRUCTIVE SLEEP APNEA (OSA)
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 DIVERTICULITIS
   Abscess with percutaneous [**Doctor Last Name **]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2112-2-25**] 06:02 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-26 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2-25**]:
   - 1800: desats to 80s, tachypnea. Put back on CPAP. Family at bedside,
   informed he may need reintubated.
   * CXR: no obvious ptx or pna
   * ECG: ST dep in high lateral leads, c/w strain pattern
   * Trops: at 1900 and at 0500
   * Re-cultured
   * Fentanyl 12.5 mcg at 1800, Ativan 1 mg x 1 1900 as he battles mask;
   very good relief with Ativan
   * Per LeCamara, increased solumedrol to 125 QID. Surgery made aware.
   - Off CPAP at 0500. ABG and VBG sent this AM. He is agitated, moaning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2112-2-25**] 08:00 PM
   Ciprofloxacin - [**2112-2-26**] 02:00 AM
   Meropenem - [**2112-2-26**] 03:53 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2112-2-26**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-26**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 119 (95 - 126) bpm
   BP: 130/101(108) {88/33(43) - 161/113(119)} mmHg
   RR: 27 (23 - 46) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
              Even for LOS
   Total In:
                                                                  2,310 mL
                                                                    869 mL
   PO:
                          TF:
                                                                  1,030 mL
                                                                    302 mL
   IVF:
                                                                  1,190 mL
                                                                    567 mL
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                    200 mL
   Urine:
                                                                  1,980 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    330 mL
                                                                    669 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 980 (351 - 980) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 12 cmH2O
   SpO2: 96%
   Gases soon after off CPAP:
   ABG: 7.57/29/85/31/4
   VBG: 7.48/42/23
   Ve: 19.9 L/min
   PaO2 / FiO2: 196
   Physical Examination
   Gen: Agitated, moaning, asks,
what is this place?
 Denies pain
   CTA
   S1 S2
   Drain draining blood now instead of feculence?
   Warm extremities
   Labs / Radiology
   56 K/uL
   9.7 g/dL
   131 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.2 mEq/L
   52 mg/dL
   108 mEq/L
   144 mEq/L
   29.3 %
   10.1 K/uL
        [image002.jpg]
   Trops: at 1900 (0.02) and at 0400 (0.01)
                             [**2112-2-22**]  08:00 PM
                             [**2112-2-23**]  03:08 AM
                             [**2112-2-23**]  03:19 PM
                             [**2112-2-24**]  03:12 AM
                             [**2112-2-24**]  04:03 AM
                             [**2112-2-24**]  05:57 PM
                             [**2112-2-25**]  12:23 AM
                             [**2112-2-25**]  10:12 AM
                             [**2112-2-25**]  09:10 PM
                             [**2112-2-26**]  04:28 AM
   WBC
   6.6
   6.8
   7.5
   10.1
   Hct
   24.6
   25.0
   24.9
   25.4
   29.3
   Plt
   57
   48
   45
   56
   Cr
   0.5
   0.6
   0.5
   0.5
   0.6
   0.6
   TropT
   0.02
   <0.01
   TCO2
   29
   27
   Glucose
   123
   193
   208
   [**Telephone/Fax (3) 11727**]
   Other labs: PT / PTT / INR:12.2/22.3/1.0, CK / CKMB /
   Troponin-T:46/8/<0.01, ALT / AST:75/101, Alk Phos / T Bili:171/3.9,
   Amylase / Lipase:/34, Differential-Neuts:88.0 %, Band:3.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:401 mg/dL, Lactic Acid:3.4 mmol/L,
   LDH:1760 IU/L, Ca++:9.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan: 58M w/ pulmonary vasculitis on immunosuppression,
   with IR-placed drain for management of sigmoid abscess
    # Respiratory status: Desaturated to 80s yesterday at 1800. CXR
   normal. No increased secretions, could not tolerate an induced sputum
   cx. Other cxs NGTD. Steroids increased to 125 mg QID per primary
   pulmonologist, put on BiPAP o/n. Had Ativan 1 mg and soon after slept
   most of night, though occasionally restless / moaning / thrashing. Now
   on NC 5 lpm and FM 95%, sats 95-98%, agitated / moaning / thrashing but
   no real change from how was on CPAP. Denies pain. Tachypneic, blowing
   off CO2 and alkalotic now:
   ABG: 7.57/29/85/31/4
   VBG: 7.48/42/23
   On Vanco/Cipro for empiric HAP. On Bactrim for ppx.
   He was not diuresed aggressively yesterday for the first time, and was
   +700 cc for the day, even for LOS. Concern for worsening vasculitis
   (less likely), infection, fatigue (not sleeping well at night 3 days
   given anxiety).
   - TF stopped in case reintubation needed
   - Resume diuresis with Lasix 80mg IV X1-2 today with goal of negative 2
   liters
   - PM lytes and monitor urine output
   - C/w solumedrol
   - F/u cultures
   # Agitation: Good response to ativan last night. Intermittent
   complaints of shoulder pain
   - d/c cipro for possibility of quinolone-induced altered MS
   - PRN ativan
   - Q2 hrs fentanyl PRN for pain
   # CAD:  ECG during period of agitation: ST dep in high lateral leads,
   c/w strain pattern. Trops falling.
   - no further trending
   - AM ECG today
   # Sigmoid Abscess: Drain now producing what looks like frank blood
   mixed with stool drainage. Surgery following. On Meropenem, Vanc,
   Cipro. Blood in drain possibly [**2-2**] recent manipulation. Fistula
   developing on recent imaging.
   - Need surgery
s input re drain
   - Continue Meropenem per ID recs
   - Appreciate IR and Surgery
s continued following of patient
   # Heme: Confusing heme picture. He has elevated dbili, LDH,
   reticulocyte count, nucleated RBCs, picture c/w hemolysis and brisk
   marrow response. But haptoglobin not low, and pancytopenic generally.
   Heme/onc review of smear: No evidence of DIC, TTP or microangiopathy.
   - repeat hemolysis labs in AM: bili, hapto, ldh, retic, smear, coags,
   diff
   - f/u G6PD level
   - urine hemosiderin
   - (not ordered but discussed w/heme/onc: PNH paroxysmal nocturnal
   hemoglobinuria, complicated sendout blood test)
   # Shoulder pain: Has chronic pain from rotator cuff injury. Takes
   darvocet at home. Got Fentanyl boluses 3 times yesterday although
   continues to c/o some pain.
   - Continue Tylenol standing and Lidocaine patch
   - Continue with Fentanyl q2hr and monitor for sedation; will offer
   analgesia q2 hours for closer management
   - Reverse trendelenberg and will have patient positioned as upright as
   possible
   .
   # Livedo reticularis: Noted on L hand and on legs at times, not active
   now.
   - Serial exams
   # Thrombocytopenia: Stably low
   - Transfuse to maintain 40-50K
   # Anemia: Hct ~25 after transfusion of pRBC three days ago
   - Transfuse to maintain above 20.
   # DM: Getting long acting and sliding scale.
   - Follow-up [**Last Name (un) 72**] recs
   # FEN: Dobhoff newly placed and functioning well
 c/w Nutren Pulm tube
   feeds for concentration
   # Restless leg: Ropinerole
   # BPH: Flomax
   # Anxiety: Continue SSRI
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Restarted Sotalol with good effect
   # Glycemic Control:  [**Last Name (un) 72**] recs
   # Lines: Multi Lumen RIJ
   # Prophylaxis:  Pneumoboots, IVC filter, Home PPI
 PT working with
   patient
   # Communication:  Patient, family
   # Code status: Full code for now
 will need further discussion
   # Disposition: ICU. PT consulted

2112-02-26 09:08:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Respiratory decompensation last night --> initially hypoxemic after
   repositioning, then very tachypneic and tachycardic.
   NIMV overnight
   Steroids increased
   Delirious
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2112-2-26**] 02:00 AM
   Meropenem - [**2112-2-26**] 03:53 AM
   Vancomycin - [**2112-2-26**] 08:11 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2112-2-26**] 02:30 AM
   Fentanyl - [**2112-2-26**] 07:50 AM
   Pantoprazole (Protonix) - [**2112-2-26**] 08:11 AM
   Other medications:
   reviewed from [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-26**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 110 (95 - 121) bpm
   BP: 122/99(104) {88/33(43) - 161/113(119)} mmHg
   RR: 32 (23 - 46) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,310 mL
                                                                  1,097 mL
   PO:
             TF:
                                                                  1,030 mL
                                                                    302 mL
   IVF:
                                                                  1,190 mL
                                                                    796 mL
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                    325 mL
   Urine:
                                                                  1,980 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    330 mL
                                                                    773 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 980 (351 - 980) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 12 cmH2O
   SpO2: 96%
   ABG: 7.57/29/85.[**Numeric Identifier 299**]/31/4
   Ve: 19.9 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, drain
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, livedo improved
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, inattentive and only intermittently follows commands
   Labs / Radiology
   9.7 g/dL
   56 K/uL
   131 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.2 mEq/L
   52 mg/dL
   108 mEq/L
   144 mEq/L
   29.3 %
   10.1 K/uL
        [image002.jpg]
                             [**2112-2-23**]  03:08 AM
                             [**2112-2-23**]  03:19 PM
                             [**2112-2-24**]  03:12 AM
                             [**2112-2-24**]  04:03 AM
                             [**2112-2-24**]  05:57 PM
                             [**2112-2-25**]  12:23 AM
                             [**2112-2-25**]  10:12 AM
                             [**2112-2-25**]  09:10 PM
                             [**2112-2-26**]  04:28 AM
                             [**2112-2-26**]  06:46 AM
   WBC
   6.6
   6.8
   7.5
   10.1
   Hct
   25.0
   24.9
   25.4
   29.3
   Plt
   57
   48
   45
   56
   Cr
   0.5
   0.6
   0.5
   0.5
   0.6
   0.6
   TropT
   0.02
   <0.01
   TCO2
   29
   27
   27
   Glucose
   123
   193
   208
   [**Telephone/Fax (3) 11727**]
   Other labs: PT / PTT / INR:12.2/22.3/1.0, CK / CKMB /
   Troponin-T:46/8/<0.01, ALT / AST:75/101, Alk Phos / T Bili:171/3.9,
   Amylase / Lipase:/34, Differential-Neuts:88.0 %, Band:3.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:401 mg/dL, Lactic Acid:2.7 mmol/L,
   LDH:1760 IU/L, Ca++:9.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   CRITICAL CARE ATTENDING
   I saw and examined Mr. [**Known lastname 5979**] with the ICU team, whose note from
   today reflects my input. I would add/emphasize that this 58-year-old
   man with pauci-immune pulmonary vasculitis now has sigmoid abscess
   presumably from ruptured diverticulum.  Overall plan has been to
   attempt steroid-sparing measures and to attempt to pursue non-operative
   drainage.  Has therefore had IR procedures for drainage, IVIG,
   plasmapheresis.
   Steroids weaned.
   This morning, looks distressed.  Tachypneic.  Denies dyspnea, endorses
   should pain.
   Regular heart
   Distant lungs with crackles
   Drain in place
   Minimal edema.
   Meds, labs, imaging, all reviewed.
   Assessment and Plan
   58-year-old man with
   Sigmoid abscess
          Respiratory failure
 extubated PM of [**2112-2-19**].  Over the
   past couple of days, much more distressed
          Pulmonary vasculitis and alveolar hemorrhage
          Shoulder pain
          Pancytopenia
          Anemia with nucleated reds
          DVT and PE s/p IVC filter
          Shoulder pain
          Left hand mottling
          Delirium
   Continues to tolerate extubation, but very distressed last night with
   resp alkalosis.  We suspected his vasculitis was flaring, and increased
   steroids.  Will use intermittent mask ventilation as needed.  Will
   discuss with consultants and primary pulmonologist about whether
   addition of other antimicrobials would be beneficial
 not clear that
   there is evidence of new infection at this point. Follow up beta
   glucan.  If positive, consider rx for PCP.  [**Name10 (NameIs) 1763**] to tolerate induced
   sputum or bronch at present, and seems low-probability given ongoing
   prophylaxis.  Although PE is a possible etiology, he has an IVC filter
   already in place and anticoagulation is contraindicated given pulmonary
   hemorrhage.
   D/C cipro, since relatively unlikely to add coverage over and above
   meropenem, increases QTc, and may contribute to delirium.
   Zyprexa or haldol if needed, but not at present.  Pain control.
   Discussed with surgical attending; will follow drain output (more
   sanguinous) for now.
   Await further hematology impressions about his complex smear and
   hematologic issues.
   When improved, change to PICC.
   PPI. No anticoagulation.  Boots.
   Other issues as per ICU team note from today.
   ICU Care
   Nutrition:
   Comments: resume tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2112-02-27 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2112-2-26**] 08:00 AM
   .
   [**2-25**]:
   - WBC count cx'd to 7.1
   - Heme/onc seeing for ?hemolysis in setting of elevated dbili, LDH,
   retic count; [**Doctor Last Name 11746**] *[**Numeric Identifier 11747**]: No evidence of DIC or TTP, no schistocytes,
   no microangiopathy. LDH: multifactorial, resorbing blood into lungs +
   hemolysis (immune-related?) Nucleated RBCs: c/w hemolysis and brisk
   marrow response, or something in the marrow that shouldn't be there.
   * repeat hemolysis labs in AM: bili hapto ldh retic smear coags diff
   * G6PD level
   * urine hemosiderin
   * (not ordered but discussed: PNH paroxysmal nocturnal hemoglobinuria,
   complicated sendout blood test)
   - SS increased [**First Name8 (NamePattern2) 77**] [**Last Name (un) 72**] recs
   - 1800: desats to 80s, tachypnea. Put back on CPAP. Family at bedside,
   informed he may need reintubated.
   * CXR: no obvious ptx or pna
   * ECG: ST dep in high lateral leads, c/w strain pattern
   * Trops: at 1900 and at 0500
   * Re-cultured
   * Fentanyl 12.5 mcg at 1800, Ativan 1 mg x 1 1900 as he battles mask;
   very good relief with Ativan
   * Per LeCamara, increased solumedrol to 125 QID
   [**2-26**]:
   - Calling out unintelligibly for much of day. Denying pain repeatedly,
   but unable to verbalize specific issue
   - CVP at zero, so not diuresed further
   - Increased glargine to 44u [**Hospital1 **], [**First Name8 (NamePattern2) 77**] [**Last Name (un) 72**] recs
   - Heme recs: Send peripheral blood for flow cytometry, cryoglobulins,
   repeat SPEP/UPEP, [**Doctor Last Name 11748**] body prep, uric acid. Consider BM biopsy for
   ?lymphoproliferative d/o
   - Started fluconazole for possible fungal involvement of abscess, per
   ID recs
   - Spoke with pharmacy re: ropinirole; unlikely to be contributing
   factor to mental status, given the fact that he's been on it for years
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2112-2-26**] 02:00 AM
   Vancomycin - [**2112-2-26**] 08:07 PM
   Meropenem - [**2112-2-27**] 04:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-26**] 08:11 AM
   Lorazepam (Ativan) - [**2112-2-27**] 04:52 AM
   Fentanyl - [**2112-2-27**] 05:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-27**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96.1
   HR: 112 (98 - 116) bpm
   BP: 122/68(78) {99/40(56) - 151/99(105)} mmHg
   RR: 29 (21 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 3 (1 - 3)mmHg
   Total In:
                                                                  3,245 mL
                                                                    663 mL
   PO:
   TF:
                                                                  1,115 mL
                                                                    435 mL
   IVF:
                                                                  1,850 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    445 mL
   Urine:
                                                                  1,075 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,170 mL
                                                                    218 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   59 K/uL
   9.0 g/dL
   207 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.0 mEq/L
   48 mg/dL
   110 mEq/L
   145 mEq/L
   27.7 %
   14.9 K/uL
        [image002.jpg]
                             [**2112-2-23**]  03:19 PM
                             [**2112-2-24**]  03:12 AM
                             [**2112-2-24**]  04:03 AM
                             [**2112-2-24**]  05:57 PM
                             [**2112-2-25**]  12:23 AM
                             [**2112-2-25**]  10:12 AM
                             [**2112-2-25**]  09:10 PM
                             [**2112-2-26**]  04:28 AM
                             [**2112-2-26**]  06:46 AM
                             [**2112-2-27**]  04:25 AM
   WBC
   6.8
   7.5
   10.1
   14.9
   Hct
   24.9
   25.4
   29.3
   27.7
   Plt
   48
   45
   56
   59
   Cr
   0.6
   0.5
   0.5
   0.6
   0.6
   0.6
   TropT
   0.02
   <0.01
   TCO2
   29
   27
   27
   Glucose
   193
   208
   212
   [**Telephone/Fax (3) 11749**]
   Other labs: PT / PTT / INR:12.2/22.3/1.0, CK / CKMB /
   Troponin-T:46/8/<0.01, ALT / AST:95/108, Alk Phos / T Bili:188/4.2,
   Amylase / Lipase:/34, Differential-Neuts:88.0 %, Band:3.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:401 mg/dL, Lactic Acid:2.7 mmol/L,
   LDH:1850 IU/L, Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, with IR-placed drain
   for management of sigmoid abscess
    # Respiratory status: Desaturates to 80s. CXR normal. No increased
   secretions, could not tolerate an induced sputum cx. Other cxs NGTD.
   Steroids increased to 125 mg QID per primary pulmonologist, put on
   BiPAP o/n. Responds well to Ativan and family. Now on NC 5 lpm and FM
   95%, sats 95-98%, agitated / moaning / thrashing. Denies pain.
   Tachypneic, blowing off
   - On Vanco for empiric HAP. On Bactrim for ppx.
   - TF stopped in case reintubation needed
   - Continue diuresis with Lasix 80mg IV X1-2 today with goal of negative
   2 liters
   - PM lytes and monitor urine output
   - C/w solumedrol now 125mg q8hr
   - F/u cultures
   # Agitation: Appears acutely delirious
 now nonverbal. Reoriented well
   with family and ativna yesterday. Was denying pain yesterday, now
   difficult to assess. ICU delirium vs. steroid psychosis vs. pain vs.
   respiratory distress vs. anxiety
   - EKG this morning to assess QTC and will start Zydis/Seroquel
   - Actively assess for pain and administer Fentanyl 12.5 PRN
   - Continue to hold Cipro for possibility of quinolone-induced altered
   MS
   - Try to have family orient patient and be at the bedside when possible
   - Pt OOB
 chair if safe to do so
   # CAD:  ECG during period of agitation: ST dep in high lateral leads,
   c/w strain pattern. Trops falling.
   - no further trending
   - AM ECG today
   # Sigmoid Abscess: Drain now producing what looks like frank blood
   mixed with stool drainage. Surgery following. On Meropenem, Vanc. Blood
   in drain possibly [**2-2**] recent manipulation. Fistula developing on recent
   imaging.
   - Follow-up Surgery recs re: drain
   - Continue Meropenem per ID recs
   - Appreciate IR and Surgery
s continued following of patient
   # Heme: Confusing heme picture. He has elevated dbili, LDH,
   reticulocyte count, nucleated RBCs, picture c/w hemolysis and brisk
   marrow response. But haptoglobin not low, and pancytopenic generally.
   Heme/onc review of smear: No evidence of DIC, TTP or microangiopathy.
   - Appreciate Heme/Onc recs
   - f/u G6PD level
   - urine hemosiderin
   - (not ordered but discussed w/heme/onc: PNH paroxysmal nocturnal
   hemoglobinuria, complicated sendout blood test)
   # Shoulder pain: Has chronic pain from rotator cuff injury. Takes
   darvocet at home.
   - Continue Tylenol standing and Lidocaine patch
   - Continue with Fentanyl q2hr and monitor for sedation; will offer
   analgesia q2 hours for closer management
   - Reverse trendelenberg and will have patient positioned as upright as
   possible
   .
   # Livedo reticularis: Noted on L hand and on legs at times, not active
   now.
   - Serial exams
   .
   # CAD:  ECG during period of agitation: ST dep in high lateral leads,
   c/w strain pattern. Trops falling.
   - no further trending
   - AM ECG today
   # Thrombocytopenia: Stably low
   - Transfuse to maintain 40-50K
   # Anemia: Hct ~25 after transfusion of pRBC three days ago
   - Transfuse to maintain above 20.
   # DM: Getting long acting and sliding scale, increased two days ago
   - Follow-up [**Last Name (un) 72**] recs
   # FEN: Dobhoff newly placed and functioning well
 c/w Nutren Pulm tube
   feeds for concentration
   # Restless leg: Ropinerole
   # BPH: Flomax
   # Anxiety: Continue SSRI
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Restarted Sotalol with good effect
   # Glycemic Control:  [**Last Name (un) 72**] recs
   # Lines: Multi Lumen RIJ
   # Prophylaxis:  Pneumoboots, IVC filter, Home PPI
 PT working with
   patient
   # Communication:  Patient, family
   # Code status: Full code for now
 will need further discussion
   # Disposition: ICU. PT consulted
 OLIGURIA/ANURIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 DELIRIUM / CONFUSION
 VENTILATION, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 ALTERATION IN TISSUE PERFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 PANCYTOPENIA
 VASCULITIS
   ANCA - negative pulmonary vasculitis
 ALTERATION IN NUTRITION
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 DIABETES MELLITUS (DM), TYPE II
 OBSTRUCTIVE SLEEP APNEA (OSA)
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 BACTEREMIA
 THROMBOCYTOPENIA, ACUTE
 DIVERTICULITIS
   Abscess with percutaneous drain
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2112-2-27**] 03:14 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-02-28 08:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2112-2-27**] 08:15 AM
 EKG - At [**2112-2-27**] 07:49 PM
 ULTRASOUND - At [**2112-2-28**] 02:43 AM
   attempt at bilat u/s to rule out DVT
   - F/u Heme/Onc serologies: [**Doctor Last Name 11748**] pos but rare (rec repeat)
   - F/U Heme/Onc recs: Differential includes hemolysis such as TTP, DIC,
   IVC filter clot, VTE, PNH, autoimmune, G6PD, diffuse alveolar
   hemorrhage reabsorption
   - Surgery recs: Continue course
   - [**First Name8 (NamePattern2) **] [**Last Name (un) 72**]: Increased sliding scale (+ fixed dose already increased)
   - LENIs:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2112-2-26**] 02:00 AM
   Fluconazole - [**2112-2-27**] 01:01 PM
   Vancomycin - [**2112-2-27**] 07:49 PM
   Meropenem - [**2112-2-28**] 03:48 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2112-2-27**] 10:00 AM
   Lorazepam (Ativan) - [**2112-2-28**] 03:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-28**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 127 (99 - 127) bpm
   BP: 107/32(51) {93/32(51) - 139/99(107)} mmHg
   RR: 36 (22 - 40) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 2 (2 - 2)mmHg
   +3.5 for LOS
                                Total In:
                                                                  3,095 mL
                                                                    582 mL
   PO:
                                TF:
                                                                  1,635 mL
                                                                    372 mL
   IVF:
                                                                  1,100 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  1,387 mL
                                                                    335 mL
   Urine:
                                                                  1,355 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
                                                                     32 mL
   Balance:
                                                                  1,708 mL
                                                                    247 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.50/34/81.[**Numeric Identifier **]/28/3
   PaO2 / FiO2: 86
   Physical Examination
   Moaning, non-responsive
   CTA tachypneic
   S1 S2
   Warm dry skin, rash on shin
   Drain draining well, feculent-tan, nonbloody d/c
   Labs / Radiology
   61 K/uL
   8.7 g/dL
   228 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.8 mEq/L
   42 mg/dL
   114 mEq/L
   148 mEq/L
   25.7 %
   14.9 K/uL
        [image002.jpg]
   U/S: no DVT, limited study
   ALT: 104 AP: 190 Tbili: 4.7 AST: 109 LDH: 1805 Dbili: 3.2
                             [**2112-2-24**]  04:03 AM
                             [**2112-2-24**]  05:57 PM
                             [**2112-2-25**]  12:23 AM
                             [**2112-2-25**]  10:12 AM
                             [**2112-2-25**]  09:10 PM
                             [**2112-2-26**]  04:28 AM
                             [**2112-2-26**]  06:46 AM
                             [**2112-2-27**]  04:25 AM
                             [**2112-2-28**]  03:21 AM
                             [**2112-2-28**]  06:34 AM
   WBC
   7.5
   10.1
   14.9
   14.9
   Hct
   25.4
   29.3
   27.7
   25.7
   Plt
   45
   56
   59
   61
   Cr
   0.5
   0.6
   0.6
   0.6
   0.5
   TropT
   0.02
   <0.01
   TCO2
   29
   27
   27
   27
   Glucose
   [**Telephone/Fax (3) 11761**]07
   228
   Other labs: PT / PTT / INR:12.1/21.9/1.0, CK / CKMB /
   Troponin-T:46/8/<0.01, ALT / AST:104/109, Alk Phos / T Bili:190/4.7,
   Amylase / Lipase:/34, Differential-Neuts:88.0 %, Band:3.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:206 mg/dL, Lactic Acid:2.7 mmol/L,
   LDH:1805 IU/L, Ca++:8.3 mg/dL, Mg++:2.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, with IR-placed drain
   for management of sigmoid abscess
   # Hypotension & Fever: Hypotensive to 90s/60s this AM, tachy to 120s,
   fever 100.4, CVP of 2, in setting of blood in drain, b/l anemia and
   thrombocytopenia, dramatic (for him) white count, newly altered MS,
   cold legs. On Vanco for empiric HAP. On Bactrim for ppx. Also Meropenem
   coverage (for sigmoid abscess / GNRs), started Fluconazole [**2-27**]. Looks
   septic.
   - Fluid bolus this AM and monitor UOP (trickling down)
 1L IVF
   - Pan culture with fevers
   - CXR
   - RUQ ultrasound given LFTs and elevated AlkPhos/TBili
   - CT head/abdomen/pelvis today if tolerates lying flat, minimal
   stimulation (will give Methadone first)
   - Broaden his Abx coverage to Cefepime and Flagyl, will discontinue
   Meropenem
   .
   # Respiratory status: Panting / moaning. CXR normal. No increased
   secretions.  Decreased Steroids to Solumedrol 100mg IV q8. On BiPAP
   o/n? He may need reintubated today for agitation / altered mental
   status
 if so will he be extubatable?
   - check AM ABG in setting of tachypnea
   - On Vanco for empiric HAP. On Bactrim for ppx. Also starting
   Cefepime/Flagyl today (for sigmoid abscess / GNRs)
   - Holding on diuresis given CVP 0-2 and relative hypotension
   - Continue Solumedrol 100mg IV TID for now given worsening general
   status
   - F/u cultures
   # Agitation: Appears acutely delirious
 now nonverbal. Calling out
   unintelligibly today despite starting Methadone 5mg (for pain), Zydis,
   Ativan PRN. Differential: ICU delirium vs. prolonged anxiety/fatigue
   vs. respiratory distress vs. pain vs. steroid psychosis vs. cerebral
   vasculitis
   - c/w ativan PRN and Zydis standing
   - CT head to evaluate for cerebral involvement of vasculitis: Less
   likely, his AMS seems c/w pain & agitation
   - Wean steroids as possible
   - Serial EKGs to monitor QTc
   # Pain: Has chronic pain in back, and from rotator cuff injury. Takes
   darvocet at home. D/c
d Fentanyl and started Methadone 5 mg PO
   yesterday. Also on Tylenol standing and Lidocaine patch. No tachy,
   moaning
   - Continue to monitor him on new regimen
   # Sigmoid Abscess: Less bloody drainage. Surgery following. On Vanc,
   Cefepime, Flagyl. Blood in drain possibly [**2-2**] recent manipulation.
   Fistula developing on recent imaging.
   - Start Cefepime, Flagyl per ID recs
   - Appreciate IR and Surgery
s continued following of patient
   # Heme: Confusing heme picture. He has elevated direct bilirubin now,
   LDH, reticulocyte count, nucleated RBCs, picture c/w hemolysis and
   brisk marrow response. But haptoglobin initially not low, and
   pancytopenic generally. Heme/onc review of smear: No evidence of DIC,
   TTP or microangiopathy.
   - Appreciate Heme/Onc recs
   - LENI
s to r/o DVT as source of elevated LDH: Agitated so limited
   study
   - Resend haptoglobin (< 5 on recent lab)
   - f/u G6PD level
   - Follow-up urine hemosiderin
   # Hypernatremia: Likely in setting of altered mental status
   - Increase free water flushes with tube feeds
   # Livedo reticularis: Noted on L hand and on legs at times, not active
   now.
   - Serial exams
   .
   # CAD:  ECG during period of agitation: ST dep in high lateral leads,
   c/w strain pattern. Trops falling.
   - no further trending
   - AM ECG today
   # Thrombocytopenia: Stably low
   - Transfuse to maintain 40-50K
   # Anemia: Hct ~25 after transfusion of pRBC three days ago
   - Transfuse to maintain above 20.
   # DM: Getting long acting and sliding scale, increased two days ago;
   continues to have elevated fingersticks (generally high 200
   - Follow-up [**Last Name (un) 72**] recs
   # Restless leg: Ropinerole
   # BPH: Flomax
   # Anxiety: Continue SSRI
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Restarted Sotalol with good effect
   # FEN: Dobhoff newly placed and functioning well
 may consider
   switching from Nutren Pulm to original tube feeds given hyperglycemia
   and hypovolemia
   # Lines: Multi Lumen RIJ
   # Prophylaxis:  Pneumoboots, IVC filter, Home PPI
 PT working with
   patient
   # Communication:  Patient, family
   # Code status: Full code for now
 will need further discussion
   # Disposition: ICU. PT consulted

2112-02-28 09:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with pauci-immune vasculitis, sigmoid abscess.  Overnight
   patient with continued delirium, BP lower (90s/60s).  Febrile to 100.4
   24 Hour Events:
 EKG - At [**2112-2-27**] 08:15 AM
 EKG - At [**2112-2-27**] 07:49 PM
 ULTRASOUND - At [**2112-2-28**] 02:43 AM
   attempt at bilat u/s to rule out DVT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2112-2-26**] 02:00 AM
   Fluconazole - [**2112-2-27**] 01:01 PM
   Meropenem - [**2112-2-28**] 03:48 AM
   Vancomycin - [**2112-2-28**] 08:14 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2112-2-27**] 10:00 AM
   Pantoprazole (Protonix) - [**2112-2-28**] 08:14 AM
   Lorazepam (Ativan) - [**2112-2-28**] 08:24 AM
   Other medications:
   sotalol
   paroxetine
   ropinurol
   bactrim
   tamsulosin
   tylenol
   lido patch
   medrol 100mg q8h
   olanzipine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-28**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 122 (99 - 127) bpm
   BP: 96/66(73) {93/32(51) - 139/99(107)} mmHg
   RR: 41 (22 - 41) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 2 (2 - 2)mmHg
   Total In:
                                                                  3,095 mL
                                                                  1,188 mL
   PO:
   TF:
                                                                  1,635 mL
                                                                    386 mL
   IVF:
                                                                  1,100 mL
                                                                    572 mL
   Blood products:
   Total out:
                                                                  1,387 mL
                                                                    370 mL
   Urine:
                                                                  1,355 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
                                                                     32 mL
   Balance:
                                                                  1,708 mL
                                                                    818 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: 7.50/34/81.[**Numeric Identifier **]/28/3
   PaO2 / FiO2: 86
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Cool
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed, opens
   eye to voice
   Labs / Radiology
   8.7 g/dL
   61 K/uL
   228 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.8 mEq/L
   42 mg/dL
   114 mEq/L
   148 mEq/L
   25.7 %
   14.9 K/uL
        [image002.jpg]
                             [**2112-2-24**]  04:03 AM
                             [**2112-2-24**]  05:57 PM
                             [**2112-2-25**]  12:23 AM
                             [**2112-2-25**]  10:12 AM
                             [**2112-2-25**]  09:10 PM
                             [**2112-2-26**]  04:28 AM
                             [**2112-2-26**]  06:46 AM
                             [**2112-2-27**]  04:25 AM
                             [**2112-2-28**]  03:21 AM
                             [**2112-2-28**]  06:34 AM
   WBC
   7.5
   10.1
   14.9
   14.9
   Hct
   25.4
   29.3
   27.7
   25.7
   Plt
   45
   56
   59
   61
   Cr
   0.5
   0.6
   0.6
   0.6
   0.5
   TropT
   0.02
   <0.01
   TCO2
   29
   27
   27
   27
   Glucose
   [**Telephone/Fax (3) 11761**]07
   228
   Other labs: PT / PTT / INR:12.1/21.9/1.0, CK / CKMB /
   Troponin-T:46/8/<0.01, ALT / AST:104/109, Alk Phos / T Bili:190/4.7,
   Amylase / Lipase:/34, Differential-Neuts:88.0 %, Band:3.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:206 mg/dL, Lactic Acid:2.7 mmol/L,
   LDH:1805 IU/L, Ca++:8.3 mg/dL, Mg++:2.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Tachycardia/HOTN/low grade fevers:  Consistent with ongoing sepsis.
   Will see if he can lie down for a CT in ICU.  Will get CT of
   head,chest, abdomen,pelvis.
   change meropenem to cefepime/flagyl as per ID.  RUQ U/S in the meantime
   Respiratory distress:  Will get repeat CXR, but doubt fluid overload as
   cause.  more likely aspiration/poor clearance of mucous due to poor MS.
   Agitation:  Slighly better controlled yesterday - he slept for 8 hours
   yesterday.
   Heme:  labs consistent with hemolysis - unclear cause.
   hyperglycemia:  increase glargine and SSI.
   sigmoid abscess:  draining feculent material, but too high risk for
   surgery currently.
   hypernatremia:  Increased free water boluses
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2112-2-28**] 08:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2112-02-29 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2112-2-28**] 08:13 AM
 PAN CULTURE - At [**2112-2-28**] 10:01 AM
   Blood C&S from RIJ TLC red port, RUE venipuncture and Urine C&S via
   foley catheter.
   - Slept o/n with Methadone but in AM febrile 100.4 (axillary), moaning,
   hypotensive, tachy
   * 1 L NS w/good response
   * D/c'd Meropenem (on for 3 weeks), started Cefepime/Flagyl
   * D/c'd Fluconazole, of note fever began soon after Fluc started?
   - Able to lie flat here
   - CT head: no acute process
   - CT torso: no PE, no effusion. Increase in diffuse ground glass
   opacities. Abd: No new collections, old collection gone -- drained?
   * surgery paged FYI re CT results, their input will be in AM
   - [**Last Name (un) 72**] recs: up glargine from 48 to 50 units [**Hospital1 **] (nursing continues
   to half the dose at times when he is NPO, [**Last Name (un) 72**] ?aware)
   - heme recs: ?
   - big issue now is his mental status: plan is to hold his 0400 AM prn
   Ativan see if it matters
   - 2430 moaning again
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-2-28**] 03:48 AM
   Fluconazole - [**2112-2-28**] 10:15 AM
   Vancomycin - [**2112-2-28**] 08:17 PM
   Cefipime - [**2112-2-28**] 11:25 PM
   Metronidazole - [**2112-2-29**] 02:48 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-28**] 08:14 AM
   Lorazepam (Ativan) - [**2112-2-28**] 11:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-29**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 110 (95 - 122) bpm
   BP: 119/78(85) {91/51(61) - 128/78(86)} mmHg
   RR: 27 (22 - 41) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 2 (2 - 4)mmHg
   Total In:
                                                                  3,502 mL
                                                                    760 mL
   PO:
   TF:
                                                                    979 mL
                                                                    415 mL
   IVF:
                                                                  2,133 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    605 mL
   Urine:
                                                                  1,420 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,082 mL
                                                                    155 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   52 K/uL
   8.2 g/dL
   153 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.4 mEq/L
   49 mg/dL
   118 mEq/L
   150 mEq/L
   25.0 %
   15.3 K/uL
        [image002.jpg]
                             [**2112-2-24**]  05:57 PM
                             [**2112-2-25**]  12:23 AM
                             [**2112-2-25**]  10:12 AM
                             [**2112-2-25**]  09:10 PM
                             [**2112-2-26**]  04:28 AM
                             [**2112-2-26**]  06:46 AM
                             [**2112-2-27**]  04:25 AM
                             [**2112-2-28**]  03:21 AM
                             [**2112-2-28**]  06:34 AM
                             [**2112-2-29**]  04:17 AM
   WBC
   7.5
   10.1
   14.9
   14.9
   15.3
   Hct
   25.4
   29.3
   27.7
   25.7
   25.0
   Plt
   45
   56
   59
   61
   52
   Cr
   0.5
   0.6
   0.6
   0.6
   0.5
   0.6
   TropT
   0.02
   <0.01
   TCO2
   27
   27
   27
   Glucose
   [**Telephone/Fax (2) 11766**]
   Other labs: PT / PTT / INR:12.2/21.9/1.0, CK / CKMB /
   Troponin-T:46/8/<0.01, ALT / AST:138/146, Alk Phos / T Bili:200/5.7,
   Amylase / Lipase:/34, Differential-Neuts:88.0 %, Band:3.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:206 mg/dL, Lactic Acid:2.7 mmol/L,
   LDH:1805 IU/L, Ca++:8.3 mg/dL, Mg++:2.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, with IR-placed drain
   for management of sigmoid abscess
   # Hypotension & Fever: Hypotensive to 90s/60s this AM, tachy to 120s,
   fever 100.4, CVP of 2, in setting of blood in drain, b/l anemia and
   thrombocytopenia, dramatic (for him) white count, newly altered MS,
   cold legs. On Vanco for empiric HAP. On Bactrim for ppx. Also Meropenem
   coverage (for sigmoid abscess / GNRs), started Fluconazole [**2-27**]. Looks
   septic.
   - Fluid bolus this AM and monitor UOP (trickling down)
 1L IVF
   - Pan culture with fevers
   - CXR
   - RUQ ultrasound given LFTs and elevated AlkPhos/TBili
   - CT head/abdomen/pelvis today if tolerates lying flat, minimal
   stimulation (will give Methadone first)
   - Broaden his Abx coverage to Cefepime and Flagyl, will discontinue
   Meropenem
   # Respiratory status: Panting / moaning. CXR normal. No increased
   secretions.  Decreased Steroids to Solumedrol 100mg IV q8. On BiPAP
   o/n? He may need reintubated today for agitation / altered mental
   status
 if so will he be extubatable?
   - check AM ABG in setting of tachypnea
   - On Vanco for empiric HAP. On Bactrim for ppx. Also starting
   Cefepime/Flagyl today (for sigmoid abscess / GNRs)
   - Holding on diuresis given CVP 0-2 and relative hypotension
   - Continue Solumedrol 100mg IV TID for now given worsening general
   status
   - F/u cultures
   # Agitation: Appears acutely delirious
 now nonverbal. Calling out
   unintelligibly today despite starting Methadone 5mg (for pain), Zydis,
   Ativan PRN. Differential: ICU delirium vs. prolonged anxiety/fatigue
   vs. respiratory distress vs. pain vs. steroid psychosis vs. cerebral
   vasculitis
   - c/w ativan PRN and Zydis standing
   - CT head to evaluate for cerebral involvement of vasculitis: Less
   likely, his AMS seems c/w pain & agitation
   - Wean steroids as possible
   - Serial EKGs to monitor QTc
   # Pain: Has chronic pain in back, and from rotator cuff injury. Takes
   darvocet at home. D/c
d Fentanyl and started Methadone 5 mg PO
   yesterday. Also on Tylenol standing and Lidocaine patch. No tachy,
   moaning
   - Continue to monitor him on new regimen
   # Sigmoid Abscess: Less bloody drainage. Surgery following. On Vanc,
   Cefepime, Flagyl. Blood in drain possibly [**2-2**] recent manipulation.
   Fistula developing on recent imaging.
   - Start Cefepime, Flagyl per ID recs
   - Appreciate IR and Surgery
s continued following of patient
   # Heme: Confusing heme picture. He has elevated direct bilirubin now,
   LDH, reticulocyte count, nucleated RBCs, picture c/w hemolysis and
   brisk marrow response. But haptoglobin initially not low, and
   pancytopenic generally. Heme/onc review of smear: No evidence of DIC,
   TTP or microangiopathy.
   - Appreciate Heme/Onc recs
   - LENI
s to r/o DVT as source of elevated LDH: Agitated so limited
   study
   - Resend haptoglobin (< 5 on recent lab)
   - f/u G6PD level
   - Follow-up urine hemosiderin
   # Hypernatremia: Likely in setting of altered mental status
   - Increase free water flushes with tube feeds
   # Livedo reticularis: Noted on L hand and on legs at times, not active
   now.
   - Serial exams
   # CAD:  ECG during period of agitation: ST dep in high lateral leads,
   c/w strain pattern. Trops falling.
   - no further trending
   - AM ECG today
   # Thrombocytopenia: Stably low
   - Transfuse to maintain 40-50K
   # Anemia: Hct ~25 after transfusion of pRBC three days ago
   - Transfuse to maintain above 20.
   # DM: Getting long acting and sliding scale, increased two days ago;
   continues to have elevated fingersticks (generally high 200
   - Follow-up [**Last Name (un) 72**] recs
   # Restless leg: Ropinerole
   # BPH: Flomax
   # Anxiety: Continue SSRI
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Restarted Sotalol with good effect
   # FEN: Dobhoff newly placed and functioning well
 may consider
   switching from Nutren Pulm to original tube feeds given hyperglycemia
   and hypovolemia
   # Lines: Multi Lumen RIJ
   # Prophylaxis:  Pneumoboots, IVC filter, Home PPI
 PT working with
   patient
   # Communication:  Patient, family
   # Code status: Full code for now
 will need further discussion
   # Disposition: ICU. PT consulted
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2112-2-29**] 02:47 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   20 Gauge - [**2112-2-28**] 04:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-03-01 06:22:00 Physician Resident Progress Note
24 Hour Events:
   9:15 PM intubated for tacchypnea, respiratory distress
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-2-28**] 03:48 AM
   Fluconazole - [**2112-2-28**] 10:15 AM
   Vancomycin - [**2112-2-29**] 08:01 PM
   Cefipime - [**2112-2-29**] 10:31 PM
   Metronidazole - [**2112-3-1**] 02:07 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2112-3-1**] 03:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-1**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 101 (93 - 128) bpm
   BP: 93/50(60) {93/45(60) - 141/88(95)} mmHg
   RR: 16 (16 - 52) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 0 (-17 - 13)mmHg
   Total In:
                                                                  3,648 mL
                                                                  1,886 mL
   PO:
   TF:
                                                                  1,237 mL
                                                                    350 mL
   IVF:
                                                                  1,491 mL
                                                                  1,226 mL
   Blood products:
   Total out:
                                                                  1,785 mL
                                                                    520 mL
   Urine:
                                                                  1,765 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
                                                                     20 mL
   Balance:
                                                                  1,863 mL
                                                                  1,366 mL
   Respiratory support
   O2 Delivery Device: Bipap mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnPres
   Vt (Set): 450 (0 - 450) mL
   Vt (Spontaneous): 724 (0 - 823) mL
   PS : 15 cmH2O
   RR (Set): 28
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 27 cmH2O
   SpO2: 97%
   ABG: 7.33/47/52/24/-1
   Ve: 12.3 L/min
   PaO2 / FiO2: 74
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   48 K/uL
   7.8 g/dL
   221 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.6 mEq/L
   56 mg/dL
   115 mEq/L
   144 mEq/L
   22.0 %
   9.9 K/uL
        [image002.jpg]
                             [**2112-2-26**]  06:46 AM
                             [**2112-2-27**]  04:25 AM
                             [**2112-2-28**]  03:21 AM
                             [**2112-2-28**]  06:34 AM
                             [**2112-2-29**]  04:17 AM
                             [**2112-2-29**]  01:12 PM
                             [**2112-2-29**]  03:30 PM
                             [**2112-2-29**]  11:52 PM
                             [**2112-3-1**]  03:37 AM
                             [**2112-3-1**]  05:04 AM
   WBC
   14.9
   14.9
   15.3
   9.7
   9.9
   Hct
   27.7
   25.7
   25.0
   24.0
   22.0
   Plt
   59
   61
   52
   47
   48
   Cr
   0.6
   0.5
   0.6
   0.7
   0.8
   TCO2
   27
   27
   24
   28
   26
   Glucose
   [**Telephone/Fax (3) 11778**]67
   221
   Other labs: PT / PTT / INR:13.0/24.2/1.1, CK / CKMB /
   Troponin-T:46/8/<0.01, ALT / AST:138/146, Alk Phos / T Bili:200/5.7,
   Amylase / Lipase:/34, Differential-Neuts:88.0 %, Band:3.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:206 mg/dL, Lactic Acid:1.5 mmol/L,
   LDH:1805 IU/L, Ca++:7.8 mg/dL, Mg++:2.7 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, with IR-placed drain
   for management of sigmoid abscess
   # Respiratory status: Pt intubated over night in setting of tacchypnea,
   increased work of breathing, discomfort. Pt currently on PSV 15, PEEP 8
   - Continuing Vanc/Cefepime Flagyl for empiric PNA coverage
   - Plan for bronchoscopy w/ BAL today
   - Will send BAL fluid for galactomannan, PCP stains, Nocardia cx and
   stains, fungal stains per ID recs
   - Hold on starting bactrim 15 mg/kg IV q8 until results back
   - Continue Solumedrol 100 mg IV q8
   - Plan to place a-line to check serial ABGs for monitoring of
   oxygenation
   .
   # Hypotension & Fever: Pt BP normal/low-normal last 24 hours. Has been
   afebrile last 24 hours. Continuing Vanc, Cefepime, Flagyl for empiric
   coverage
   - Continue fluid bolus if MAP <65
   - Pan culture if febrile
   - Continue vanco/cefepime/ flagyl
   - Bronchoscopy and BAL to eval for possible pulmonary source of
   infection such as PCP, [**Name Initial (NameIs) 11779**]
   .
   # Agitation: Prior to intubation yesterday PM, Pt appeared
   intermittently agitated, appearing uncomfortable despite Zydis.
   Suspect: ICU delirium vs. prolonged anxiety/fatigue vs. respiratory
   distress vs. pain vs. steroid psychosis vs. cerebral vasculitis.
   rebound delirium. Pt currently well sedated on Propofol gtt.
   - c/w Zydis [**Hospital1 **]
   - Continue SSRI
   - Wean steroids as possible
   - propofol gtt and fentanyl gtt to allow for titration
   .
   ## DM: Getting long acting and sliding scale, increased two days ago;
   fingersticks 200
   - Increase sliding scale
   - Follow-up [**Last Name (un) 72**] recs
   - Start diabetic tube feeds and start checking fingersticks q4 hours
   - Can consider insulin gtt if Pt still with persistently elevated
   glucose
   .
   # Pain: Has chronic pain in back, and from rotator cuff injury.
    -Continuing Lidocaine patch
   - Holding delirium inducing medications
   # Sigmoid Abscess: Less bloody drainage. Surgery following. On Vanc,
   Cefepime, Flagyl. Brown drainiage from drain recently.  [**Month (only) 8**] be fecal in
   nature.  Fistula developing on recent imaging.
   - Continuing Vanc/Cefepime/Flagyl
   - Appreciate IR and Surgery
s continued following of patient
   # Heme: Confusing heme picture. Continues to have elevated direct
   bilirubin now, LDH, reticulocyte count, nucleated RBCs, picture c/w
   hemolysis and brisk marrow response. But haptoglobin initially not low,
   and pancytopenic generally. Heme/onc review of smear: No evidence of
   DIC, TTP or microangiopathy.  Possible  effect of fluconazole
   - Appreciate Heme/Onc recs
   - Per heme/onc considering inpatient bone marrow biopsy
   - Attempting to limit bone marrow suppressive medications
   - f/u final SPEP, UPEP results
   - Resend haptoglobin (< 5 on recent lab)
   - f/u G6PD level
   .
   # Hypernatremia: Likely in setting of altered mental status. Na has
   normalized to 144 this AM
   - Increased free water flushes with tube feeds to 250 q6h yesterday.
   Will continue at current rate.
   - f/u PM lytes
   .
   # Livedo reticularis: Noted on L hand and on legs at times, not active
   now.
   - Serial exams
   .
   # CAD:  ECG during period of agitation: ST dep in high lateral leads,
   c/w strain pattern. Trops falling.
   - no further trending
   .
   # Thrombocytopenia: Stably low
   - Transfuse to maintain 40-50K
   # Anemia: Hct 22 this AM
   - Transfuse to maintain above 20.
   - Cont to follow heme/onc recs
   # Restless leg:
   -DC ropinirole d/t sedating and hallucinatory side effects
   # BPH: Holding Flomax for now.
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Restarted Sotalol with good effect  since yesterday
   # FEN: Dobhoff newly placed and functioning well
 may consider
   switching from Nutren Pulm to original tube feeds given hyperglycemia
   and hypovolemia
   # Lines: Multi Lumen RIJ, A-line
   # Prophylaxis:  Pneumoboots, IVC filter, Home PPI
 PT working with
   patient
   # Communication:  Patient, family
   # Code status: Full code for now
 will need further discussion
   # Disposition: ICU. PT consulted
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2112-2-29**] 10:30 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   20 Gauge - [**2112-2-28**] 04:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-03-02 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Acidotic yesterday, switched to rate control with improved gas
   ID recommended IV Bactrim
   Plan for BM biopsy this evening
   At 9 pm, drain producing stool, surgery called and did not recommend
   acute intervention, but will get IR involved today.
   UOP decreasing, bolused with 1L NS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2112-2-28**] 10:15 AM
   Vancomycin - [**2112-3-1**] 08:00 PM
   Cefipime - [**2112-3-1**] 10:09 PM
   Metronidazole - [**2112-3-2**] 03:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-3-1**] 09:54 AM
   Propofol - [**2112-3-2**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-2**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.5
C (97.7
   HR: 93 (89 - 108) bpm
   BP: 88/50(62) {85/49(-2) - 121/70(85)} mmHg
   RR: 15 (12 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 5 (0 - 5)mmHg
   Total In:
                                                                  4,610 mL
                                                                  1,679 mL
   PO:
   TF:
                                                                  1,189 mL
                                                                    377 mL
   IVF:
                                                                  2,492 mL
                                                                  1,052 mL
   Blood products:
   Total out:
                                                                  1,385 mL
                                                                    345 mL
   Urine:
                                                                  1,370 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
                                                                     15 mL
   Balance:
                                                                  3,225 mL
                                                                  1,334 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 750 (0 - 872) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 16 cmH2O
   Compliance: 150 cmH2O/mL
   SpO2: 92%
   ABG: 7.34/41/76.[**Numeric Identifier 299**]/21/-3
   Ve: 12 L/min
   PaO2 / FiO2: 152
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   48 K/uL
   7.8 g/dL
   147 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.9 mEq/L
   59 mg/dL
   114 mEq/L
   140 mEq/L
   24.5 %
   13.5 K/uL
        [image002.jpg]
                             [**2112-3-1**]  05:04 AM
                             [**2112-3-1**]  09:51 AM
                             [**2112-3-1**]  01:00 PM
                             [**2112-3-1**]  03:20 PM
                             [**2112-3-1**]  03:33 PM
                             [**2112-3-1**]  05:29 PM
                             [**2112-3-2**]  12:55 AM
                             [**2112-3-2**]  12:58 AM
                             [**2112-3-2**]  04:20 AM
                             [**2112-3-2**]  06:26 AM
   WBC
   13.5
   Hct
   24.5
   Plt
   48
   Cr
   1.0
   1.2
   TCO2
   26
   28
   27
   26
   25
   24
   23
   23
   Glucose
   189
   147
   Other labs: PT / PTT / INR:13.0/24.2/1.1, CK / CKMB /
   Troponin-T:46/8/<0.01, ALT / AST:131/141, Alk Phos / T Bili:203/5.0,
   Amylase / Lipase:/34, Differential-Neuts:88.0 %, Band:3.0 %, Lymph:6.0
   %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:206 mg/dL, Lactic Acid:1.5 mmol/L,
   LDH:1805 IU/L, Ca++:8.2 mg/dL, Mg++:2.8 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, with IR-placed drain
   for management of sigmoid abscess
   # Respiratory status: Pt intubated over night in setting of tacchypnea,
   increased work of breathing, discomfort. Pt currently on PSV 15, PEEP 8
   - Continuing Vanc/Cefepime Flagyl for empiric PNA coverage
   - Plan for bronchoscopy w/ BAL today
   - Will send BAL fluid for galactomannan, PCP stains, Nocardia cx and
   stains, fungal stains per ID recs
   - Hold on starting bactrim 15 mg/kg IV q8 until results back
   - Continue Solumedrol 100 mg IV q8
   - Plan to place a-line to check serial ABGs for monitoring of
   oxygenation
   # Hypotension & Fever: Pt BP normal/low-normal last 24 hours. Has been
   afebrile last 24 hours. Continuing Vanc, Cefepime, Flagyl for empiric
   coverage
   - Continue fluid bolus if MAP <65
   - Pan culture if febrile
   - Continue vanco/cefepime/ flagyl
   - Bronchoscopy and BAL to eval for possible pulmonary source of
   infection such as PCP, [**Name Initial (NameIs) 11779**]
   # Agitation: Prior to intubation yesterday PM, Pt appeared
   intermittently agitated, appearing uncomfortable despite Zydis.
   Suspect: ICU delirium vs. prolonged anxiety/fatigue vs. respiratory
   distress vs. pain vs. steroid psychosis vs. cerebral vasculitis.
   rebound delirium. Pt currently well sedated on Propofol gtt
   - c/w Zydis [**Hospital1 **]
   - Continue SSRI
   - Wean steroids as possible
   - propofol gtt and fentanyl gtt to allow for titration
   ## DM: Getting long acting and sliding scale, increased two days ago;
   fingersticks 200
   - Increase sliding scale
   - Follow-up [**Last Name (un) 72**] recs
   - Start diabetic tube feeds and start checking fingersticks q4 hours
   - Can consider insulin gtt if Pt still with persistently elevated
   glucose
   # Pain: Has chronic pain in back, and from rotator cuff injury.
    -Continuing Lidocaine patch
   - Holding delirium inducing medications
   # Sigmoid Abscess: Less bloody drainage. Surgery following. On Vanc,
   Cefepime, Flagyl. Brown drainiage from drain recently.  [**Month (only) 8**] be fecal in
   nature.  Fistula developing on recent imaging.
   - Continuing Vanc/Cefepime/Flagyl
   - Appreciate IR and Surgery
s continued following of patient
   # Heme: Confusing heme picture. Continues to have elevated direct
   bilirubin now, LDH, reticulocyte count, nucleated RBCs, picture c/w
   hemolysis and brisk marrow response. But haptoglobin initially not low,
   and pancytopenic generally. Heme/onc review of smear: No evidence of
   DIC, TTP or microangiopathy.  Possible  effect of fluconazole
   - Appreciate Heme/Onc recs
   - Per heme/onc considering inpatient bone marrow biopsy
   - Attempting to limit bone marrow suppressive medications
   - f/u final SPEP, UPEP results
   - Resend haptoglobin (< 5 on recent lab)
   - f/u G6PD level
   # Hypernatremia: Likely in setting of altered mental status. Na has
   normalized to 144 this AM
   - Increased free water flushes with tube feeds to 250 q6h yesterday.
   Will continue at current rate.
   - f/u PM lytes
   # Livedo reticularis: Noted on L hand and on legs at times, not active
   now.
   - Serial exams
   # CAD:  ECG during period of agitation: ST dep in high lateral leads,
   c/w strain pattern. Trops falling.
   - no further trending
   # Thrombocytopenia: Stably low
   - Transfuse to maintain 40-50K
   # Anemia: Hct 22 this AM
   - Transfuse to maintain above 20.
   - Cont to follow heme/onc recs
   # Restless leg:
   -DC ropinirole d/t sedating and hallucinatory side effects
   # BPH: Holding Flomax for now.
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Restarted Sotalol with good effect  since yesterday
   # FEN: Dobhoff newly placed and functioning well
 may consider
   switching from Nutren Pulm to original tube feeds given hyperglycemia
   and hypovolemia
   # Lines: Multi Lumen RIJ, A-line, 20 gauge PIV
   # Prophylaxis:  Pneumoboots, IVC filter, Home PPI
 PT working with
   patient
   # Communication:  Patient, family
   # Code status: Full code for now
 will need further discussion
   # Disposition: ICU. PT consulted

2112-03-03 07:01:00 Physician Resident Progress Note
24 Hour Events:
   Pt. with large amount of stool draining around R abdominal drain site.
   Flouro study shows drain extraluminal with fistula to colon.  Surgery
   recommended restarting tube feeds, no operative solution, colostomy bag
   placed over top.  Spoke with [**Last Name (un) 72**] and d/t TF restarted will give
   regular insulin q6h.
   Pt. somewhat hypothermic during the evening with temp to 35 oral,
   started on bair hugger.  Bair DC'd ~3 am and temp at 6am 100.0.  Pt.
   pan cultured
   Vanc trough pending, once resulted will c/s with pharmacy to determine
   new dose
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2112-3-1**] 08:00 PM
   Cefipime - [**2112-3-1**] 10:09 PM
   Meropenem - [**2112-3-3**] 12:00 AM
   Metronidazole - [**2112-3-3**] 02:13 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Propofol - 45 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-3-2**] 08:00 PM
   Fentanyl - [**2112-3-3**] 05:22 AM
   Propofol - [**2112-3-3**] 05:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-3**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 102 (72 - 112) bpm
   BP: 123/65(83) {94/49(63) - 138/65(86)} mmHg
   RR: 26 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 5 (3 - 5)mmHg
   Total In:
                                                                  7,126 mL
                                                                  1,599 mL
   PO:
   TF:
                                                                    861 mL
                                                                    385 mL
   IVF:
                                                                  5,225 mL
                                                                  1,214 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,385 mL
                                                                    380 mL
   Urine:
                                                                  1,035 mL
                                                                    380 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                  5,741 mL
                                                                  1,219 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 12 cmH2O
   SpO2: 95%
   ABG: 7.30/38/86.[**Numeric Identifier 253**]/18/-6
   Ve: 11.5 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Gen: Sedated, intubated, does not arouse to follow simple commands
   HEENT: MMM, PERRLA
   Resp: CTA anteriorly
   Cards: rrr no m/r/g
   Abd: Obese, nt/nd, +BS. R sided drain in place w/ colostomy bag
   draining brown stool. Patchy area of warmth and erythema noted
   laterally to colostomy site
   Ext: WWP, no c/c/e
   Neuro: unable to assess
   Labs / Radiology
   34 K/uL
   8.4 g/dL
   126 mg/dL
   1.5 mg/dL
   18 mEq/L
   5.2 mEq/L
   63 mg/dL
   117 mEq/L
   140 mEq/L
   24.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2112-3-2**]  06:20 AM
                             [**2112-3-2**]  06:26 AM
                             [**2112-3-2**]  11:48 AM
                             [**2112-3-2**]  12:11 PM
                             [**2112-3-2**]  04:07 PM
                             [**2112-3-2**]  04:32 PM
                             [**2112-3-2**]  04:55 PM
                             [**2112-3-3**]  04:42 AM
                             [**2112-3-3**]  05:02 AM
                             [**2112-3-3**]  06:09 AM
   WBC
   8.8
   7.9
   7.0
   7.2
   Hct
   19.0
   25.0
   25.5
   24.3
   Plt
   46
   39
   36
   34
   Cr
   1.2
   1.3
   1.5
   TCO2
   23
   22
   21
   19
   19
   Glucose
   126
   68
   126
   Other labs: PT / PTT / INR:11.0/23.8/0.9, CK / CKMB /
   Troponin-T:46/8/<0.01, ALT / AST:139/161, Alk Phos / T Bili:282/4.6,
   Amylase / Lipase:/44, Differential-Neuts:98.0 %, Band:0.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:206 mg/dL, Lactic Acid:1.6 mmol/L,
   Albumin:2.2 g/dL, LDH:[**2067**] IU/L, Ca++:7.9 mg/dL, Mg++:2.8 mg/dL,
   PO4:5.9 mg/dL
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, with IR-placed drain
   for management of sigmoid abscess
   # Shock: likely septic. Hct falling to 19 with guiaic positive stool
   coming out of drain. S/p transfusion of 2units PRBCs yesterday. Hct
   bumped to 25 post tx, 24.3 currently. Pt hypothermic overnight to 35 C.
   Bear hugger initiated. Currently off and w/ low grade temp. Has been
   maintaining BP. Per surgery, no surgical intervention at this time.
   - bolusing with IVF as needed to maintain CVP > 10
   - Will check [**Hospital1 **] hct and transfuse for Hct for goal > 20
   - track serial lactate (most recent 1.6) [**Hospital1 **]
   - monitor UOP
   - Blood culture and urine cultures this morning. No new cx data
   - Continue vanco/flagyl/[**Last Name (un) **]
   - call lab for PCP [**Name Initial (PRE) 8031**]
   .
   # Sigmoid Abscess: Less bloody drainage. Surgery following
   interventions at this time. On Vanc, Cefepime, Flagyl. Fecal drainage.
   Fistula on recent imaging.
   - Continuing Vanc/Cefepime/Flagyl
   - Appreciate IR and Surgery
s continued following of patient
   # Goals of care
   - continue to update family on his status
   # Respiratory status: unchanged at the moment. Pt intubated over night
   in setting of tachypnea, increased work of breathing, discomfort.
   - trial of awakening and pressure support then wean down and reassess
   mental status
   - Awaiting PCP data
   [**Name Initial (PRE) **] Continuing Vanc/Cefepime Flagyl for empiric PNA coverage
   - BAL did not show too much hemorrhage
   - Continue Solumedrol at 60 IV q8 pending discussion with pulm
   - f/u BAL for galactomannan, PCP stains, Nocardia cx and stains, fungal
   stains per ID recs
   - wait on IV bactrim until BAL results are back
   # Acute Kidney injury
   - Creatinine up to 1.5 today
   - renally dose all meds
   - Continue to trend closely
   - hold vanc pending next vanc level
   - will stop IVF and see how does; if needs it will switch to HCO3
   # Anemia: now acute, with guiaic positive stool as above, hct at 24.5
   from 19 yesterday
   - transfuse as above
   - monitor Hct [**Hospital1 **]
   - cont to follow heme/onc recs
   # Heme: Confusing heme picture. Continues to have elevated direct
   bilirubin now, LDH, reticulocyte count, nucleated RBCs, picture c/w
   hemolysis and brisk marrow response. But haptoglobin initially not low,
   and pancytopenic generally. Heme/onc review of smear: No evidence of
   DIC, TTP or microangiopathy. Possible  effect of fluconazole. SPEP and
   UPEP results
 polyclonal IgG without spikes, likely [**2-2**] recent IVIG.
   G6PD level WNL.
   - Appreciate Heme/Onc recs
   - Per heme/onc considering inpatient bone marrow biopsy but on hold for
   now given clinical condition; will plan to bx if PCP is positive and we
   need to start IV bactrim
   - Attempting to limit bone marrow suppressive medications
   # DM: Getting long acting and sliding scale, increased two days ago;
   fingersticks 200
   - Increase sliding scale
   - Follow-up [**Last Name (un) 72**] recs
   - Start diabetic tube feeds and start checking fingersticks q4 hours
   - Can consider insulin gtt if pt still with persistently elevated
   glucose
   # Hypernatremia: Resolved. Given NPO status and bowel rest will stop
   flushes.
   - f/u PM lytes
   # Pain: Has chronic pain in back, and from rotator cuff injury.
   -Continuing Lidocaine patch
   - Holding delirium inducing medications
   # Agitation: Prior to intubation yesterday PM, Pt appeared
   intermittently agitated, appearing uncomfortable despite Zydis.
   Suspect: ICU delirium vs. prolonged anxiety/fatigue vs. respiratory
   distress vs. pain vs. steroid psychosis vs. cerebral vasculitis.
   rebound delirium. Pt currently well sedated on Propofol gtt
   - c/w Zydis [**Hospital1 **]
   - Continue SSRI
   - Wean steroids as possible
   - propofol gtt and fentanyl gtt to allow for titration
   # Livedo reticularis: Noted on L hand and on legs at times, not active
   now.
   - Serial exams
   # CAD:  ECG during period of agitation: ST dep in high lateral leads,
   c/w strain pattern. Trops falling.
   - no further trending
   # Thrombocytopenia: falling
   - Transfuse to maintain PLT > 15K
   # Restless leg:
   -DC ropinirole d/t sedating and hallucinatory side effects
   # BPH: Holding Flomax for now.
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Currently relatively hypotensive. Bolus as above.
   - will continue Sotalol for AF for now, if need to stop will consider
   # FEN: Dobhoff newly placed and functioning well
 may consider
   switching from Nutren Pulm to original tube feeds given hyperglycemia
   and hypovolemia
   # Lines:
   Multi Lumen RIJ
 consider removing (placed ~2 weeks ago) and placing
   PICC
   A-line
   20 gauge PIV
   # Prophylaxis:
   - Pneumoboots
   - IVC filter
   - continue PPI to [**Hospital1 **]
   # Communication: Patient, family
   # Code status: Full code for now
 will need further discussion
   # Disposition: ICU. PT consulted
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2112-3-2**] 04:58 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   Arterial Line - [**2112-3-1**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-03-04 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   HCT to 21 last night, given 2 units PRBCs.
   This morning patient was noted to be frankly bleeding from his pouch
   and surgery was notified.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2112-3-1**] 08:00 PM
   Cefipime - [**2112-3-1**] 10:09 PM
   Meropenem - [**2112-3-3**] 08:00 PM
   Metronidazole - [**2112-3-4**] 01:44 AM
   Infusions:
   Fentanyl - 80 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2112-3-3**] 08:29 PM
   Propofol - [**2112-3-3**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-4**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.8
C (98.3
   HR: 89 (81 - 100) bpm
   BP: 134/62(83) {102/49(65) - 140/69(89)} mmHg
   RR: 29 (9 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 274 (-9 - 275)mmHg
   Total In:
                                                                  4,172 mL
                                                                    772 mL
   PO:
   TF:
                                                                  1,320 mL
                                                                    293 mL
   IVF:
                                                                  2,732 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    315 mL
   Urine:
                                                                  1,095 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,077 mL
                                                                    457 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 772 (0 - 772) mL
   PS : 8 cmH2O
   RR (Set): 22
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   SpO2: 92%
   ABG: 7.27/41/72/18/-7
   Ve: 14.2 L/min
   PaO2 / FiO2: 144
   Physical Examination
   Gen:  NAD
   Pulm: coarse, decreased at bases
   CV:  RRR
   Abd: distended, drainage appears grossly bloody
   Peripheral Vascular: pulses intact
   Skin:  warm, dry, UE petechiae/purpura
   Neurologic: intubated, sedated
   Labs / Radiology
   27 K/uL
   7.5 g/dL
   93 mg/dL
   1.5 mg/dL
   18 mEq/L
   5.5 mEq/L
   70 mg/dL
   116 mEq/L
   138 mEq/L
   21.0 %
   5.0 K/uL
        [image002.jpg]
                             [**2112-3-3**]  05:02 AM
                             [**2112-3-3**]  06:09 AM
                             [**2112-3-3**]  11:54 AM
                             [**2112-3-3**]  01:26 PM
                             [**2112-3-3**]  04:57 PM
                             [**2112-3-3**]  05:24 PM
                             [**2112-3-4**]  01:58 AM
                             [**2112-3-4**]  02:19 AM
                             [**2112-3-4**]  05:28 AM
                             [**2112-3-4**]  06:19 AM
   WBC
   8.0
   5.0
   Hct
   23.0
   21.0
   Plt
   36
   27
   Cr
   1.6
   1.5
   TCO2
   19
   19
   21
   20
   20
   21
   18
   20
   Glucose
   119
   93
   Other labs: PT / PTT / INR:10.5/27.5/0.9, CK / CKMB /
   Troponin-T:46/8/<0.01, ALT / AST:115/132, Alk Phos / T Bili:248/2.3,
   Amylase / Lipase:/44, Differential-Neuts:98.0 %, Band:0.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:206 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.2 g/dL, LDH:[**2067**] IU/L, Ca++:7.7 mg/dL, Mg++:2.8 mg/dL,
   PO4:6.5 mg/dL
                                                                [**2112-3-4**]
                                                                    06:19a
   _______________________________________________________________________
                                     pH
                                    7.27
                                    pCO2
                                     41
                                     pO2
                                     72
                                    HCO3
                                     20
                                   BaseXS
                                     -7
   Type:Art; Intubated; Vent:Spontaneous; FiO2%:50; Rate:/16; PEEP:10;
   Temp:36.8
                                                                [**2112-3-4**]
                                                                    06:10a
   _______________________________________________________________________
   Source: Line-A-line; Vancomycin @ Trough
   Other Blood Chemistry:
   Vanco: Pnd
                                                                [**2112-3-4**]
                                                                    05:28a
   _______________________________________________________________________
                                     pH
                                    7.31
                                    pCO2
                                     35
                                     pO2
                                     74
                                    HCO3
                                     18
                                   BaseXS
                                     -7
   Type:Art; Intubated; FiO2%:50; Rate:22/2; TV:600; PEEP:10;
   Mode:Assist/Control; Temp:36.8
                                                                [**2112-3-4**]
                                                                    02:19a
   _______________________________________________________________________
                                     pH
                                    7.26
                                    pCO2
                                     45
                                     pO2
                                     107
                                    HCO3
                                     21
                                   BaseXS
                                     -6
   Type:Art; Intubated; FiO2%:50; Rate:20/; PEEP:10; Mode:Assist/Control;
   Temp:38.4
   Comments:
   Temp: Axillary
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, with IR-placed drain
   for management of sigmoid abscess.
   # Sigmoid Abscess: Increased bloody drainage. Surgery following
   interventions at this time. On Vanc, Cefepime, Flagyl. Transfused 2
   units PRBCs and platelets.  Unclear source of bleeding
 likely
   diverticular bleed or vascular communication with GI lumen
   - Hct q6h
   - If continued bleeding, consider RBC scan and angio.
   - Continuing Vanc/Cefepime/Flagyl
   - Appreciate IR and Surgery
s continued following of patient
   # Shock: likely septic. Hct falling now 21 with bloody stool coming out
   of drain. Transfused 2 units morning of [**3-4**]. Has been maintaining BP.
   Per surgery, no surgical intervention at this time.  PCP was negative.
   - repeat Hct after 2 units infused
   - bolusing with IVF as needed to maintain CVP > 10
   - Will check [**Hospital1 **] hct and transfuse for Hct for goal > 20
   - track serial lactate (most recent 1.6) [**Hospital1 **]
   - monitor UOP
   - Blood culture and urine cultures this morning. No new cx data
   - Continue vanco/flagyl/[**Last Name (un) **]
 vanc had been held d/t elevated troughs,
   now 21
 will restart vanc.
   .
   # Respiratory status: Remains intubated, failed pressure support
   trial.  Will continue current settings pending the development of
   concomitant acute issues (bleeding, renal failure).  PCP was negative,
   therefore IV bactrim not started.
   - Continuing Vanc/Cefepime/Flagyl for empiric PNA coverage
   - Continue Solumedrol at 60 IV q8 pending discussion with pulm
   - f/u BAL for galactomannan, Nocardia cx and stains, fungal stains per
   ID recs
   # Acute Kidney injury
 creatinine is 1.5.
   - renally dose all meds
   - Continue to trend closely
   - continue IVF and see how does; if needs it will switch to HCO3 (D5
   with 3 amps bicarb)
   # Anemia: now acute, with guiaic positive stool as above with more
   frank bloody appearing stool this morning
   - transfuse as above
   - monitor Hct q6h
   - cont to follow heme/onc recs
   # Heme: Confusing heme picture. Continues to have elevated direct
   bilirubin now, LDH, reticulocyte count, nucleated RBCs, picture c/w
   hemolysis and brisk marrow response. But haptoglobin initially not low,
   and pancytopenic generally. Heme/onc review of smear: No evidence of
   DIC, TTP or microangiopathy. Possible  effect of fluconazole. SPEP and
   UPEP results
 polyclonal IgG without spikes, likely [**2-2**] recent IVIG.
   G6PD level WNL.
   - Appreciate Heme/Onc recs
   - Per heme/onc considering inpatient bone marrow biopsy but on hold for
   now given clinical condition
   - Attempting to limit bone marrow suppressive medications
   # DM: Getting long acting and sliding scale, increased two days ago;
   fingersticks 200
   - Follow-up [**Last Name (un) 72**] recs
   - Start diabetic tube feeds and start checking fingersticks q4 hours
   - Can consider insulin gtt if pt still with persistently elevated
   glucose
   # Hypernatremia: Resolved. Given NPO status and bowel rest will stop
   flushes.
   - f/u PM lytes
   # Pain: Has chronic pain in back, and from rotator cuff injury.
   -Continuing Lidocaine patch
   - Holding delirium inducing medications
   # Agitation: Pt had appeared intermittently agitated, appearing
   uncomfortable despite Zydis. Suspect: ICU delirium vs. prolonged
   anxiety/fatigue vs. respiratory distress vs. pain vs. steroid psychosis
   vs. cerebral vasculitis v. rebound delirium. Pt currently well sedated
   on Propofol gtt
   - c/w Zydis [**Hospital1 **]
   - Continue SSRI
   - Wean steroids as possible
   - propofol gtt and fentanyl gtt to allow for titration
   # Livedo reticularis: Noted on L hand and on legs at times, not active
   now.
   - Serial exams
   # CAD:  ECG during period of agitation: ST dep in high lateral leads,
   c/w strain pattern. Trops falling.
   - no further trending
   # Thrombocytopenia: falling
   - Transfuse to maintain PLT > 15K
   # Restless leg:
   -DC ropinirole d/t sedating and hallucinatory side effects
   # BPH: Holding Flomax for now.
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Currently relatively hypotensive. Bolus as above.
   -          will continue Sotalol for AF for now, if need to stop will
   consider
   # Goals of care
   - continue to update family on his status
   # FEN: hold TF today
   # Lines:
   Multi Lumen RIJ
 consider removing (placed ~2 weeks ago) and placing
   PICC, however will hold on this today d/t bleeding
   A-line
   20 gauge PIV
   # Prophylaxis:
   - Pneumoboots
   - IVC filter
   - continue PPI to [**Hospital1 **]
   # Communication: Patient, family  - will call family daily
   # Code status: Full code for now
 will need further discussion
   # Disposition: ICU

2112-03-05 08:11:00 Physician Resident Progress Note
Chief Complaint: pauci-immune vasculitis originally admitted with
   pulmonary hemorrhage
   24 Hour Events:
   Had GI bleed (RBC) study yesterday with preliminary negative read.
   Received a total of 4 units of PRBC and 2 units of platelets over the
   course of the day.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2112-3-4**] 10:15 AM
   Metronidazole - [**2112-3-5**] 02:16 AM
   Meropenem - [**2112-3-5**] 07:42 AM
   Infusions:
   Fentanyl - 80 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2112-3-5**] 02:11 AM
   Pantoprazole (Protonix) - [**2112-3-5**] 07:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-5**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.1
   HR: 76 (72 - 87) bpm
   BP: 130/61(82) {88/42(58) - 143/79(103)} mmHg
   RR: 29 (15 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (6 - 11)mmHg
   Total In:
                                                                  4,577 mL
                                                                  1,309 mL
   PO:
   TF:
                                                                    539 mL
   IVF:
                                                                  2,553 mL
                                                                    909 mL
   Blood products:
                                                                  1,240 mL
                                                                    375 mL
   Total out:
                                                                  1,970 mL
                                                                    320 mL
   Urine:
                                                                    870 mL
                                                                    320 mL
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
   Balance:
                                                                  2,607 mL
                                                                    989 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 22
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 34 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: ///16/
   Ve: 12.2 L/min
   Physical Examination
   Gen:  NAD
   Pulm:  coarse, equal air entry
   CV: RRR
   Abd:  soft, ND, drain in place continues to drain dark red stool
   Peripheral Vascular: pulses intact
   Skin:  warm, dry
   Neurologic: sedated, intubated
   Labs / Radiology
   43 K/uL
   9.9 g/dL
   78 mg/dL
   1.9 mg/dL
   16 mEq/L
   5.1 mEq/L
   79 mg/dL
   116 mEq/L
   139 mEq/L
   30.0 %
   5.2 K/uL
        [image002.jpg]
                             [**2112-3-4**]  01:58 AM
                             [**2112-3-4**]  02:19 AM
                             [**2112-3-4**]  05:28 AM
                             [**2112-3-4**]  06:19 AM
                             [**2112-3-4**]  07:15 AM
                             [**2112-3-4**]  10:10 AM
                             [**2112-3-4**]  04:55 PM
                             [**2112-3-4**]  08:09 PM
                             [**2112-3-4**]  10:24 PM
                             [**2112-3-5**]  04:09 AM
   WBC
   5.0
   5.7
   4.6
   5.2
   Hct
   21.0
   20.0
   29.0
   24.9
   22.1
   30.0
   Plt
   27
   51
   40
   46
   48
   43
   Cr
   1.5
   1.9
   TCO2
   21
   18
   20
   Glucose
   93
   78
   Other labs: PT / PTT / INR:10.5/27.5/0.9, CK / CKMB /
   Troponin-T:361/8/<0.01, ALT / AST:110/126, Alk Phos / T Bili:220/3.7,
   Amylase / Lipase:/44, Differential-Neuts:98.0 %, Band:0.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:206 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.2 g/dL, LDH:1531 IU/L, Ca++:7.8 mg/dL, Mg++:2.9 mg/dL,
   PO4:8.1 mg/dL
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, with IR-placed drain
   for management of sigmoid abscess.
   # Sigmoid Abscess: Increased bloody drainage felt likely from LGIB
   possibly due to tics however with negative RBC scan. Surgery following
 no interventions at this time. On Vanc, [**Last Name (un) 350**], Flagyl. Transfused 2
   units PRBCs and platelets.  Unclear source of bleeding
 likely
   diverticular bleed or vascular communication with GI lumen.
   - Hct [**Hospital1 **]
   - if appears to be bleeding transfuse RBC and PLT as needed
   - If continued bleeding, contact GI re: evaluating for UGIB
   - stop vanco today
   - continue [**Last Name (un) 350**] and Flagyl until tomorrow, then consider stopping
   - Appreciate IR and Surgery
s continued following of patient
   # Shock: likely septic. Hct intermittently falling but now maintaining
   BP. Per surgery, no surgical intervention at this time.  PCP was
   negative
   - bolus as needed to maintain CVP > 10; currently on D5 for sugar
   - Will check [**Hospital1 **] hct and transfuse for Hct for goal > 20
   - track serial lactate (most recent 1.6) [**Hospital1 **]
   - monitor UOP
   - Blood culture and urine cultures this morning. No new cx data
   - Continue flagyl/[**Last Name (un) **], d/c vanc
   # Respiratory status: Remains intubated, failed pressure support trial.
   Will try pressure support trial again today with decreased sedation.
   continue current settings pending the development of concomitant acute
   issues (bleeding, renal failure).  PCP was negative, therefore IV
   bactrim not started.
   - reducing antibiotics as above
   - continue Solumedrol at 60 IV q8 pending discussion with pulm
   - f/u BAL for galactomannan, Nocardia cx and stains, fungal stains per
   ID recs
   - check triglycerides and switch to midaz if elevated
   # Acute Kidney injury
 creatinine is 1.5.
   - renally dose all meds
   - continue to trend closely
   - if creatinine comes down try gentle diuresis
   - stopping vanco today
   # Anemia: now acute, with guiaic positive stool as above with more
   frank bloody appearing stool this morning
   - transfuse as above
   - monitor Hct q8h
   - cont to follow heme/onc recs
   # Heme: Confusing heme picture. Continues to have elevated direct
   bilirubin now, LDH, reticulocyte count, nucleated RBCs, picture c/w
   hemolysis and brisk marrow response. But haptoglobin initially not low,
   and pancytopenic generally. Heme/onc review of smear: No evidence of
   DIC, TTP or microangiopathy. Possible  effect of fluconazole. SPEP and
   UPEP results
 polyclonal IgG without spikes, likely [**2-2**] recent IVIG.
   G6PD level WNL.
   - Appreciate Heme/Onc recs
   - Per heme/onc considering inpatient bone marrow biopsy but on hold for
   now given clinical condition
   - Attempting to limit bone marrow suppressive medications
   # DM: pt unable to sustain blood sugars off tube feeds
   - stop long acting insulin
   - D5W until able to maintain sugars
   - q4 FS and ISS
   - Follow-up [**Last Name (un) 72**] recs
   - Start diabetic tube feeds and start checking fingersticks q4 hours
   - Can consider insulin gtt if pt still with persistently elevated
   glucose
   # Hypernatremia: Resolved. Given NPO status and bowel rest will stop
   flushes.
   - f/u PM lytes
   # Pain: Has chronic pain in back, and from rotator cuff injury.
    Continuing Lidocaine patch
   - Holding delirium inducing medications
   # Agitation: Pt had appeared intermittently agitated, appearing
   uncomfortable despite Zydis. Suspect: ICU delirium vs. prolonged
   anxiety/fatigue vs. respiratory distress vs. pain vs. steroid psychosis
   vs. cerebral vasculitis v. rebound delirium. Pt currently well sedated
   on Propofol gtt
   - c/w Zydis [**Hospital1 **]
   - Continue SSRI
   - Wean steroids as possible
   - cont propofol gtt and fentanyl gtt to allow for titration
   - check TG and consider midaz as above
   # Livedo reticularis: Noted on L hand and on legs at times, not active
   now.
   - Serial exams
   # CAD:  ECG during period of agitation: ST dep in high lateral leads,
   c/w strain pattern. Trops falling.
   - no further trending
   # Thrombocytopenia: falling
   - Transfuse to maintain PLT > 50K
   # Restless leg:
   -DC ropinirole d/t sedating and hallucinatory side effects
   # BPH: Holding Flomax for now.
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Currently relatively hypotensive. Bolus as above.
   -  will continue Sotalol for AF for now, if need to stop will consider
   # Goals of care
   - continue to update family on his status
   # FEN: hold TF today
   # Lines:
   Multi Lumen RIJ
 consider removing (placed ~2 weeks ago) and placing
   PICC, however will hold on this today d/t bleeding
   A-line
   20 gauge PIV
   # Prophylaxis:
   - Pneumoboots
   - IVC filter
   - continue PPI to [**Hospital1 **]
   # Communication: Patient, family
 continue to call family daily
   # Code status: Full code for now
 will need further discussion
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   Arterial Line - [**2112-3-1**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-03-06 07:05:00 Physician Resident Progress Note
Chief Complaint:
   [**2112-3-5**]
   Pt. was observed throughout the day and Hct was stable.  Drainage at
   7:30 pm was noticed to be slightly more red and a platelet count was
   added which was 34.  He was transfused 2 units of platelets with good
   repsonse.  He was also hypoglycemic yesterday.  [**Last Name (un) 72**] recommended
   decreased sliding scale.  He had been on D5 at 75, this was stopped and
   his blood sugar fell to 43.  He was given 1 amp of D50 (25g) and the D5
   was restarted at 75 cc/h and BS stabilized.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2112-3-4**] 10:15 AM
   Meropenem - [**2112-3-5**] 07:42 AM
   Metronidazole - [**2112-3-6**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 110 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-3-5**] 07:42 AM
   Fentanyl - [**2112-3-5**] 04:50 PM
   Midazolam (Versed) - [**2112-3-5**] 06:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-6**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 78 (72 - 82) bpm
   BP: 137/67(90) {105/54(69) - 172/107(116)} mmHg
   RR: 21 (19 - 29) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (2 - 10)mmHg
   Total In:
                                                                  1,707 mL
                                                                    824 mL
   PO:
   TF:
   IVF:
                                                                  1,227 mL
                                                                    432 mL
   Blood products:
                                                                    375 mL
                                                                    392 mL
   Total out:
                                                                  1,139 mL
                                                                    330 mL
   Urine:
                                                                    919 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
                                                                    220 mL
                                                                     40 mL
   Balance:
                                                                    568 mL
                                                                    494 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 0 (0 - 720) mL
   PS : 8 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 19 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 91%
   ABG: 7.26/37/65/16/-9
   Ve: 13.2 L/min
   PaO2 / FiO2: 108
   Physical Examination
   Gen:  NAD
   Pulm:  coarse, equal air entry
   CV: RRR
   Abd:  soft, ND, drain in place continues to drain dark stool. Stool
   more brown appearing than previously. Small amount draining outside of
   drain onto abdomen.
   Peripheral Vascular: pulses intact
   Skin:  warm, dry
   Neurologic: sedated, intubated
   Labs / Radiology
   69 K/uL
   9.8 g/dL
   37 mg/dL
   2.0 mg/dL
   16 mEq/L
   5.0 mEq/L
   87 mg/dL
   117 mEq/L
   141 mEq/L
   28.1 %
   4.7 K/uL
         [image002.jpg]
                             [**2112-3-4**]  06:19 AM
                             [**2112-3-4**]  07:15 AM
                             [**2112-3-4**]  10:10 AM
                             [**2112-3-4**]  04:55 PM
                             [**2112-3-4**]  08:09 PM
                             [**2112-3-4**]  10:24 PM
                             [**2112-3-5**]  04:09 AM
                             [**2112-3-5**]  03:50 PM
                             [**2112-3-5**]  03:56 PM
                             [**2112-3-6**]  02:29 AM
   WBC
   5.7
   4.6
   5.2
   4.7
   Hct
   20.0
   29.0
   24.9
   22.1
   30.0
   31.1
   28.1
   Plt
   51
   40
   46
   48
   43
   34
   69
   Cr
   1.9
   2.0
   TCO2
   20
   17
   Glucose
   78
   37
   Other labs: PT / PTT / INR:10.8/23.8/0.9, CK / CKMB /
   Troponin-T:283/8/<0.01, ALT / AST:124/156, Alk Phos / T Bili:210/3.2,
   Amylase / Lipase:/44, Differential-Neuts:98.0 %, Band:0.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:206 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.2 g/dL, LDH:1645 IU/L, Ca++:7.7 mg/dL, Mg++:2.9 mg/dL,
   PO4:9.1 mg/dL
   Assessment and Plan
   58M w/ pulmonary vasculitis on immunosuppression, with IR-placed drain
   for management of sigmoid abscess.
   # Sigmoid Abscess:  Hct stable this AM. No surgical intervention at
   this time. Negative RBC scan.
   - Hct [**Hospital1 **]
   - Off Vanco, d/c Meropenem today, will d/c flagyl [**Doctor First Name 600**]
   - Touch base with surgery if okay to start tube feeds today
   - if appears to be bleeding transfuse RBC and PLT as needed. Goal Hct >
   23, Platelets > 50
   - If continued bleeding, contact GI re: evaluating for UGIB
   - Appreciate IR and Surgery
s continued following of patient
   # Shock: likely septic. Hct intermittently falling but now maintaining
   BP. Per surgery, no surgical intervention at this time.  PCP was
   negative
   - bolus as needed to maintain CVP > 10; currently on D5 for sugar
   - Will check [**Hospital1 **] hct and transfuse for Hct for goal > 20
   - track serial lactate (most recent 1.6) [**Hospital1 **]
   - monitor UOP
   - Blood culture and urine cultures this morning. No new cx data
   - Continue flagyl, d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] (off vanc).
   # Respiratory status: Remains intubated, failed pressure support trial.
   Will try pressure support trial again today with decreased sedation.
   continue current settings pending the development of concomitant acute
   issues (bleeding, renal failure).  PCP was negative, therefore IV
   bactrim not started. Volume status has been climbing up steadily over
   last several weeks.
   - leave on AC ventilation
   - reducing antibiotics as above
   - continue Solumedrol at 60 IV q8 pending discussion with pulm
   - volume management: 10mg IV lasix bolus with low-dose lasix drip at
   4mg/hr; keep on low dose due to renal failure. Will f/u creatinine on
   this drip and make adjustments accordingly.
   - Check PM lytes
   - f/u BAL for galactomannan, Nocardia cx and stains, fungal stains per
   ID recs
   - check triglycerides and switch to midaz if elevated
   # Acute Kidney injury
 creatinine is 2.0
   - renally dose all meds
   - continue to trend closely
   - F/u creatinine this PM on lasix drip.
   - Off Vanco, will d/c other antibiotics today
   # DM: pt unable to sustain blood sugars off tube feeds
   - stop long acting insulin
   - D5W until able to maintain sugars
 change to D10 if surgery does not
   want to resume tube feeds.
   - q4 FS and ISS
   - Follow-up [**Last Name (un) 72**] recs
   - Start diabetic tube feeds and start checking fingersticks q4 hours
   # Anemia: now acute, with guiaic positive stool as above with more
   frank bloody appearing stool this morning
   - transfuse as above
   - monitor Hct q8h
   - cont to follow heme/onc recs
   # Heme: Confusing heme picture. Continues to have elevated direct
   bilirubin now, LDH, reticulocyte count, nucleated RBCs, picture c/w
   hemolysis and brisk marrow response. But haptoglobin initially not low,
   and pancytopenic generally. Heme/onc review of smear: No evidence of
   DIC, TTP or microangiopathy. Possible  effect of fluconazole. SPEP and
   UPEP results
 polyclonal IgG without spikes, likely [**2-2**] recent IVIG.
   G6PD level WNL.
   - Appreciate Heme/Onc recs
   - Per heme/onc considering inpatient bone marrow biopsy put on hold for
   now given clinical condition
   - Attempting to limit bone marrow suppressive medications
   #) Skin breakdown
   - Obtain wound care recommendations
   # Hypernatremia: Resolved. Given NPO status and bowel rest will stop
   flushes.
   - f/u PM lytes
   # Pain: Has chronic pain in back, and from rotator cuff injury.
    Continuing Lidocaine patch
   - Holding delirium inducing medications
   # Agitation: Pt had appeared intermittently agitated, appearing
   uncomfortable despite Zydis. Suspect: ICU delirium vs. prolonged
   anxiety/fatigue vs. respiratory distress vs. pain vs. steroid psychosis
   vs. cerebral vasculitis v. rebound delirium. Pt currently well sedated
   on Propofol gtt. Well-sedated now.
   - c/w Zydis [**Hospital1 **]
   - Continue SSRI
   - Wean steroids as possible
   - cont propofol gtt and fentanyl gtt to allow for titration
   - check TG and consider midaz as above
   # Livedo reticularis: Noted on L hand and on legs at times, not active
   now.
   - Serial exams
   # CAD:  ECG during period of agitation: ST dep in high lateral leads,
   c/w strain pattern. Trops falling.
   - no further trending
   # Thrombocytopenia: falling
   - Transfuse to maintain PLT > 50K
   # Restless leg:
   -DC ropinirole d/t sedating and hallucinatory side effects
   # BPH: Holding Flomax for now.
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Currently relatively hypotensive. Bolus as above.
   -  will continue Sotalol for AF for now, if need to stop will consider
   # Goals of care
   - continue to update family on his status
   # FEN: discuss resuming tube feeds today with surgery, f/u with
   nutrition.
   # Lines:
   Multi Lumen RIJ
 consider removing (placed ~2 weeks ago) and placing
   PICC, however will hold on this today d/t bleeding
   A-line
   20 gauge PIV
   # Prophylaxis:
   - Pneumoboots
   - IVC filter
   - continue PPI to [**Hospital1 **]
   # Communication: Patient, family
 continue to call family daily
   # Code status: Full code for now
 will need further discussion
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   Arterial Line - [**2112-3-1**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-03-07 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   started lasix drip, LOS fluid significantly up, goal was a few liters
   off, went to 15 and was even for the day, cr had been trending up but
   had been stable but now is up to 2.4
   hypoglycemic on saturday night, started D5 -> D10, now sugars better,
   100s-200, shut off D10, now in 170s
   calcium low, got 2 calcium gluc and 2 more this morning
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Exam notable for Tm 97.8 BP 130/60 HR 70-80 RR 22 with sat 95 on
   VAC 22x600 0.6 10 7.26/37/65. Obese man, NAD on vent. Coarse BS B. RRR
   s1s2. Soft +BS. Drain intact. 2+ edema. Labs notable for WBC 4K, HCT
   28, Plt 69, Na 141, K 5.0, Cr 2.0.
   Agree with plan to manage progressive LGIB / blood loss anemia with
   serial transfusion, HCT q8h; will d/w surgery and attempt to restart
   TFs. Will d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] today and continue to de-escalate QD as long as BCx
   are negative. Will manage ongoing hypoxemic respiratory failure with
   VAC, sedation wean with bolus midaz and ongoing fentanyl gtt and
   steroids at current dose; will try lasix gtt in attempt to remove
   volume despite ARF. Stable ARF - RD meds, optimize hemodynamics. DM2 -
   recurrent hypoglycemia likely d/t insulin washout, ARF, reduced
   steroids and NPO status - will try TFs (renal / DM diet) and continue
   D10. Sotalol for AF - on hold for long QTc, not a candidate for
   anticoagulation. PPI, pnbts, filter, CVL, art line, full. Remainder of
   plan as outlined above.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2112-3-4**] 10:15 AM
   Meropenem - [**2112-3-6**] 08:00 AM
   Metronidazole - [**2112-3-6**] 05:33 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Furosemide (Lasix) - 12 mg/hour
   Fentanyl - 110 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-3-6**] 08:26 AM
   Dextrose 50% - [**2112-3-6**] 08:41 AM
   Furosemide (Lasix) - [**2112-3-6**] 11:00 AM
   Fentanyl - [**2112-3-6**] 11:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-7**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 84 (73 - 91) bpm
   BP: 121/63(82) {97/53(72) - 151/84(102)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 5 (4 - 9)mmHg
   Total In:
                                                                  2,636 mL
                                                                    513 mL
   PO:
   TF:
                                                                    406 mL
                                                                    241 mL
   IVF:
                                                                  1,802 mL
                                                                    272 mL
   Blood products:
                                                                    392 mL
   Total out:
                                                                  2,270 mL
                                                                    455 mL
   Urine:
                                                                  1,580 mL
                                                                    455 mL
   NG:
   Stool:
                                                                    650 mL
   Drains:
                                                                     40 mL
   Balance:
                                                                    366 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 34 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 93%
   ABG: 7.24/41/86.[**Numeric Identifier 253**]/16/-9
   Ve: 12.3 L/min
   PaO2 / FiO2: 145
   Physical Examination
   Gen:  NAD
   Pulm:  coarse, equal air entry
   CV: RRR
   Abd:  soft, ND, drain in place continues to drain dark stool. Stool
   more brown appearing than previously. Small amount draining outside of
   drain onto abdomen.
   Peripheral Vascular: pulses intact
   Skin:  warm, dry
   Neurologic: sedated, intubated
   Labs / Radiology
   49 K/uL
   9.9 g/dL
   152 mg/dL
   2.3 mg/dL
   16 mEq/L
   5.1 mEq/L
   94 mg/dL
   110 mEq/L
   140 mEq/L
   28.4 %
   6.4 K/uL
        [image002.jpg]
                                                                [**2112-3-7**]
                                                                    04:06a
   _______________________________________________________________________
                                     pH
                                    7.24
                                    pCO2
                                     41
                                     pO2
                                     87
                                    HCO3
                                     18
                                   BaseXS
                                     -9
   Comments:
   pH: Provider Notified [**Name9 (PRE) **] [**Name9 (PRE) **] Lab Policy
   Type:Art
   freeCa:1.06
   Lactate:1.4
   O2Sat: 94
                                                                [**2112-3-6**]
                                                                     3:25p
   _______________________________________________________________________
                                     pH
                                    7.24
                                    pCO2
                                     41
                                     pO2
                                     71
                                    HCO3
                                     18
                                   BaseXS
                                     -9
   Comments:
   pH: Verified
   pH: Provider Notified [**Name9 (PRE) **] [**Name9 (PRE) **] Lab Policy
   Type:Art; 95.5 Temp:36.4
   freeCa:1.06
   Lactate:1.0
   O2Sat: 92
                                                                [**2112-3-6**]
                                                                    02:58a
   _______________________________________________________________________
                                     pH
                                    7.26
                                    pCO2
                                     36
                                     pO2
                                     101
                                    HCO3
                                     17
                                   BaseXS
                                     -9
   Type:Art
   freeCa:1.10
   Lactate:1.0
   O2Sat: 95
                             [**2112-3-4**]  08:09 PM
                             [**2112-3-4**]  10:24 PM
                             [**2112-3-5**]  04:09 AM
                             [**2112-3-5**]  03:50 PM
                             [**2112-3-5**]  03:56 PM
                             [**2112-3-6**]  02:29 AM
                             [**2112-3-6**]  03:20 PM
                             [**2112-3-6**]  03:25 PM
                             [**2112-3-7**]  03:13 AM
                             [**2112-3-7**]  04:06 AM
   WBC
   4.6
   5.2
   4.7
   5.1
   6.4
   Hct
   22.1
   30.0
   31.1
   28.1
   27.9
   28.4
   Plt
   46
   48
   43
   34
   69
   45
   49
   Cr
   1.9
   2.0
   2.0
   2.3
   TCO2
   17
   18
   18
   Glucose
   78
   37
   85
   152
   Other labs: PT / PTT / INR:10.8/24.1/0.9, CK / CKMB /
   Troponin-T:283/8/<0.01, ALT / AST:140/136, Alk Phos / T Bili:239/2.9,
   Amylase / Lipase:/44, Differential-Neuts:98.0 %, Band:0.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:206 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.2 g/dL, LDH:1645 IU/L, Ca++:7.5 mg/dL, Mg++:2.9 mg/dL,
   PO4:9.7 mg/dL
   [**3-7**] CXR:
   ET tube in place, Dobhoff terminates in gastric fundus and should be
   advanced as previously noted, right IV catheter in the SVC. Still with
   moderate congestive failure, mild pleural effusions and mild bibasilar
   atelectasis.
   Assessment and Plan
   58M pauci-immune pulm vasculitis c/b hemorrhage despite aggressive
   immunosupression, colonic abscess, recurrent resp failure, GIB - recent
   HCT stable, rising creatinine. Hypoglycemia while off TFs, requiring
   D5.
   # LGIB/Sigmoid Abscess:  Hct stable this AM. No surgical intervention
   at this time. Negative RBC scan. Restarted tube feeds yesterday after
   discussion with surgery
   - Hct [**Hospital1 **]
   - Off Vanco, off Meropenem, plan to d/c flagyl today
   - if appears to be bleeding transfuse RBC and PLT as needed. Goal Hct >
   23, Platelets > 50
   - If continued bleeding, contact GI re: evaluating for UGIB
   - Appreciate IR and Surgery
s continued following of patient
   # Shock: likely septic. Hct intermittently falling but now maintaining
   BP. Per surgery, no surgical intervention at this time.  PCP was
   negative
   - bolus as needed to maintain CVP > 10; currently on D5 for sugar
   - Will check [**Hospital1 **] hct and transfuse for Hct for goal > 20
   - track serial lactate (most recent 1.6) [**Hospital1 **]
   - monitor UOP
   - Blood culture and urine cultures this morning. No new cx data
   - Continue flagyl, d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] (off vanc).
   # Respiratory status: Remains intubated, failed pressure support trial.
   Will try pressure support trial again today with decreased sedation.
   continue current settings pending the development of concomitant acute
   issues (bleeding, renal failure).  PCP was negative, therefore IV
   bactrim not started. Volume status has been climbing up steadily over
   last several weeks.
   - leave on AC ventilation
   - reducing antibiotics as above
   - continue Solumedrol at 60 IV q8 pending discussion with pulm
   - volume management: 10mg IV lasix bolus with low-dose lasix drip at
   4mg/hr; keep on low dose due to renal failure. Will f/u creatinine on
   this drip and make adjustments accordingly.
   - Check PM lytes
   - f/u BAL for galactomannan, Nocardia cx and stains, fungal stains per
   ID recs
   - check triglycerides and switch to midaz if elevated
   # Acute Kidney injury
 creatinine is 2.0
   - renally dose all meds
   - continue to trend closely
   - F/u creatinine this PM on lasix drip.
   - Off Vanco, will d/c other antibiotics today
   # DM: pt unable to sustain blood sugars off tube feeds
   - stop long acting insulin
   - D5W until able to maintain sugars
 change to D10 if surgery does not
   want to resume tube feeds.
   - q4 FS and ISS
   - Follow-up [**Last Name (un) 72**] recs
   - Start diabetic tube feeds and start checking fingersticks q4 hours
   # Anemia: now acute, with guiaic positive stool as above with more
   frank bloody appearing stool this morning
   - transfuse as above
   - monitor Hct q8h
   - cont to follow heme/onc recs
   # Heme: Confusing heme picture. Continues to have elevated direct
   bilirubin now, LDH, reticulocyte count, nucleated RBCs, picture c/w
   hemolysis and brisk marrow response. But haptoglobin initially not low,
   and pancytopenic generally. Heme/onc review of smear: No evidence of
   DIC, TTP or microangiopathy. Possible  effect of fluconazole. SPEP and
   UPEP results
 polyclonal IgG without spikes, likely [**2-2**] recent IVIG.
   G6PD level WNL.
   - Appreciate Heme/Onc recs
   - Per heme/onc considering inpatient bone marrow biopsy put on hold for
   now given clinical condition
   - Attempting to limit bone marrow suppressive medications
   #) Skin breakdown
   - Obtain wound care recommendations
   # Hypernatremia: Resolved. Given NPO status and bowel rest will stop
   flushes.
   - f/u PM lytes
   # Pain: Has chronic pain in back, and from rotator cuff injury.
    Continuing Lidocaine patch
   - Holding delirium inducing medications
   # Agitation: Pt had appeared intermittently agitated, appearing
   uncomfortable despite Zydis. Suspect: ICU delirium vs. prolonged
   anxiety/fatigue vs. respiratory distress vs. pain vs. steroid psychosis
   vs. cerebral vasculitis v. rebound delirium. Pt currently well sedated
   on Propofol gtt. Well-sedated now.
   - c/w Zydis [**Hospital1 **]
   - Continue SSRI
   - Wean steroids as possible
   - cont propofol gtt and fentanyl gtt to allow for titration
   - check TG and consider midaz as above
   # Livedo reticularis: Noted on L hand and on legs at times, not active
   now.
   - Serial exams
   # CAD:  ECG during period of agitation: ST dep in high lateral leads,
   c/w strain pattern. Trops falling.
   - no further trending
   # Thrombocytopenia: falling
   - Transfuse to maintain PLT > 50K
   # Restless leg:
   -DC ropinirole d/t sedating and hallucinatory side effects
   # BPH: Holding Flomax for now.
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Currently relatively hypotensive. Bolus as above.
   -  will continue Sotalol for AF for now, if need to stop will consider
   # Goals of care
   - continue to update family on his status
   # FEN: discuss resuming tube feeds today with surgery, f/u with
   nutrition.
   # Lines:
   Multi Lumen RIJ
 consider removing (placed ~2 weeks ago) and placing
   PICC, however will hold on this today d/t bleeding
   A-line
   20 gauge PIV
   # Prophylaxis:
   - Pneumoboots
   - IVC filter
   - continue PPI to [**Hospital1 **]
   # Communication: Patient, family
 continue to call family daily
   # Code status: Full code for now
 will need further discussion
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   Arterial Line - [**2112-3-1**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-03-08 07:28:00 Physician Resident Progress Note
24 Hour Events:
   -remained on ventilator, failed PSV, PEEP now 14
   -blood sugars rising across day, started insulin gtt [**2-2**] uncertainty
   about SQ absorption and starting high dose steroids
   -heme onc requesting coombs test w/AM labs
   -slightly more acidotic on 2am ABG --> pCO2 rose to 46
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-3-6**] 08:00 AM
   Metronidazole - [**2112-3-6**] 05:33 PM
   Infusions:
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Fentanyl - [**2112-3-7**] 12:01 PM
   Midazolam (Versed) - [**2112-3-7**] 05:34 PM
   Pantoprazole (Protonix) - [**2112-3-7**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-8**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 85 (85 - 92) bpm
   BP: 120/61(81) {113/56(74) - 150/92(112)} mmHg
   RR: 22 (18 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,247 mL
                                                                    234 mL
   PO:
             TF:
                                                                    476 mL
   IVF:
                                                                    721 mL
                                                                    234 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    490 mL
   Urine:
                                                                  1,400 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
                                                                     60 mL
                                                                    300 mL
   Balance:
                                                                   -213 mL
                                                                   -256 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 0 (0 - 590) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 33 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.19/46/106/17/-10
   Ve: 13.2 L/min
   PaO2 / FiO2: 177
   Physical Examination
   Labs / Radiology
   39 K/uL
   10.3 g/dL
   147 mg/dL
   2.6 mg/dL
   17 mEq/L
   5.2 mEq/L
   108 mg/dL
   111 mEq/L
   142 mEq/L
   29.9 %
   6.7 K/uL
        [image002.jpg]
   _______________________________________________________________________
                                     pH
                                    7.19
                                    pCO2
                                     46
                                     pO2
                                     106
                                    HCO3
                                     18
                                   BaseXS
                                     -10
   Comments:
   pH: No Calls Made - Same Abnormality Previously Noted Today
   Type:Art; Intubated; FiO2%:60; Rate:22/; PEEP:14; Mode:Assist/Control;
   Temp:37.2
   freeCa:1.06
   Lactate:1.4
   ALT: 164
   AP: 294
   Tbili: 4.1
   Alb: 2.4
   AST: 160
   LDH: 1838
   Dbili:
   TProt:
   [**Doctor First Name 293**]:
   Lip:
                             [**2112-3-6**]  03:20 PM
                             [**2112-3-6**]  03:25 PM
                             [**2112-3-7**]  03:13 AM
                             [**2112-3-7**]  04:06 AM
                             [**2112-3-7**]  11:31 AM
                             [**2112-3-7**]  03:26 PM
                             [**2112-3-7**]  03:35 PM
                             [**2112-3-7**]  10:53 PM
                             [**2112-3-8**]  02:33 AM
                             [**2112-3-8**]  02:44 AM
   WBC
   5.1
   6.4
   6.7
   Hct
   27.9
   28.4
   29.9
   Plt
   45
   49
   39
   Cr
   2.0
   2.3
   2.4
   2.6
   TCO2
   18
   18
   17
   19
   18
   18
   Glucose
   85
   152
   186
   147
   Other labs: PT / PTT / INR:11.5/23.9/1.0, CK / CKMB /
   Troponin-T:283/8/<0.01, ALT / AST:164/160, Alk Phos / T Bili:294/4.1,
   Amylase / Lipase:/44, Differential-Neuts:98.0 %, Band:0.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:206 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.4 g/dL, LDH:1838 IU/L, Ca++:7.5 mg/dL, Mg++:3.0 mg/dL,
   PO4:9.3 mg/dL
   Assessment and Plan
   58M pauci-immune pulm vasculitis c/b hemorrhage despite aggressive
   immunosupression, colonic abscess, recurrent resp failure, GIB - recent
   HCT stable, rising creatinine. Hypoglycemia while off TFs, requiring
   D5.
   # Respiratory status: Remains intubated, failed pressure support trial.
   Will try pressure support trial again today with decreased sedation.
   continue current settings pending the development of concomitant acute
   issues (bleeding, renal failure).  PCP was negative, therefore IV
   bactrim not started. Volume status has been climbing up steadily over
   last several weeks.
   - leave on AC ventilation
   - try to decrease sedation to get to self-breathe
   - volume overloaded, but lasix d/c
ed yesterday due to non-benefit.
   - continue Solumedrol at 250 IV q6h x 3 days, then will drop by 50mg
   per dose to get to 50-100 q8.
   - Check PM lytes
   - f/u BAL for galactomannan, Nocardia cx and stains, fungal stains per
   ID recs
   - Discuss with family today possibility of tracheostomy and PEG
   placement
   # LGIB/Sigmoid Abscess:  Hct stable this AM. No surgical intervention
   at this time. Negative RBC scan. Restarted tube feeds yesterday after
   discussion with surgery
   - Hct QD
   - Restarting tube feeds today
   - Off antibiotics
   - if appears to be bleeding transfuse RBC and PLT as needed. Goal Hct >
   23, Platelets > 50
   - If continued bleeding, contact GI re: evaluating for UGIB
   - Appreciate IR and Surgery
s continued following of patient
   # Acute Kidney injury
 creatinine increasing (2.3
 2.6) s/p lasix
   drip, but will consider other etiologies such as ketoacidosis (blood
   sugars have been very high) in addition to pre-renal failure/
   long-standing poor hemodynamics.
   - Checking serum ketones to determine any component of ketoacidosis.
   - Check UA for ketones
   - continue to trend creatinine closely
   - Will discuss with renal long-term HD for management of renal and
   volume status (along with tracheostomy and PEG).
   # DM: sugars high (200s) most recently. Tube feeds held overnight
   because absent bowel sounds; high blood sugars in setting of increased
   steroid dose.
   - Starting insulin drip due to steroid dose increase and high steroid
   dose
   - Gingerly advancing tube feeds although bowel sounds continue to be
   hypoactive
   - Check serum ketones to evaluate for ketoacidosis
   - q4 FS and ISS
   - Follow-up [**Last Name (un) 72**] recs
   # Anemia: now acute, with guiaic positive stool as above with more
   frank bloody appearing stool this morning
   - transfuse as above
   - monitor Hct q8h
   - cont to follow heme/onc recs; will not biopsy for now.
   # Heme: Confusing heme picture. Continues to have elevated direct
   bilirubin now, LDH, reticulocyte count, nucleated RBCs, picture c/w
   hemolysis and brisk marrow response. But haptoglobin initially not low,
   and pancytopenic generally. Heme/onc review of smear: No evidence of
   DIC, TTP or microangiopathy. Possible  effect of fluconazole. SPEP and
   UPEP results
 polyclonal IgG without spikes, likely [**2-2**] recent IVIG.
   G6PD level WNL.
   - Appreciate Heme/Onc recs
   - Per heme/onc considering inpatient bone marrow biopsy put on hold for
   now given clinical condition
   - Attempting to limit bone marrow suppressive medications
   #) Skin breakdown
   - Continue to follow wound care recommendations
   # Hypernatremia: Resolved. Given NPO status and bowel rest will stop
   flushes.
   - f/u PM lytes
   # Pain: Has chronic pain in back, and from rotator cuff injury.
    Continuing Lidocaine patch
   - Holding delirium inducing medications
   # Agitation: Pt had appeared intermittently agitated, appearing
   uncomfortable despite Zydis. Suspect: ICU delirium vs. prolonged
   anxiety/fatigue vs. respiratory distress vs. pain vs. steroid psychosis
   vs. cerebral vasculitis v. rebound delirium. Pt currently well sedated
   on Propofol gtt. Well-sedated now.
   - c/w Zydis [**Hospital1 **]
   - Continue SSRI
   - Wean steroids as possible
   - cont propofol gtt and fentanyl gtt to allow for titration
   - check TG and consider midaz as above
   # Livedo reticularis: Noted on L hand and on legs at times, not active
   now.
   - Serial exams
   # CAD:  ECG during period of agitation: ST dep in high lateral leads,
   c/w strain pattern. Trops falling.
   - no further trending
   # Thrombocytopenia: falling
   - Transfuse to maintain PLT > 50K
   # Restless leg:
   -DC ropinirole d/t sedating and hallucinatory side effects
   # BPH: Holding Flomax for now.
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Currently relatively hypotensive. Bolus as above.
   -  Sotalol held due to increased Qtc; will resume QD sotalol dose
   today.
   # Goals of care
   - continue to update family on his status
   # FEN: resume tube feeds today with surgery, f/u with nutrition.
   - Replete lytes as necessary
   - K is somewhat high, check PM lytes K
   # Lines:
   Multi Lumen RIJ
 consider removing (placed ~2 weeks ago) and placing
   PICC, however will hold on this today d/t bleeding
   A-line
   20 gauge PIV
   # Prophylaxis:
   - Pneumoboots
   - IVC filter
   - continue PPI to [**Hospital1 **]
   # Communication: Patient, family
 continue to call family daily
   - Family meeting today at around 2pm
   # Code status: Full code for now
 will need further discussion
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   Arterial Line - [**2112-3-1**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-03-09 07:22:00 Physician Resident Progress Note
24 Hour Events:
   [**2112-3-9**]
   Stable overnight with borderline urine output, improved around [**12-2**] am
   without intervention.
   caclium was 6.6 with K 5.5 - given calcium gluconate and kayexelate.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-3-6**] 08:00 AM
   Metronidazole - [**2112-3-6**] 05:33 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-3-8**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-9**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.7
C (96.2
   HR: 74 (74 - 82) bpm
   BP: 121/63(83) {107/51(69) - 129/63(83)} mmHg
   RR: 15 (11 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 153 (153 - 165)mmHg
   Total In:
                                                                    751 mL
                                                                    375 mL
   PO:
   TF:
                                                                    105 mL
                                                                     73 mL
   IVF:
                                                                    601 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                    882 mL
                                                                    360 mL
   Urine:
                                                                    582 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
                                                                    300 mL
                                                                    250 mL
   Balance:
                                                                   -131 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 36 cmH2O
   Plateau: 25 cmH2O
   SpO2: 97%
   ABG: 7.19/46/124/17/-10
   Ve: 10.3 L/min
   PaO2 / FiO2: 207
   Physical Examination
   Gen: Sedated, intubated, appears comfortable
   Resp: CTAB anteriorly
   Cards: rrr no m/r/g
   Abd: soft, nt/nd, faint BS. R sided abdominal pouch in place, draining
   scant amount of maroon stool
   Skin: RUE petechial rash at anterior deltoid
   Labs / Radiology
   27 K/uL
   9.8 g/dL
   106 mg/dL
   2.9 mg/dL
   17 mEq/L
   5.5 mEq/L
   128 mg/dL
   111 mEq/L
   141 mEq/L
   28.9 %
   5.7 K/uL
        [image002.jpg]
                             [**2112-3-7**]  03:35 PM
                             [**2112-3-7**]  10:53 PM
                             [**2112-3-8**]  02:33 AM
                             [**2112-3-8**]  02:44 AM
                             [**2112-3-8**]  08:48 AM
                             [**2112-3-8**]  01:34 PM
                             [**2112-3-8**]  01:47 PM
                             [**2112-3-8**]  08:21 PM
                             [**2112-3-9**]  03:35 AM
                             [**2112-3-9**]  03:46 AM
   WBC
   6.7
   5.7
   Hct
   29.9
   28.9
   Plt
   39
   27
   Cr
   2.6
   2.7
   2.9
   TCO2
   19
   18
   18
   18
   18
   18
   Glucose
   147
   165
   85
   105
   106
   Other labs: PT / PTT / INR:11.4/23.1/0.9, CK / CKMB /
   Troponin-T:283/8/<0.01, ALT / AST:113/91, Alk Phos / T Bili:267/3.0,
   Amylase / Lipase:/44, Differential-Neuts:98.0 %, Band:0.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:206 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.2 g/dL, LDH:1607 IU/L, Ca++:6.6 mg/dL, Mg++:3.0 mg/dL,
   PO4:9.3 mg/dL
   Assessment and Plan
   58M pauci-immune pulm vasculitis c/b hemorrhage despite aggressive
   immunosupression, colonic abscess, recurrent resp failure, GIB - recent
   HCT stable, rising creatinine. Hypoglycemia while off TFs, requiring
   D5.
   # Respiratory status: Remains intubated, failed pressure support trial.
   Will try pressure support trial again today with decreased sedation.
   continue current settings pending the development of concomitant acute
   issues (bleeding, renal failure).  PCP was negative, therefore IV
   bactrim not started. Volume status has been climbing up steadily over
   last several weeks.
   - leave on AC ventilation
   - try to decrease sedation to get to self-breathe
   - volume overloaded, but lasix d/c
ed yesterday due to non-benefit.
   - continue Solumedrol at 250 IV q6h x 3 days, then will drop by 50mg
   per dose to get to 50-100 q8.
   - Check PM lytes
   - f/u BAL for galactomannan, Nocardia cx and stains, fungal stains per
   ID recs
   - Discuss with family today possibility of tracheostomy and PEG
   placement
   # LGIB/Sigmoid Abscess:  Hct stable this AM. No surgical intervention
   at this time. Negative RBC scan. Restarted tube feeds yesterday after
   discussion with surgery
   - Hct QD
   - Restarting tube feeds today
   - Off antibiotics
   - if appears to be bleeding transfuse RBC and PLT as needed. Goal Hct >
   23, Platelets > 50
   - If continued bleeding, contact GI re: evaluating for UGIB
   - Appreciate IR and Surgery
s continued following of patient
   # Acute Kidney injury
 creatinine increasing (2.3
 2.6) s/p lasix
   drip, but will consider other etiologies such as ketoacidosis (blood
   sugars have been very high) in addition to pre-renal failure/
   long-standing poor hemodynamics.
   - Checking serum ketones to determine any component of ketoacidosis.
   - Check UA for ketones
   - continue to trend creatinine closely
   - Will discuss with renal long-term HD for management of renal and
   volume status (along with tracheostomy and PEG).
   .
   #Thrombocytopenia
   - Platelets today 27 from 39 yesterday and 69 3 days ago
   - Transfuse FFP for signs of bleeding or Platelets less than <15
   # DM: sugars high (200s) most recently. Tube feeds held overnight
   because absent bowel sounds; high blood sugars in setting of increased
   steroid dose.
   - Starting insulin drip due to steroid dose increase and high steroid
   dose
   - Gingerly advancing tube feeds although bowel sounds continue to be
   hypoactive
   - Check serum ketones to evaluate for ketoacidosis
   - q4 FS and ISS
   - Follow-up [**Last Name (un) 72**] recs
   # Anemia: now acute, with guiaic positive stool as above with more
   frank bloody appearing stool this morning
   - transfuse as above
   - monitor Hct q8h
   - cont to follow heme/onc recs; will not biopsy for now.
   # Heme: Confusing heme picture. Continues to have elevated direct
   bilirubin now, LDH, reticulocyte count, nucleated RBCs, picture c/w
   hemolysis and brisk marrow response. But haptoglobin initially not low,
   and pancytopenic generally. Heme/onc review of smear: No evidence of
   DIC, TTP or microangiopathy. Possible  effect of fluconazole. SPEP and
   UPEP results
 polyclonal IgG without spikes, likely [**2-2**] recent IVIG.
   G6PD level WNL.
   - Appreciate Heme/Onc recs
   - Per heme/onc considering inpatient bone marrow biopsy put on hold for
   now given clinical condition
   - Attempting to limit bone marrow suppressive medications
   #) Skin breakdown
   - Continue to follow wound care recommendations
   # Hypernatremia: Resolved. Given NPO status and bowel rest will stop
   flushes.
   - f/u PM lytes
   # Pain: Has chronic pain in back, and from rotator cuff injury.
    Continuing Lidocaine patch
   - Holding delirium inducing medications
   # Agitation: Pt had appeared intermittently agitated, appearing
   uncomfortable despite Zydis. Suspect: ICU delirium vs. prolonged
   anxiety/fatigue vs. respiratory distress vs. pain vs. steroid psychosis
   vs. cerebral vasculitis v. rebound delirium. Pt currently well sedated
   on Propofol gtt. Well-sedated now.
   - c/w Zydis [**Hospital1 **]
   - Continue SSRI
   - Wean steroids as possible
   - cont propofol gtt and fentanyl gtt to allow for titration
   - check TG and consider midaz as above
   # Livedo reticularis: Noted on L hand and on legs at times, not active
   now.
   - Serial exams
   # CAD:  ECG during period of agitation: ST dep in high lateral leads,
   c/w strain pattern. Trops falling.
   - no further trending
   # Thrombocytopenia: falling
   - Transfuse to maintain PLT > 50K
   # Restless leg:
   -DC ropinirole d/t sedating and hallucinatory side effects
   # BPH: Holding Flomax for now.
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Currently relatively hypotensive. Bolus as above.
   -  Sotalol held due to increased Qtc; will resume QD sotalol dose
   today.
   # Goals of care
   - continue to update family on his status
   # FEN: resume tube feeds today with surgery, f/u with nutrition.
   - Replete lytes as necessary
   - K is somewhat high, check PM lytes K
   # Lines:
   Multi Lumen RIJ
 consider removing (placed ~2 weeks ago) and placing
   PICC, however will hold on this today d/t bleeding
   A-line
   20 gauge PIV
   # Prophylaxis:
   - Pneumoboots
   - IVC filter
   - continue PPI to [**Hospital1 **]
   # Communication: Patient, family
 continue to call family daily
   - Family meeting today at around 2pm
   # Code status: Full code for now
 will need further discussion
   # Disposition: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2112-3-8**] 01:30 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   Arterial Line - [**2112-3-1**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-03-10 06:11:00 Physician Resident Progress Note
24 Hour Events:
   [**2112-3-9**]
   Pt noted to be hypotensive to 70s-80s systolic around 8pm. Also noted
   to be increasingly acidotic on ABGs, w/ potassium, creatinine rising.
   Given 2L boluses of D5W w/ 150 Bicarb, then 1L of maintenance fluids.
   Vent settings changed from pressure support to assist control, as Pt
   apparently had "guppy" like breathing. Called son to update, and
   discussed code status who said Pt should be DNR/DNI, no chest
   compressions or shocks in the event Pt decompensates overnight. Son
   will plan to come in tomorrow to discuss goals of care. Pt started on
   insulin gtt, broadly covered with antibiotics ([**Last Name (un) **]/vanco/flagyl). BP
   and respiratory status improved around 12 AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2112-3-9**] 10:10 PM
   Metronidazole - [**2112-3-9**] 11:09 PM
   Vancomycin - [**2112-3-9**] 11:58 PM
   Infusions:
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-3-9**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-10**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 95 (75 - 101) bpm
   BP: 118/63(79) {80/42(57) - 128/66(84)} mmHg
   RR: 25 (10 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (5 - 9)mmHg
   Total In:
                                                                  3,654 mL
                                                                    505 mL
   PO:
   TF:
                                                                     90 mL
   IVF:
                                                                  3,164 mL
                                                                    505 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    140 mL
   Urine:
                                                                    520 mL
                                                                    140 mL
   NG:
                                                                    240 mL
   Stool:
   Drains:
                                                                    250 mL
   Balance:
                                                                  2,644 mL
                                                                    365 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 749 (749 - 871) mL
   PS : 12 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   PIP: 31 cmH2O
   SpO2: 95%
   ABG: 7.21/49/92.[**Numeric Identifier 491**]/19/-8
   Ve: 15.7 L/min
   PaO2 / FiO2: 133
   Physical Examination
   Gen: Sedated, intubated, appears comfortable
   Resp: CTAB anteriorly
   Cards: rrr no m/r/g
   Abd: soft, nt/nd, faint BS. R sided abdominal pouch in place, draining
   scant amount of maroon stool
   Skin: RUE petechial rash at anterior deltoid; anasarcic
   Labs / Radiology
   25 K/uL
   9.4 g/dL
   214 mg/dL
   3.1 mg/dL
   19 mEq/L
   4.4 mEq/L
   135 mg/dL
   107 mEq/L
   142 mEq/L
   26.9 %
   7.3 K/uL
        [image002.jpg]
                             [**2112-3-9**]  09:06 AM
                             [**2112-3-9**]  12:05 PM
                             [**2112-3-9**]  01:54 PM
                             [**2112-3-9**]  03:01 PM
                             [**2112-3-9**]  03:50 PM
                             [**2112-3-9**]  05:43 PM
                             [**2112-3-9**]  09:09 PM
                             [**2112-3-10**]  02:02 AM
                             [**2112-3-10**]  04:09 AM
                             [**2112-3-10**]  05:15 AM
   WBC
   7.3
   Hct
   26.9
   Plt
   25
   Cr
   3.1
   3.1
   TCO2
   18
   18
   18
   17
   18
   19
   19
   21
   Glucose
   129
   280
   278
   214
   Other labs: PT / PTT / INR:12.0/21.2/1.0, CK / CKMB /
   Troponin-T:283/8/<0.01, ALT / AST:90/103, Alk Phos / T Bili:288/4.9,
   Amylase / Lipase:/44, Differential-Neuts:98.0 %, Band:0.0 %, Lymph:1.0
   %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:206 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.2 g/dL, LDH:1641 IU/L, Ca++:7.4 mg/dL, Mg++:2.9 mg/dL,
   PO4:8.6 mg/dL
   Assessment and Plan
   58M pauci-immune pulm vasculitis c/b hemorrhage despite aggressive
   immunosupression, colonic abscess, recurrent resp failure, GIB - recent
   HCT stable, rising creatinine. Hypoglycemia while off TFs, requiring
   D5.
   # Goals of care
   - continue to update family on his status
   - Family to visit today to discuss goals of care. Family notified last
   night when Pt was decompensating and agreed to make DNR/DNI
   - Per previous conversations, Pt
s family does not want trach/PEG/HD
   - will discuss CMO option as well
   # Respiratory status: Pt failed pressure support trial, back on assist
   control. Antibiotics started in setting of decompensation overnight.
   - leave on AC ventilation, Pt unable to tolerate pressure support
   - tried yesterday to decrease sedation to get to self-breathe, Pt w/
   agonal type breathing
   - continue Solumedrol taper to 200/150/100 today
   - Check PM lytes
   - Vanc/[**Last Name (un) 350**]/Flagyl started overnight setting of
   - f/u BAL for galactomannan, Nocardia cx and stains, fungal stains,
   still no new culture data
   - Bactrim held for concern of bone marrow suppression
   # Acute Kidney injury
 creatinine increasing (3.1 this AM) s/p lasix
   drip, but will consider other etiologies such as ketoacidosis (blood
   sugars have been very high) in addition to pre-renal failure/
   long-standing poor hemodynamics.
   - continue to trend creatinine closely
   - Long term HD discussed yesterday with family
 they will likely not
   choose this route, but will follow up.
   - start Aluminum OH today to lower phosphate; currently unable to
   adequately replete ionized calcium
   # LGIB/Sigmoid Abscess:  Hct stable this AM. No surgical intervention
   at this time. Negative RBC scan. Restarted tube feeds after discussion
   with surgery.
   - Hct QD
   - Continue tube feeds
   - Continue broad antibiotics until family discussion with concern for
   HAP
   - if appears to be bleeding transfuse RBC and PLT as needed. Goal Hct >
   23, Platelets > 50
   - If continued bleeding, contact GI re: evaluating for UGIB
   - Appreciate Surgery
s long-standing input, now signing off
   #Thrombocytopenia
   - Platelets today 25 from 27 yesterday
   - Pt. is not currently bleeding
 will plan to give platelets and DDAVP
   only if bleeding of PLT < 15
   - Transfuse FFP for signs of bleeding or Platelets less than <15
   # DM: sugars high (200s) most recently. Tube feeds held overnight
   because absent bowel sounds; high blood sugars in setting of increased
   steroid dose.  Insulin drip restarted last night in setting of steroids
   and D5.
   - Hold TF for residual
 will consider insulin drip to avoid
   hypoglycemia
   - q4 FS and ISS
   - continue lantus (started 10 units QHS yesterday)
   - Follow-up [**Last Name (un) 72**] recs
   # Anemia: now acute, with guiaic positive stool as above with more
   frank bloody appearing stool last week which has now improved
   - transfuse as above
   - monitor Hct
   - cont to follow heme/onc recs; will not biopsy for now.
   # Heme: Confusing heme picture. Continues to have elevated direct
   bilirubin now, LDH, reticulocyte count, nucleated RBCs, picture c/w
   hemolysis and brisk marrow response. But haptoglobin initially not low,
   and pancytopenic generally. Heme/onc review of smear: No evidence of
   DIC, TTP or microangiopathy. Possible  effect of fluconazole. SPEP and
   UPEP results
 polyclonal IgG without spikes, likely [**2-2**] recent IVIG.
   G6PD level WNL.
   - Appreciate Heme/Onc recs, now signing off
   - Per heme/onc considering inpatient bone marrow biopsy put on hold for
   now given clinical condition
   - Attempting to limit bone marrow suppressive medications
   #) Skin breakdown
   - Continue to follow wound care recommendations
   # Electrolyte Abnormalities:  Pt. had hypocalcemia, hyperkalemia over
   night.
   - replete lytes as needed
   - kayexelate PR
   - calcium acetate
   - lytes q6-8 hours
   - aluminum OH to lower Phosphate given recalcitrant hypocalcemia
   # Pain: Has chronic pain in back, and from rotator cuff injury.
    Continuing Lidocaine patch
   - Holding delirium inducing medications, will attempt to give fentanyl,
   transition down on sedation
   # Agitation: Pt had appeared intermittently agitated, appearing
   uncomfortable despite Zydis. Suspect: ICU delirium vs. prolonged
   anxiety/fatigue vs. respiratory distress vs. pain vs. steroid psychosis
   vs. cerebral vasculitis v. rebound delirium. Pt currently well sedated
   on Propofol gtt. Well-sedated now.
   - c/w Zydis [**Hospital1 **]
   - Continue SSRI
   - Wean steroids as possible
   - cont propofol gtt and fentanyl gtt to allow for titration
   - check TG and consider midaz as above
   # Livedo reticularis: Noted on L hand and on legs at times, not active
   now.
   - Serial exams
   # CAD:  ECG during period of agitation: ST dep in high lateral leads,
   c/w strain pattern. Trops falling.
   - no further trending
   # Thrombocytopenia: falling
   - Transfuse to maintain PLT > 50K
   # Restless leg:
   -DC ropinirole d/t sedating and hallucinatory side effects
   # BPH: Holding Flomax for now.
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Currently relatively hypotensive. Bolus as above.
   -  Sotalol held due to increased Qtc; will resume QD sotalol dose
   today.
   # FEN: resume tube feeds today with surgery, f/u with nutrition.
   - Replete lytes as necessary
   - K is somewhat high, check PM lytes K
   # Lines:
   Multi Lumen RIJ
 consider removing (placed ~2 weeks ago) and placing
   PICC, however will hold on this today d/t bleeding
   A-line
   20 gauge PIV
   # Prophylaxis:
   - Pneumoboots
   - IVC filter
   - continue PPI to [**Hospital1 **]
   # Communication: Patient, family (son = [**Male First Name (un) 11352**]
 continue to call
   family daily
   - Family meeting today
   # Code status: DNR per discussion with son last night but will discuss
   with son later today.
   # Disposition: ICU

2112-03-11 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -unable to restart TF because Dobhoff clogged, no success declogging
   with papain
   -afebrile, but BPs running 80s/40s much of the evening, 2L positive for
   the day, making urine ~20 per hour
   -family meeting -> definitely DNR, will discuss further possibility of
   de-escalating current care regimen
   -restarted Lantus 30 units
   -started aluminum OH to bring down phosphate so we could get his
   calcium up, calcium down to 6 on pm labs, gave 2gm ca gluc
   -new wound care recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2112-3-9**] 11:58 PM
   Meropenem - [**2112-3-10**] 11:39 AM
   Metronidazole - [**2112-3-11**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-3-11**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.8
C (96.5
   HR: 82 (77 - 93) bpm
   BP: 99/66(79) {89/44(59) - 118/66(79)} mmHg
   RR: 21 (18 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 2 (0 - 2)mmHg
   Total In:
                                                                  2,529 mL
                                                                    984 mL
   PO:
   TF:
   IVF:
                                                                  2,179 mL
                                                                    984 mL
   Blood products:
   Total out:
                                                                    445 mL
                                                                    162 mL
   Urine:
                                                                    445 mL
                                                                     22 mL
   NG:
   Stool:
   Drains:
                                                                    140 mL
   Balance:
                                                                  2,084 mL
                                                                    822 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 771 (533 - 771) mL
   RR (Set): 22
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 70%
   PIP: 33 cmH2O
   Plateau: 27 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.32/44/107/20/-3
   Ve: 15.7 L/min
   PaO2 / FiO2: 153
   Physical Examination
   General: non-responsive
   Heart: RRR
   Lungs: Coarse Sounds bilaterally
   Abdomen: obese, soft, drain with reddish-brown stool
   Extremities: 3+ edema bilaterally
   Labs / Radiology
   14 K/uL
   8.0 g/dL
   149 mg/dL
   3.2 mg/dL
   20 mEq/L
   4.5 mEq/L
   142 mg/dL
   105 mEq/L
   143 mEq/L
   23.8 %
   4.5 K/uL
        [image002.jpg]
                             [**2112-3-10**]  02:02 AM
                             [**2112-3-10**]  04:09 AM
                             [**2112-3-10**]  05:15 AM
                             [**2112-3-10**]  07:39 AM
                             [**2112-3-10**]  07:47 AM
                             [**2112-3-10**]  03:16 PM
                             [**2112-3-10**]  03:38 PM
                             [**2112-3-10**]  09:57 PM
                             [**2112-3-11**]  03:38 AM
                             [**2112-3-11**]  03:51 AM
   WBC
   7.3
   7.4
   4.5
   Hct
   26.9
   28.5
   23.8
   Plt
   25
   27
   14
   Cr
   3.1
   3.1
   3.1
   3.1
   3.2
   TCO2
   19
   21
   21
   21
   24
   Glucose
   [**Telephone/Fax (3) 11914**]7
   118
   149
   Other labs: PT / PTT / INR:12.1/23.4/1.0, CK / CKMB /
   Troponin-T:283/8/<0.01, ALT / AST:49/63, Alk Phos / T Bili:239/3.8,
   Amylase / Lipase:/44, Differential-Neuts:96.0 %, Band:2.0 %, Lymph:0.0
   %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:206 mg/dL, Lactic Acid:2.7 mmol/L,
   Albumin:2.0 g/dL, LDH:1508 IU/L, Ca++:5.9 mg/dL, Mg++:2.7 mg/dL,
   PO4:8.3 mg/dL
   Fingersticks: 154, 215, 136
                                                                [**2112-3-11**]
                                                                    03:51a
   _______________________________________________________________________
                                     pH
                                    7.32
                                    pCO2
                                     44
                                     pO2
                                     107
                                    HCO3
                                     24
                                   BaseXS
                                     -3
   Type:Art
   freeCa:0.79
   Lactate:2.7
   O2Sat: 96
   Assessment and Plan
   58M pauci-immune pulm vasculitis c/b hemorrhage despite aggressive
   immunosupression, colonic abscess, recurrent resp failure, GIB - recent
   HCT stable, rising creatinine. Steroid pulse initiated, on insulin gtt,
   massively volume overloaded with rising creatinine. Back on VAC,
   hypotensive, progressive ARF / acidosis.
   # Goals of care
   - continue to update family on his status
   - Family to visit today to discuss goals of care. Family notified last
   night when Pt was decompensating and agreed to make DNR/DNI
   - Per previous conversations, Pt
s family does not want trach/PEG/HD
   - will discuss CMO option as well
   # Recalcitrant Hypocalcemia:
    - continue aluminum hydroxide to lower phosphate
   # Respiratory status: Pt failed pressure support trial, back on assist
   control. Antibiotics started in setting of decompensation overnight.
   - leave on AC ventilation, Pt unable to tolerate pressure support
   - tried yesterday to decrease sedation to get to self-breathe, Pt w/
   agonal type breathing
   - continue Solumedrol taper to 200/150/100 today
   - Check PM lytes
   - Vanc/[**Last Name (un) 350**]/Flagyl started overnight setting of
   - f/u BAL for galactomannan, Nocardia cx and stains, fungal stains,
   still no new culture data
   - Bactrim held for concern of bone marrow suppression
   # Acute Kidney injury
 creatinine increasing (3.1 this AM) s/p lasix
   drip, but will consider other etiologies such as ketoacidosis (blood
   sugars have been very high) in addition to pre-renal failure/
   long-standing poor hemodynamics.
   - continue to trend creatinine closely
   - Long term HD discussed yesterday with family
 they will likely not
   choose this route, but will follow up.
   - start Aluminum OH today to lower phosphate; currently unable to
   adequately replete ionized calcium
   # LGIB/Sigmoid Abscess:  Hct stable this AM. No surgical intervention
   at this time. Negative RBC scan. Restarted tube feeds after discussion
   with surgery.
   - Hct QD
   - Continue tube feeds
   - Continue broad antibiotics until family discussion with concern for
   HAP
   - if appears to be bleeding transfuse RBC and PLT as needed. Goal Hct >
   23, Platelets > 50
   - If continued bleeding, contact GI re: evaluating for UGIB
   - Appreciate Surgery
s long-standing input, now signing off
   # Thrombocytopenia
   - Platelets today 25 from 27 yesterday
   - Pt. is not currently bleeding
 will plan to give platelets and DDAVP
   only if bleeding of PLT < 15
   - Transfuse FFP for signs of bleeding or Platelets less than <15
   # DM: sugars high (200s) most recently. Tube feeds held overnight
   because absent bowel sounds; high blood sugars in setting of increased
   steroid dose.  Insulin drip restarted last night in setting of steroids
   and D5.
   - Hold TF for residual
 will consider insulin drip to avoid
   hypoglycemia
   - q4 FS and ISS
   - continue lantus (started 10 units QHS yesterday)
   - Follow-up [**Last Name (un) 72**] recs
   # Anemia: now acute, with guiaic positive stool as above with more
   frank bloody appearing stool last week which has now improved
   - transfuse as above
   - monitor Hct
   - cont to follow heme/onc recs; will not biopsy for now.
   # Heme: Confusing heme picture. Continues to have elevated direct
   bilirubin now, LDH, reticulocyte count, nucleated RBCs, picture c/w
   hemolysis and brisk marrow response. But haptoglobin initially not low,
   and pancytopenic generally. Heme/onc review of smear: No evidence of
   DIC, TTP or microangiopathy. Possible  effect of fluconazole. SPEP and
   UPEP results
 polyclonal IgG without spikes, likely [**2-2**] recent IVIG.
   G6PD level WNL.
   - Appreciate Heme/Onc recs, now signing off
   - Per heme/onc considering inpatient bone marrow biopsy put on hold for
   now given clinical condition
   - Attempting to limit bone marrow suppressive medications
   #) Skin breakdown
   - Continue to follow wound care recommendations
   # Electrolyte Abnormalities:  Pt. had hypocalcemia, hyperkalemia over
   night.
   - replete lytes as needed
   - kayexelate PR
   - calcium acetate
   - lytes q6-8 hours
   # Pain: Has chronic pain in back, and from rotator cuff injury.
    Continuing Lidocaine patch
   - Holding delirium inducing medications, will attempt to give fentanyl,
   transition down on sedation
   # Agitation: Pt had appeared intermittently agitated, appearing
   uncomfortable despite Zydis. Suspect: ICU delirium vs. prolonged
   anxiety/fatigue vs. respiratory distress vs. pain vs. steroid psychosis
   vs. cerebral vasculitis v. rebound delirium. Pt currently well sedated
   on Propofol gtt. Well-sedated now.
   - c/w Zydis [**Hospital1 **]
   - Continue SSRI
   - Wean steroids as possible
   - cont propofol gtt and fentanyl gtt to allow for titration
   - check TG and consider midaz as above
   # Livedo reticularis: Noted on L hand and on legs at times, not active
   now.
   - Serial exams
   # CAD:  ECG during period of agitation: ST dep in high lateral leads,
   c/w strain pattern. Trops falling.
   - no further trending
   # Thrombocytopenia: falling
   - Transfuse to maintain PLT > 50K
   # Restless leg:
   -DC ropinirole d/t sedating and hallucinatory side effects
   # BPH: Holding Flomax for now.
   # DVT w/ PE: Has IVC filter in place
   # Hypertension: Currently relatively hypotensive. Bolus as above.
   -  Sotalol held due to increased Qtc; will resume QD sotalol dose
   today.
   # FEN: resume tube feeds today with surgery, f/u with nutrition.
   - Replete lytes as necessary
   - K is somewhat high, check PM lytes K
   # Lines:
   Multi Lumen RIJ
 consider removing (placed ~2 weeks ago) and placing
   PICC, however will hold on this today d/t bleeding
   A-line
   20 gauge PIV
   # Prophylaxis:
   - Pneumoboots
   - IVC filter
   - continue PPI to [**Hospital1 **]
   # Communication: Patient, family (son = [**Male First Name (un) 11352**]
 continue to call
   family daily
   - Family meeting today
   # Code status: DNR per discussion with son last night but will discuss
   with son later today.
   # Disposition: ICU
   Exam notable for Tm 98.6 BP 100/50 HR 90 RR 22 with sat 97 on
   VAC 22x600 0.6 10 7.22/49/102 CVP 8. Obese man, unresponsive on vent.
   Coarse BS B. RRR s1s2. Soft +BS. Drain intact. 3+ edema. Labs notable
   for WBC 7K, HCT 26, Plt 25, K 4.4, Cr 3.1, lac 1.8 from 2.3.
   Agree with plan to manage ongoing hypoxemic respiratory failure with
   steroid taper back to SM 60mg q8h, VAC support, abx for possible
   pneumonia. Progressive acidosis / ARF - RD meds, optimize hemodynamics,
   med rx of hyperkalemia including kayexalate PR, HCO3 and AlOH for
   hyperphosphatemia. LGIB / blood loss anemia has improved with serial
   transfusion, HCT QD; will retry TFs today, methylnaltrexone PRN. DM2
   - insulin gtt for now in the setting of D5 / steroids. Sotalol for AF -
   change to QD, not a candidate for anticoagulation. PPI, pnbts, filter,
   [**Last Name (LF) 2990**], [**First Name3 (LF) **] line, DNR; will meet with family today. Remainder of plan as
   outlined above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-2-8**] 05:48 AM
   Arterial Line - [**2112-3-1**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: